2135-08-19 07:31:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 MULTI LUMEN - START [**2135-8-18**] 10:17 AM
 CARDIAC ARREST - At [**2135-8-18**] 03:40 PM
 INVASIVE VENTILATION - START [**2135-8-18**] 04:00 PM
 TRANSTHORACIC ECHO - At [**2135-8-18**] 04:51 PM
 ARTERIAL LINE - START [**2135-8-18**] 08:14 PM
 BLOOD CULTURED - At [**2135-8-19**] 04:18 AM
 EKG - At [**2135-8-19**] 06:33 AM
   Patient had PEA arrest yesterday. See event note in chart. Overnight
   was hypertensive with diastolic pressures > 110. Started labetolol drip
   which was weaned off. Received 2 units prbcs and 1 u plts. Received
   lasix after each blood transfusion with good UO. This am, dropped
   pressure to 80s systolic. Labetolol had been off for hours. Bolused 500
   cc and pressure quickly > 100 systolic. Pulsus 6. EKG with diffuse TWI
   which were deeper than previous ekg. No electrical alternans to suggest
   tamponade as cause. Repeat crit and plts were 25 an 9. Transfused 1 u
   prbcs and plts this am. Pt did not have bump in crit after 2 units of
   blood yesterday. Pt is intubated and sedated.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-8-18**] 02:00 PM
   Caspofungin - [**2135-8-18**] 10:30 PM
   Cefipime - [**2135-8-19**] 12:17 AM
   Acyclovir - [**2135-8-19**] 06:40 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-18**] 10:00 AM
   Atropine - [**2135-8-18**] 03:45 PM
   Hydromorphone (Dilaudid) - [**2135-8-18**] 08:00 PM
   Furosemide (Lasix) - [**2135-8-18**] 11:30 PM
   Fentanyl - [**2135-8-19**] 06:53 AM
   Midazolam (Versed) - [**2135-8-19**] 06:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 81 (73 - 148) bpm
   BP: 84/53(63) {84/53(63) - 179/130(152)} mmHg
   RR: 0 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 19 (19 - 23)mmHg
   Total In:
                                                                  3,596 mL
                                                                  1,809 mL
   PO:
   TF:
   IVF:
                                                                  2,078 mL
                                                                  1,114 mL
   Blood products:
                                                                    809 mL
                                                                    335 mL
   Total out:
                                                                  1,562 mL
                                                                    392 mL
   Urine:
                                                                  1,562 mL
                                                                    392 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,034 mL
                                                                  1,417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/35/153/18/-3
   Ve: 8.7 L/min
   PaO2 / FiO2: 306
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no mgr
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, no rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9 K/uL
   9.4 g/dL
   281 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.0 mEq/L
   28 mg/dL
   111 mEq/L
   138 mEq/L
   24.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-18**]  04:06 PM
                             [**2135-8-18**]  04:08 PM
                             [**2135-8-18**]  06:41 PM
                             [**2135-8-19**]  03:44 AM
   WBC
   0.1
   Hct
   25.7
   24.9
   Plt
   41
   9
   Cr
   0.9
   0.8
   TropT
   0.03
   0.03
   TCO2
   20
   21
   Glucose
   84
   281
   Other labs: PT / PTT / INR:18.9/33.9/1.7, CK / CKMB /
   Troponin-T:787/3/0.03, Lactic Acid:1.3 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Microbiology: [**8-16**] -[**8-18**] 6 sets VRE
   Assessment and Plan
   A/P: 38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology.
   .
   PEA Arrest: Ddx includes hypovolemia, hypoxia, tamponade, PE. Since
   resolved rather quickly and occured in context of positional change
   think maybe more likely hypovolemia. Ruled out for MI. Did not obtain
   CTA to r/o PE because would not anticoagulate given plt count is 9.
   -consider CTA as onc attending would consider filter or anticoagulation
   if plts > 50- will hold off for now
   -CVP not reliable indicator of volume status
   -transfuse to increase intravasc volume
   .
   Hypoxic Respiratory Distress: CT CHEST yesterday showed evidence of
   worsening bilateral pleural effusions without infiltrate which could be
   causing atelectasis and hypoxemia. Other possible etiology is PE though
   this is less likely given no evidence of elevated PA pressures or right
   sided strain on ECHO. No evidence of PNA, ARDS or interstitial lung
   process on CT.
   - Continue ventilator, follow sats and abgs
   - Consider tapping effusion
   - consider CTA to r/o PE- will hold off for now
   .
   VRE SEPSIS: Neutropenic with 6/6 cx positive for VRE. Lines were
   changed [**8-17**] and patient was started on daptomycin.
   - Continue dapto
   - Follow ANC
   - follow fever curve and wbc count
   - consider neupogen
   - f/u ID recs
   -may need TEE given high grade bacteremia
   -may need another line change because positive bld cx present after
   removing previous lines
   -daily ekg to look at pr interval
   .
   Pericardial effusion/ tamponade: Small effusion on Echo. Repeat echo
   after PEA arrest equivocal for tamponade. Patient had episode of
   hypotension this am but normal pulsus and no elec alternans on ekg.
   - follow pulsus
   - labetalol for rate control to improve filling time if bp allows
   - cards recs
   - volume resuscitation with blood + lasix
   .
   Neutropenic fever: Two known sources at this point
   - continue Dapto and PO vanco for VRE and C. diff
   - cont cefepime and caspo per onc although these were empiric abx for
   neutropenic fever which we now have source for, may be able to peel
   these off slowly
   - continue acyclovir prophylaxis
   - demerol for rigors
   - f/u ONC and ID recs
   .
   Pancytopenia: due to recent chemo, at count nadirs. Pt did not bump
   plts or crit with most recent transfusions. Concern for hemolysis or RP
   bleed.
   - transfuse plts if less than 10 or active bleeding-gave one unit this
   am
   -consider abd/pelvis ct once stable
   - Blood for volume resuscitation- gave one unit blood
   -follow cbc tid
   .
   HTN: Patient has very labile blood pressure. Was on labetolol drip
   overnight for very elevated diastolic pressures. Dropped her pressure
   this am and was very fluid responsive. CVP in low 20s.
   - use labetolol for rate control if hypertensive, currently
   normotensive so will hold for now
   .
   Coagulopathy: Elevated INR but not on anticoagulation. Possibly
   secondary to nutritional deficiency vs. DIC in setting of sepsis as
   crit not bumping with transfusions.
   -DIC and hemolysis labs
   - monitor coags
   .
   Pancreatitis: Thought to be secondary to recent cytarabine
   chemotherapy. No abdominal pain currently and LFTs trending down.
   - Keep NPO
   - TPN
   .
   .C. Diff:
   -continue PO vanco
   .
   ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   FEN: NPO, repletes lytes PRN, TPN- may consider discontinuing this in
   setting of high grade bacteremia
   .
   PPX: pneumoboots, bowel regimen, mouthcare
   .
   ACCESS: L subclavian, PIV, aline
   .
   CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   CODE: FULL
   .
   DISPO: ICU level of care for now
   .
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-8-18**] 10:17 AM
   Arterial Line - [**2135-8-18**] 08:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-20 05:28:00 Physician Resident Progress Note
Chief Complaint: VRE bacteremia, respiratory distress, febrile
   neutropenia
   24 Hour Events:
 MULTI LUMEN - START [**2135-8-19**] 08:00 PM
   right IJ placed by MICU team
 ARTERIAL LINE - STOP [**2135-8-19**] 08:14 PM
 ARTERIAL LINE - START [**2135-8-19**] 08:14 PM
 EKG - At [**2135-8-19**] 08:15 PM
 MULTI LUMEN - STOP [**2135-8-19**] 10:00 PM
   right IJ placed by MICU team
   - Bld cx growing VRE
   - ID rec's TEE.  Will likely get on Monday unless pt's status worsens
   (ie, s/o new valvular regurg or conduction defects).
   - Changed abx to linezolid as ? VRE resistent to dapto given multi bld
   cx (+) while on dapto.
   - Discontinued TPN given high grade bacteremia & volume status up.
   - Started Neupogen.
   - Attempted to place RIJ but failed as line looped around left
   subclavian.  RIJ pulled with significant bleeding requiring prolonged
   pressure.  Plt 15, received 2u platlets and 2u FFP.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-8-19**] 06:15 PM
   Acyclovir - [**2135-8-20**] 12:20 AM
   Cefipime - [**2135-8-20**] 12:20 AM
   Caspofungin - [**2135-8-20**] 02:03 AM
   Linezolid - [**2135-8-20**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2135-8-19**] 06:53 AM
   Midazolam (Versed) - [**2135-8-19**] 06:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-20**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 92 (73 - 96) bpm
   BP: 145/100(119) {84/53(63) - 148/103(121)} mmHg
   RR: 16 (0 - 200) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 29 (19 - 267)mmHg
   Total In:
                                                                  3,680 mL
                                                                  1,380 mL
   PO:
   TF:
   IVF:
                                                                  1,694 mL
                                                                    788 mL
   Blood products:
                                                                    894 mL
                                                                    592 mL
   Total out:
                                                                    918 mL
                                                                    180 mL
   Urine:
                                                                    918 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,762 mL
                                                                  1,200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 99%
   ABG: 7.41/33/104/19/-2
   Ve: 7.7 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent. +2 extremity edema increased
   from yesterday.
   Skin:  Warm, no rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   9.2 g/dL
   180 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   39 mg/dL
   111 mEq/L
   141 mEq/L
   24.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-18**]  06:41 PM
                             [**2135-8-19**]  03:44 AM
                             [**2135-8-19**]  06:43 AM
                             [**2135-8-19**]  09:09 AM
                             [**2135-8-19**]  09:33 AM
                             [**2135-8-19**]  10:07 AM
                             [**2135-8-19**]  03:06 PM
                             [**2135-8-19**]  09:50 PM
                             [**2135-8-20**]  03:19 AM
                             [**2135-8-20**]  03:41 AM
   Hct
   24.9
   27.8
   28.5
   28.1
   24.6
   Plt
   9
   45
   15
   58
   Cr
   0.8
   1.1
   TropT
   0.03
   TCO2
   21
   21
   20
   22
   Glucose
   281
   180
   Other labs: PT / PTT / INR:18.0/31.1/1.6, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:38/128, Alk Phos / T Bili:182/2.8,
   Amylase / Lipase:97/113, Lactic Acid:1.5 mmol/L, LDH:1261 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with 6/6 cx positive for VRE. Lines were changed
   [**8-17**] and patient was started on daptomycin and converted to linezolid
   yesterday.  Neupogen started yesterday as well.
   - Continue linezolid, cefepime, acyclovir, and caspofungin
   - Follow ANC
   - Surveillance cultures this PM.
   - follow fever curve and wbc count
   - f/u ID recs
   - Per ID, plan for TEE Monday
   - Continue using current left subclavian CVL for now. If patient has
   blood cultures this afternoon that are negative tomorrow afternoon,
   will consider switching out with clean CVL.  Would consider placing EJ
   to bridge to new CVL.
   .
   # Neutropenic fever: Two known sources at this point with VRE and
   C.diff. Started neupogen yesterday.
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - cont cefepime and caspo per onc although these were empiric abx for
   neutropenic fever
   - continue acyclovir prophylaxis
   - demerol for rigor
   - f/u oncology and ID recs
   - f/u culture data
   .
   # PEA Arrest: Ddx includes hypovolemia, hypoxia, tamponade, PE. Since
   resolved rather quickly and occured in context of positional change
   think maybe more likely hypovolemia. Ruled out for MI. Did not obtain
   CTA to r/o PE because would not anticoagulate given plt count is 9.
   -consider CTA as onc attending would consider filter or anticoagulation
   if plts > 50- will hold off for now
   -CVP not reliable indicator of volume status
   -transfuse to increase intravasc volume
   .
   # Respiratory failure: Continue with AC and albuterol MDI
   .
   # Pancytopenia: due to recent chemo, at count nadirs. Patient with
   significant bleeding with RIJ removal requiring 2units platelets and 2
   units FFP with appropriate increase in platelets.  She has received 2u
   PRBC on [**8-18**] and 1 u PRBC yesterday.
   - Trend hct
   - transfuse plts if less than 10 or active bleeding
    -consider abd/pelvis ct once stable
   -follow cbc tid
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Possibly
   secondary to nutritional deficiency vs. DIC in setting of sepsis as hct
   not bumping with transfusions.
    - monitor coags
   - Consider repeat DIC labs.
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   # FEN: NPO, repletes lytes PRN,
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # ACCESS: L subclavian, arterial line
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-8-18**] 10:17 AM
   Arterial Line - [**2135-8-19**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of history and exam and agree with Dr.
   [**First Name (STitle) 1103**]
s assessment and plan as described above.  BC again pos yesterday.
   We have started linezolid. It seems she continues to have a high grade
   bacteremia.  We placed an IJ last night but the line looped and was
   removed. I am inclined to give her another day of linezolid and then
   try again to replace line.  We are continuing other abx. Fluid balance
   continues to be pos which will further complicate weaning if she
   stabilizes. Will try to limit fluids today.
   Time spent- 55 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-8-20**] 13:01 ------

2135-08-21 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given difficulty obtaining access (previous lines have been placed
   under fluoro) and decision to try treatment of dapto-resistant
   enterococcus with linezolid, subclavian line not pulled
   - [**Hospital1 **] blood cultures to assess for eradication of enterococcus on
   linzeolid
   - PM hematocrit 26.1; transfusion threshold hematocrit >25
   - ID recs - Continue linezolid 600 [**Hospital1 **], TEE on Monday
   - Hem/onc recs - Line change, increase Filgrastim to 480 mcg IV Q24H
   - CMV IgG positive in past - CMV viral load pending
   - GFR 55 by MDRD equation - Meds renally dosed (cefepime,
   - Given that TF stopped, decreased insulin dose to Lantus 5U QHS
 BLOOD CULTURED - At [**2135-8-20**] 03:15 PM
   from aline
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-8-19**] 06:15 PM
   Acyclovir - [**2135-8-20**] 10:00 PM
   Caspofungin - [**2135-8-20**] 10:45 PM
   Linezolid - [**2135-8-21**] 12:25 AM
   Cefipime - [**2135-8-21**] 03:45 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-21**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 101 (93 - 110) bpm
   BP: 139/97(113) {123/81(97) - 150/104(123)} mmHg
   RR: 16 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 25 (25 - 29)mmHg
   Total In:
                                                                  2,911 mL
                                                                    523 mL
   PO:
   TF:
   IVF:
                                                                  2,199 mL
                                                                    523 mL
   Blood products:
                                                                    592 mL
   Total out:
                                                                  1,160 mL
                                                                    460 mL
   Urine:
                                                                  1,160 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,751 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 147
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   SpO2: 100%
   ABG: 7.35/35/135/20/-5
   Ve: 7.9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, sluggish to light
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no r/g/m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Tender: , Obese, hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   16 K/uL
   9.0 g/dL
   166 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.3 mEq/L
   39 mg/dL
   110 mEq/L
   139 mEq/L
   25.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-19**]  09:33 AM
                             [**2135-8-19**]  10:07 AM
                             [**2135-8-19**]  03:06 PM
                             [**2135-8-19**]  09:50 PM
                             [**2135-8-20**]  03:19 AM
                             [**2135-8-20**]  03:41 AM
                             [**2135-8-20**]  05:43 AM
                             [**2135-8-20**]  02:28 PM
                             [**2135-8-21**]  05:08 AM
                             [**2135-8-21**]  05:09 AM
   WBC
   0.1
   Hct
   28.5
   28.1
   24.6
   26.1
   25.0
   Plt
   15
   58
   16
   Cr
   1.1
   1.1
   TCO2
   21
   20
   22
   22
   20
   Glucose
   180
   166
   Other labs: PT / PTT / INR:19.4/33.8/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:46/119, Alk Phos / T Bili:210/4.0,
   Amylase / Lipase:97/113, Lactic Acid:1.5 mmol/L, LDH:1232 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with cx positive for VRE. Lines were changed [**8-17**]
   and patient was started on daptomycin --> +BCx inspite of daptomycin
   changed to to linezolid ([**8-19**]).  Pt also started on Neupogen ([**8-19**]).
   Blood cultures still pending from yesterday, currently no growth.  Plan
   for TEE on Monday
   - Continue linezolid, cefepime, acyclovir, and caspofungin
   - Follow ANC
   - Surveillance cultures [**Hospital1 **] and f/u cx and sensitivities.
   - follow fever curve and wbc count
   - f/u ID recs
   - Continue using current left subclavian CVL for now. If patient's BC
   cont to be neg on linezolid today then consider pulling line and
   placing new central line.  Pt has L EJ PIV currently.
   .
   # Neutropenic fever: Two known sources at this point with VRE and
   C.diff. Pt on neupogen .  Pt has been afebrile
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - cont empiric cefepime and caspo per onc
   - continue acyclovir prophylaxis
   - demerol for rigor
   - f/u oncology and ID recs
   - f/u culture data
   .
   # PEA Arrest: Ddx includes hypovolemia, hypoxia, PE. ECHO negative for
   tamponade. Since resolved rather quickly and occured in context of
   positional change think maybe more likely hypovolemia. Ruled out for
   MI. Did not obtain CTA to r/o PE because would not anticoagulate given
   plt count is 16.
   -consider CTA as onc attending would consider filter or anticoagulation
   if plts > 50- will hold off for now
   -CVP not reliable indicator of volume status --> likely [**12-18**] exterior
   compression of heart from effusions.
   -transfuse to increase intravasc volume
   .
   # Respiratory failure: Continue with AC and albuterol MDI. RSBI 147.
   - t/c [**Month (only) 202**] FiO2 40% and decreasing Vt to 400-450.
   .
   # Pancytopenia: due to recent chemo, at count nadirs. Patient with
   significant bleeding with RIJ removal requiring 2units platelets and 2
   units FFP with appropriate increase in platelets ([**8-19**]).  She has
   received 2u PRBC on [**8-18**] and 1 u PRBC ([**8-19**]). Hct 25.0 today.
   - Will check afternoon Hct and transfuse <25.0
   - transfuse plts if less than 10 or active bleeding
   -follow cbc tid
   .
   #Bilirubinemia: Pt with TBili 4.0 today.  Pt has had elevated AP and
   LFTs during admission.  Possibly [**12-18**] hemolysis or obstruction
   - check Direct Bili
   - check hemolysis labs
   - check RUQ u/s
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Possibly
   secondary to nutritional deficiency vs. DIC in setting of sepsis
   although fibrinogen on [**8-17**] was >800.
    - monitor coags
   - Repeat DIC labs.
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   # FEN: NPO, repletes lytes PRN,
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # ACCESS: L subclavian, arterial line
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2135-8-18**] 10:17 AM
   Arterial Line - [**2135-8-19**] 08:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-08-22 07:33:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, VRE bacteremia, neutorpenia, ALL
   24 Hour Events:
 BLOOD CULTURED - At [**2135-8-21**] 02:00 PM
   aline
 BLOOD CULTURED - At [**2135-8-21**] 03:00 PM
   trilpe lumen
 MULTI LUMEN - STOP [**2135-8-22**] 01:30 AM
   - Pt given 1U pRBC and 1U plts (Goal plts >30)
   - Placed PIV in L antecub and pulled CVL (left subclavian)
   - BCx still NGTD after switching to linezolid
   - TF were restarted --> surgery OK with restarting since pancreatitis
   is resolving. Check LFTs and pancreatic enzymes. TF held this AM [**12-18**]
   residuals of 290 cc.
   - Pt lantus dose increased to 7 units
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-8-19**] 06:15 PM
   Meropenem - [**2135-8-21**] 04:00 PM
   Caspofungin - [**2135-8-21**] 09:15 PM
   Linezolid - [**2135-8-22**] 12:00 AM
   Cefipime - [**2135-8-22**] 03:30 AM
   Acyclovir - [**2135-8-22**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-22**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.2
   HR: 117 (101 - 117) bpm
   BP: 141/96(113) {140/93(110) - 161/113(132)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 23 (15 - 23)mmHg
   Total In:
                                                                  2,722 mL
                                                                    805 mL
   PO:
   TF:
                                                                     54 mL
                                                                     50 mL
   IVF:
                                                                  1,928 mL
                                                                    651 mL
   Blood products:
                                                                    541 mL
                                                                      9 mL
   Total out:
                                                                  1,610 mL
                                                                  1,115 mL
   Urine:
                                                                  1,610 mL
                                                                    825 mL
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 158
   PIP: 34 cmH2O
   Plateau: 34 cmH2O
   SpO2: 99%
   ABG: 7.40/34/103/20/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Unresponsive, intubated
   Eyes / Conjunctiva: PERRL, sluggish to light
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no r/g/m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   rhonchorous : anteriorly)
   Abdominal: Soft, Distended , hypoactive BS
   Extremities: Edematous
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   38 K/uL
   8.9 g/dL
   132 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   142 mEq/L
   23.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-20**]  03:19 AM
                             [**2135-8-20**]  03:41 AM
                             [**2135-8-20**]  05:43 AM
                             [**2135-8-20**]  02:28 PM
                             [**2135-8-21**]  05:08 AM
                             [**2135-8-21**]  05:09 AM
                             [**2135-8-21**]  01:53 PM
                             [**2135-8-21**]  02:29 PM
                             [**2135-8-22**]  04:35 AM
                             [**2135-8-22**]  04:47 AM
   WBC
   0.1
   0.1
   Hct
   24.6
   26.1
   25.0
   23.9
   Plt
   58
   16
   43
   38
   Cr
   1.1
   1.1
   1.2
   TCO2
   22
   22
   20
   22
   Glucose
   180
   166
   132
   Other labs: PT / PTT / INR:19.0/32.6/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:44/93, Alk Phos / T Bili:253/4.5,
   Amylase / Lipase:97/113, Fibrinogen:862 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:2237 IU/L, Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   ABG 7.40/34/103
   Assessment and Plan
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with cx positive for VRE. Lines were changed [**8-17**]
   and patient was started on daptomycin, which was switched to linezolid.
   Pt also started on Neupogen ([**8-19**]). Sureveillance blood cultures
   without growth since [**8-20**]. CVL pulled yesterday, now with PIVx2 in
   place.  Blood cultures demonstrate VRE sensitive to daptomycin.
   - Continue linezolid as patient continued to have high grade bacteremia
   in setting of dapto therapy.
   - Continue empiric cefepime, acyclovir, caspofungin
   - Follow ANC
   - Surveillance cultures [**Hospital1 **] and f/u cx and sensitivities.
   - follow fever curve and wbc count
   - f/u ID recs
   - TEE today
   - If able to maintain PIV, plan for line holiday in order to help clear
   bacteremia.
   .
   # Neutropenic fever: Two known sources at this point with VRE and
   C.diff. Pt currently treated with neupogen  Pt has been afebrile
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - CMV VL pending
   - cont empiric cefepime and caspo per onc
   - continue acyclovir prophylaxis
   - demerol for rigor
   - f/u oncology and ID recs
   - f/u culture data
   .
   # PEA Arrest: Likely secondary to decreased preload due to positional
   change, intrasvascular volume depletion, and tamponade physiology.
   - CVP not reliable indicator of volume status --> likely [**12-18**] exterior
   compression of heart from effusions.
   .
   # Respiratory failure: Continue with AC and albuterol MDI. Last RSBI
   147.  Overall volume status appears to be contributing to respiratory
   failure.  LOS fluid balance is 7.6 liters positive.
   - Wean sedation
   - Keep net balance even to negative, patient likely fluid overloaded.
   - Use lasix IV or gtt if unable to keep even to negative.
   - Consider thoracentesis
   .
   # Pancytopenia: Likely secondary to recent chemotherapy.  Patient
   received 1u PRBC and 1u plateltes yesterday.
   - Recheck CBC Q12H
   - Transfuse for hct <21 (if no signs of end organ dysfunction) or plt
   <10 (if no signs of bleeding).
   .
   # Hyperbilirubinemia: Tbili continues to increase this AM to 4.5 from
   4, predominantly direct.  Transaminases appear to be leveling of with
   AST decrased this AM to 93.  LDH continues to rise to 2237 from 1232,
   and lipase trending down this AM to 113 from 441.  Likely represent
   hepatobiliary process, and patient has had cholecystectomy in past.
   [**Month (only) 11**] also represent acute pancreatitis.  Unlikely to be hemolysis as
   hyperbili is mostly conjugated.
   - RUQ ultrasound today
   - Trend LFTs and Tbili.
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen was >800 yesterday.
   - monitor coags
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   # FEN: TF restarted yesterday but held this AM secondary to increased
   residuals.   Plan to restart today, consider starting promotility [**Doctor Last Name 23**]
   (metoclopramide or erythryomycin) and consider post-pyloric tube.
   Repletes lytes PRN
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: PIV, arterial line, ETT,
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-8-19**] 08:14 PM
   18 Gauge - [**2135-8-21**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-08-23 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Midline placed
   - [** 1163**] not performed secondary to instability
   - Platelets 14, received plt x1.
   - RUQ U/S final read pending
   - TF stopped because of continued residuals (120)
   - Pt had episode of "shaking" and hyertension for several minutes while
   nurse [**First Name (Titles) **] [**Last Name (Titles) 1164**].  Event resolved and no further episodes noted.
 ULTRASOUND - At [**2135-8-22**] 12:05 PM
 MIDLINE - START [**2135-8-22**] 12:15 PM
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2135-8-21**] 04:00 PM
   Linezolid - [**2135-8-22**] 12:05 PM
   Caspofungin - [**2135-8-22**] 10:00 PM
   Cefipime - [**2135-8-23**] 04:00 AM
   Vancomycin - [**2135-8-23**] 06:08 AM
   Acyclovir - [**2135-8-23**] 06:20 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-22**] 08:12 AM
   Midazolam (Versed) - [**2135-8-23**] 02:27 AM
   Fentanyl - [**2135-8-23**] 02:27 AM
   Hydromorphone (Dilaudid) - [**2135-8-23**] 02:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 116 (110 - 121) bpm
   BP: 154/105(123) {136/89(106) - 159/108(127)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,662 mL
                                                                    769 mL
   PO:
           TF:
                                                                     93 mL
   IVF:
                                                                  2,225 mL
                                                                    499 mL
   Blood products:
                                                                      9 mL
                                                                    240 mL
   Total out:
                                                                  2,745 mL
                                                                    560 mL
   Urine:
                                                                  2,235 mL
                                                                    560 mL
   NG:
                                                                    510 mL
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 203
   PIP: 36 cmH2O
   Plateau: 34 cmH2O
   Compliance: 20.8 cmH2O/mL
   SpO2: 98%
   ABG: ///21/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: leftward deviaiton of her eyes, minimally recative
   to light
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Distended, Obese, hypoactive BS, mildly distended, firm
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: No spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   23 K/uL
   10.2 g/dL
   122 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   35 mg/dL
   115 mEq/L
   143 mEq/L
   27.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-20**]  02:28 PM
                             [**2135-8-21**]  05:08 AM
                             [**2135-8-21**]  05:09 AM
                             [**2135-8-21**]  01:53 PM
                             [**2135-8-21**]  02:29 PM
                             [**2135-8-22**]  04:35 AM
                             [**2135-8-22**]  04:47 AM
                             [**2135-8-22**]  05:22 PM
                             [**2135-8-23**]  12:35 AM
                             [**2135-8-23**]  03:28 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   26.1
   25.0
   23.9
   28.1
   28.1
   27.7
   Plt
   16
   43
   38
   21
   14
   56
   23
   Cr
   1.1
   1.2
   1.2
   TCO2
   20
   22
   Glucose
   166
   132
   122
   Other labs: PT / PTT / INR:19.2/32.8/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:44/93, Alk Phos / T Bili:253/4.5,
   Amylase / Lipase:97/113, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.5 mmol/L, LDH:2237 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with cx positive for VRE. CVL pulled on [**8-21**],
   midline placed yesterday.  Pt currently being treated with linezolid
   ([**8-20**]). Sureveillance BCx and CVL tip are no growth since the [**8-20**]. Pt
   also started on Neupogen ([**8-19**]  Blood cultures and catheter tips have
   demonstrate VRE sensitive to daptomycin.
   - Continue linezolid as patient continued to have high grade bacteremia
   in setting of dapto therapy.
   - Continue empiric cefepime, acyclovir, caspofungin
   - Follow ANC (WBC <0.1)
   - Surveillance cultures [**Hospital1 **] and f/u cx and sensitivities.
   - follow fever curve and wbc count
   - f/u ID recs
   - Pt currently too unstable for [**Last Name (LF) 1163**], [**First Name3 (LF) 116**] obtain in the future
   - If able to maintain midline, plan for line holiday in order to help
   clear bacteremia.
   .
   #. Gaze Deviation: Pt with new onset leftward gaze deviation and
   episode of "shaking" overnight.  Concerning for septi emboli vs stroke.
   - will obtain head CT
   .
   # Neutropenic fever: Two known sources at this point with VRE and
   C.diff. Pt currently treated with neupogen  Pt has been afebrile
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - CMV VL pending
   - cont empiric cefepime and caspo per onc
   - continue acyclovir prophylaxis
   - demerol for rigor
   - f/u oncology and ID recs
   - f/u culture data
   .
   # PEA Arrest: Likely secondary to decreased preload due to positional
   change, intrasvascular volume depletion, and tamponade physiology.
   - CVP not reliable indicator of volume status --> likely [**12-18**] exterior
   compression of heart from effusions.
   .
   # Respiratory failure: Continue with AC and albuterol MDI. Last RSBI
   203.  Overall volume status appears to be contributing to respiratory
   failure.  LOS fluid balance is 7.6 liters positive.  Has been -76cc
   balance over 24hrs, but postive since midnight.
   - Wean sedation
   - Keep net balance even to negative, patient likely fluid overloaded.
   - Use lasix IV or gtt if unable to keep even to negative and check PM
   lytes
   - thorocentesis??
   .
   # Pancytopenia: Likely secondary to recent chemotherapy.  Patient
   received 1u plateltes yesterday.
   - Recheck CBC Q12H
   - Transfuse for hct <21 (if no signs of end organ dysfunction) or plt
   <30 (if no signs of bleeding).
   .
   # Hyperbilirubinemia: RUQ did not show any CBD dilation.  Cont to trend
   LFT and TBili.  No new labs this AM.  Tbili continues to increase this
   AM to 4.5 from 4, predominantly direct.  Transaminases appear to be
   leveling of with AST decrased this AM to 93.  LDH continues to rise to
   2237 from 1232, and lipase trending down this AM to 113 from 441.
   Likely represent hepatobiliary process, and patient has had
   cholecystectomy in past.   Unlikely to be hemolysis as hyperbili is
   mostly conjugated.
   - Trend LFTs and Tbili.
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen was >800 yesterday.
   - monitor coags
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   # FEN: TF held this secondary to increased residuals.   Plan to restart
   today, consider starting promotility [**Doctor Last Name 23**] (metoclopramide or
   lactuolosen) and consider post-pyloric tube.   Repletes lytes PRN
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: PIV, arterial line, ETT,
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2135-8-19**] 08:14 PM
   18 Gauge - [**2135-8-21**] 09:30 PM
   Midline - [**2135-8-22**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-08-24 07:01:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - ID recs - TEE at some point to determine length of antibiotic
   treatment. In [**Last Name (un) 1189**] sensitivities may not fully represent in [**Last Name (un) 1190**]
   situation - so keep on linezolid for now, and may switch to dapto after
   2 weeks of therapy with linezolid.
   - Lateral gaze resolved with holding sedation
   - Hypertensive, given labetolol and hydral x1,  restarted proprofol -
   will hold off sedation in morning, reevaluate gaze - if still
   persistent, consider MRI to assess for septic emboli
   - Lasix drip with good diuresis; creatinine bump from 1.2 > 1.3
   - KUB - Final read pending
   - CT head with contrast - 1. No evidence of acute intracranial
   abnormalities. 2. Fluid throughout the paranasal sinuses. While this
   may be related to the presence of the nasogastric and endotracheal
   tubes, acute sinusitis cannot be excluded.
   - Given 3 units platelets.
   - Amylase/lipase WNL.
   - No cardiology recs.
   - CMV viral load - not detected
   - EKG - No significant change from [**2135-8-19**].
 ARTERIAL LINE - START [**2135-8-23**] 08:00 PM
 ARTERIAL LINE - STOP [**2135-8-23**] 08:14 PM
 EKG - At [**2135-8-23**] 09:30 PM
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2135-8-21**] 04:00 PM
   Vancomycin - [**2135-8-23**] 12:00 PM
   Caspofungin - [**2135-8-23**] 10:30 PM
   Linezolid - [**2135-8-24**] 12:00 AM
   Cefipime - [**2135-8-24**] 04:31 AM
   Acyclovir - [**2135-8-24**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-23**] 07:55 AM
   Fentanyl - [**2135-8-23**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2135-8-23**] 09:00 AM
   Hydralazine - [**2135-8-23**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 116 (111 - 128) bpm
   BP: 148/94(113) {128/82(98) - 172/119(140)} mmHg
   RR: 20 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,853 mL
                                                                    964 mL
   PO:
           TF:
   IVF:
                                                                  1,879 mL
                                                                    648 mL
   Blood products:
                                                                    794 mL
                                                                    256 mL
   Total out:
                                                                  2,970 mL
                                                                    485 mL
   Urine:
                                                                  2,400 mL
                                                                    485 mL
   NG:
                                                                    570 mL
   Stool:
   Drains:
   Balance:
                                                                   -117 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: left lateral gaze deviation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   b/k)
   Abdominal: Distended, Obese, hypoactive BS, firm, distended
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   54 K/uL
   9.2 g/dL
   131 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   36 mg/dL
   115 mEq/L
   147 mEq/L
   25.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-21**]  02:29 PM
                             [**2135-8-22**]  04:35 AM
                             [**2135-8-22**]  04:47 AM
                             [**2135-8-22**]  05:22 PM
                             [**2135-8-23**]  12:35 AM
                             [**2135-8-23**]  03:28 AM
                             [**2135-8-23**]  05:00 PM
                             [**2135-8-23**]  07:39 PM
                             [**2135-8-24**]  12:30 AM
                             [**2135-8-24**]  03:59 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   23.9
   28.1
   28.1
   27.7
   25.9
   25.0
   Plt
   38
   21
   14
   56
   23
   37
   56
   33
   54
   Cr
   1.2
   1.2
   1.3
   1.3
   TCO2
   22
   Glucose
   132
   122
   128
   131
   Other labs: PT / PTT / INR:19.2/32.8/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:46/89, Alk Phos / T Bili:246/5.4,
   Amylase / Lipase:50/40, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.5 mmol/L, LDH:891 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with cx positive for VRE. CVL pulled on [**8-21**],
   midline placed ([**8-22**]).  Pt currently being treated with linezolid
   ([**8-20**]). Sureveillance BCx and CVL tip are no growth since the [**8-20**]. Pt
   also started on Neupogen ([**8-19**])  Blood cultures and catheter tips have
   demonstrate VRE sensitive to daptomycin.  ID recommends continuing
   2-weeks of linezolid and then re-visit issue as to whether to get TEE
   and re-evaluate and help determine if you can d/c linezolid at that
   point.
   - Continue linezolid for 2-weeks from last negative culture ([**9-3**])
   - Continue empiric cefepime and caspofungin
   - Follow ANC (WBC <0.1)
   - f/u cx and sensitivities
   - follow fever curve and wbc count
   - f/u ID recs
   - Plan for TEE in 2 weeks
   - If able to maintain midline, plan for continued line holiday.
   .
   #. Gaze Deviation: Pt with new onset leftward gaze deviation, that
   resolved with holding sedation.  However, gaze deviation persists this
   AM.  Stat head CT obtained yesterday that did not show any acute
   pathology.  Gaze deviation could be [**12-18**] sedation, but pt at high risk
   for septic emboli.
   - t/c MRI continues to have neurologic findings despite weaning
   sedation
   .
   # Neutropenic fever: Two known sources at this point with VRE and
   C.diff. Pt currently treated with neupogen  Pt has been afebrile
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - CMV VL negative
   - cont empiric cefepime and caspo
   - continue acyclovir prophylaxis
   - f/u oncology and ID recs
   - f/u culture data
   .
   # Respiratory failure: Continue with AC and albuterol MDI. Last RSBI
   203.  Overall volume status appears to be contributing to respiratory
   failure.  LOS fluid balance is >7 liters positive.  Has been -117cc
   balance over 24hrs, but postive since midnight.  Cr minimally increased
   to 1.3 from yesterday.
   - Keep net balance negative as long as Cr stable goal is -1.5L ,
   patient likely fluid overloaded.
   - Cont lasix gtt  and check PM lytes
   .
   # Pancytopenia: Likely secondary to recent chemotherapy.  Patient
   received 3u plateltes yesterday.
   - Recheck CBC Q12H
   - Transfuse for hct <25  or plt <30 (if no signs of bleeding) per BMT.
   .
   # Hyperbilirubinemia: RUQ did not show any CBD dilation.  Cont to trend
   LFT and TBili.  Cont elevated Tbili that is mainly Direct.   Likely
   represent hepatobiliary process, and patient has had cholecystectomy in
   past.   Unlikely to be hemolysis as hyperbili is mostly conjugated.
   Pancreatic enzymes normal
   -          Trend LFTs and Tbili.
   -          Check pancreatic enzymes
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   -          monitor coags
   -          will give vit K
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable.
   - f/u onc recs
   .
   # FEN: TF held this secondary to increased residuals. KUB showed NG in
   proper position.   Started promotility [**Doctor Last Name 23**] (metoclopramide and
   lactuolose). t/c consider post-pyloric tube, will discuss with hem/onc.
     Pt has not had BM since [**8-19**]. Repletes lytes PRN.
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: PIV, arterial line, ETT,  midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2135-8-21**] 09:30 PM
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Arterial Line - [**2135-8-23**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-08-25 07:35:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
 ARTERIAL LINE - STOP [**2135-8-24**] 05:00 PM
 URINE CULTURE - At [**2135-8-25**] 04:30 AM
   - blood cx from [**8-20**] and [**8-21**] positive (a-line)
   - a-line was d/c and sent for culture
   - pt had placment of the post-pyloric tube, pt still had elevated
   residuals and no bowel movements
   - pt midline clotted --> tPa and IV was unclotted
   - lasix drip --> pt essentially even, but has been putting out
   100-200cc/hr. Pt was essentially even, but with good urine output.
   Foley was replaced yesterday because of poor return and urine sent for
   culture.
   - hypernatermic --> free water deficit of 3L, gave D5W at 60cc/hr
   - BMT: plan to transplant when pt extubated, out of ICU and has some
   functional ability.
   - KUB performed for residuals, no obvious distented loops of bowel or
   signs of ileus
   - ABG: 7.41/34/77/22
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   [**Month/Day (1) 1221**] - [**2135-8-23**] 10:30 PM
   Linezolid - [**2135-8-25**] 12:24 AM
   Vancomycin - [**2135-8-25**] 05:58 AM
   Cefipime - [**2135-8-25**] 06:00 AM
   Acyclovir - [**2135-8-25**] 06:43 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2135-8-24**] 02:27 PM
   Hydromorphone (Dilaudid) - [**2135-8-24**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2135-8-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 118 (81 - 123) bpm
   BP: 145/92(103) {130/77(89) - 192/155(126)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,676 mL
                                                                  1,139 mL
   PO:
             TF:
   IVF:
                                                                  1,960 mL
                                                                  1,109 mL
   Blood products:
                                                                    256 mL
   Total out:
                                                                  2,505 mL
                                                                  1,175 mL
   Urine:
                                                                  2,305 mL
                                                                  1,175 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    171 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   Compliance: 14.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/31/84.[**Numeric Identifier 1132**]/20/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, anasarca
   Eyes / Conjunctiva: minimally reactive to light
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Distended, firm, hypoactive BS,
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   21 K/uL
   9.6 g/dL
   147 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.4 mEq/L
   39 mg/dL
   117 mEq/L
   148 mEq/L
   25.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-23**]  03:28 AM
                             [**2135-8-23**]  05:00 PM
                             [**2135-8-23**]  07:39 PM
                             [**2135-8-24**]  12:30 AM
                             [**2135-8-24**]  03:59 AM
                             [**2135-8-24**]  12:22 PM
                             [**2135-8-24**]  02:37 PM
                             [**2135-8-24**]  11:20 PM
                             [**2135-8-25**]  02:34 AM
                             [**2135-8-25**]  03:09 AM
   WBC
   0.1
   0.1
   Hct
   27.7
   25.9
   25.0
   26.1
   25.9
   Plt
   23
   37
   56
   33
   54
   25
   21
   Cr
   1.2
   1.3
   1.3
   1.3
   1.4
   TCO2
   21
   22
   22
   Glucose
   122
   128
   131
   141
   147
   Other labs: PT / PTT / INR:17.1/30.1/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:57/109, Alk Phos / T Bili:264/7.1,
   Amylase / Lipase:50/46, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:891 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Neutropenic with cx positive for VRE. CVL pulled on [**8-21**],
   midline placed ([**8-22**]).  Pt currently being treated with linezolid
   ([**8-20**]). Cx from [**8-20**] and [**8-21**] from a-line are positive today.  The
   other BCx are no growth since the [**8-20**]. Pt also started on Neupogen
   ([**8-19**]) without improvement in counts.  Blood cultures and catheter tips
   have demonstrate VRE sensitive to daptomycin and linezolid.  ID
   recommends continuing 2-weeks of linezolid and then re-visit issue as
   to whether to get TEE and re-evaluate and help determine if you can d/c
   linezolid at that point.  However, pt continues to have positive
   cultures despite therapy and line removal.
   - Continue linezolid for 2-weeks from last negative culture ([**9-4**])
   - Continue empiric cefepime and [**Last Name (LF) **], [**First Name3 (LF) 116**] discuss with ID again
   when we can discontinue
   - Follow ANC (WBC <0.1)
   - f/u cx and sensitivities
   - send surv cx
   - follow fever curve and wbc count
   - f/u ID recs
   - Re-evaluate whether TEE is ness in 2 weeks
   - If able to maintain midline, plan for continued line holiday.
   .
   # Respiratory failure: Continue with AC and albuterol MDI.  Overall
   volume status appears to be contributing to respiratory failure.  Pt
   was started on lasix drip, currently at 7mg/hr, and had UOP of
   100-200cc/hr throughout the day.  However, due to large amount of
   fluids given with antibiotics and correcting free water deficit the
   patient has been essentially even.  Cr minimally increased to 1.4 from
   yesterday.
   - cont lasix ggt,
   - Keep net balance -1L as Cr stable  patient likely fluid overloaded.
   - Check PM lytes
   - t/d with ID whether we can stop some antibiotics which is
   contributing to overall fluid input
   .
   # Hyperbilirubinemia: RUQ did not show any CBD dilation.  LFT and TBili
   continue to rise.  Cont elevated Tbili that is mainly Direct.   Likely
   represent hepatobiliary process, and patient has had cholecystectomy in
   past.  Possible sludging vs sepsis vs lymphoma.  Pancreatic enzymes
   normal.
   - CT-abdomin to evaluate for hepatobiliary process and for eval of
   abdominal distension and increased residuals.
   -          Trend LFTs and Tbili.
   -          Check pancreatic enzymes
   .
   # FEN: Pt had post-pyloric OG tube placed by IR yesterday.  Nursing
   reports pt still has residuals.  KUB was performed, no obvious signs
   obstruction or dilated loops of bowel. Pt is on promotility [**Doctor Last Name 23**]
   (metoclopramide and lactuolose) and bowel regimen.  However, pt still
   has not had a BM in 5 days.  Can not perform rectal suppositories given
   pts neutropenia.
   - CT-abdomin for eval
 will re-evaluate pending imaging
   - Increased lactulose to QID, cont metoclopramide, senna, docusate
   - Repletes lytes PRN.
   .
   # Neutropenic fever: Pt has been afebrile.  Two known sources at this
   point with VRE and C.diff. Pt currently treated with neupogen  Pt has
   been afebrile
   - continue linezolid and PO vanco for VRE and C. diff
   - Continue neupogen.
   - cont empiric cefepime and caspo
   - continue acyclovir prophylaxis
   - f/u oncology and ID recs
   - f/u culture data
   .
   # Pancytopenia: Likely secondary to recent chemotherapy.  Patient
   received 3u plateltes yesterday.
   - Recheck CBC Q12H
   - Transfuse for hct <25  or plt <10 (if no signs of bleeding), but will
   clarify with BMT.
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   -  monitor coags
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: PIV,  ETT,  midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-26 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-8-25**] 11:30 AM
   - CT abd: No evidence of hepatobiliary pathology or obstruction.
   - PM chemistries, remains hypernatremic, creatinine up to 1.7 from 1.4.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-8-25**] 10:00 PM
   Linezolid - [**2135-8-26**] 12:00 AM
   Cefipime - [**2135-8-26**] 04:00 AM
   Acyclovir - [**2135-8-26**] 06:00 AM
   Vancomycin - [**2135-8-26**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-25**] 08:12 AM
   Hydromorphone (Dilaudid) - [**2135-8-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 120 (110 - 132) bpm
   BP: 141/93(103) {128/68(85) - 164/122(127)} mmHg
   RR: 37 (10 - 37) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,804 mL
                                                                  1,500 mL
   PO:
             TF:
                                                                    142 mL
                                                                    172 mL
   IVF:
                                                                  3,242 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  1,515 mL
   Urine:
                                                                  5,370 mL
                                                                  1,515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 93%
   ABG: 7.44/29/62/21/-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Sedated and unresponsive, anasarca
   Eyes / Conjunctiva Pupils mid and reactive bilaterally.
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Rhonchorous throughout.
   Abdominal: Distended, firm, hypoactive BS,
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Sedated, nonresponsive.
   Labs / Radiology
   12 K/uL
   9.2 g/dL
   140 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   40 mg/dL
   116 mEq/L
   148 mEq/L
   27.0 %
   0.0 K/uL
        [image002.jpg]
                             [**2135-8-24**]  12:30 AM
                             [**2135-8-24**]  03:59 AM
                             [**2135-8-24**]  12:22 PM
                             [**2135-8-24**]  02:37 PM
                             [**2135-8-24**]  11:20 PM
                             [**2135-8-25**]  02:34 AM
                             [**2135-8-25**]  03:09 AM
                             [**2135-8-25**]  05:13 PM
                            [**2135-8-26**]  05:25 AM
                            [**2135-8-26**]  06:59 AM
   WBC
   0.1
   0.1
   0.0
   Hct
   25.9
   25.0
   26.1
   25.9
   27.0
   Plt
   33
   54
   25
   21
   12
   Cr
   1.3
   1.3
   1.4
   1.7
   TCO2
   21
   22
   22
   20
   Glucose
   131
   141
   147
   140
   Other labs: PT / PTT / INR:17.1/30.1/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:57/109, Alk Phos / T Bili:264/7.1,
   Amylase / Lipase:49/46, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1061 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Imaging: CT abd/pelvis:
   1. No evidence of bowel obstruction or hepatobiliary pathology.
   2. No significant change in the appearance of the pancreas, though
   enhancement cannot be assessed on this early phase study.
   3. Diffuse colonic distention, possibly colonic ileus related to
   pancreatitis. Small bowel loops are nondilated.
   4. Anasarca.
   Microbiology: Blood: [**8-22**]- present --> NGTD
   Assessment and Plan
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Blood cultures
   now positive for VRE from [**8-21**]. Arterial line and CVL have been removed
   and midline in place.
   - Continue linezolid for 2 weeks after last negative culture
   - Discuss with ID, but would be ideal from volume status standpoint to
   discontinue empiric cefepime and caspofungin therapy.
   - Surveillance cultures daily
   - Follow-up culture and sensitivities.
   - Follow fever curve and WBC
   - Follow-up with ID
   .
   # Respiratory failure: Volume status contributing to continued vent
   depedence.  Patient was net -566 cc yesterday, although continues to be
   +7 liters LOS.  Renal function appears to be worsening and oxygen
   requirement is increasing.
   - Continue lasix gtt, goal balance neg 1 liter. Switch IV meds to free
   water if possible given hypernatremia.
   - PM chemistries
   .
   # Hyperbilirubinemia: CT abdomen/pelvis yesterday with signs of
   hepatobiliary pathology causing elevated Tbili.  Uncertain etiology at
   this point. Patient not on significant meds that would lead to biliary
   cholestasis, although biliary cholestasis unlikely to lead to this
   level of hyperbilirubinemia.
   - Trend LFTS, bilirubin
   .
   # Hypernatremia: Na this AM 146. Patient receiving free water boluses
   through OG.
   - Will attempt to switch IV meds to D5 if possible to reduce free water
   through TF and overall volume intake.
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with multiple watery bowel
   movements overnight, unclear if this is leakage around obstruction.
   - Continue TF
   - Continue reglan, lactulose, senokot, colace
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding.
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-26**] 06:36 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-08-27 07:36:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - ID recs: Do not discontinue caspo or cefepime
   - Many med administration formulations changed from normal saline to
   D5W (KCl, caspo, cefipime, acyclovir, linezolid)
   - Creatinine rising, but decision made to continue diuresis - lasix
   drip increased to 12/hour; at 2230, fluid balance -367 ml; lasix drip
   increased to 16/hour
   - Tube feed formulation changed based on nutrition recs
   - Given 1 unit of platelets for platelet count 11 at 3:00pm (11>36)
 EKG - At [**2135-8-27**] 06:45 AM
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-8-26**] 12:00 PM
   Caspofungin - [**2135-8-26**] 10:00 PM
   Linezolid - [**2135-8-27**] 12:00 AM
   Cefipime - [**2135-8-27**] 04:00 AM
   Acyclovir - [**2135-8-27**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2135-8-27**] 05:15 AM
   Lorazepam (Ativan) - [**2135-8-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 136 (120 - 136) bpm
   BP: 138/90(98) {127/71(84) - 163/111(121)} mmHg
   RR: 32 (17 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,944 mL
                                                                  1,555 mL
   PO:
             TF:
                                                                    608 mL
                                                                    142 mL
   IVF:
                                                                  2,350 mL
                                                                    793 mL
   Blood products:
                                                                    196 mL
   Total out:
                                                                  5,065 mL
                                                                  1,835 mL
   Urine:
                                                                  5,065 mL
                                                                  1,835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -121 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL, minimally reactive light
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended, hypoactive bowel sounds, firm
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   16 K/uL
   8.8 g/dL
   207 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.9 mEq/L
   46 mg/dL
   116 mEq/L
   147 mEq/L
   24.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-24**]  11:20 PM
                             [**2135-8-25**]  02:34 AM
                             [**2135-8-25**]  03:09 AM
                             [**2135-8-25**]  05:13 PM
                            [**2135-8-26**]  05:25 AM
                            [**2135-8-26**]  06:29 AM
                            [**2135-8-26**]  06:59 AM
                            [**2135-8-26**]  03:26 PM
                            [**2135-8-26**]  08:22 PM
                            [**2135-8-27**]  03:54 AM
   WBC
   0.0
   0.1
   Hct
   25.9
   27.0
   25.5
   24.0
   Plt
   21
   12
   11
   36
   16
   Cr
   1.4
   1.7
   1.8
   1.9
   2.1
   TCO2
   22
   22
   20
   Glucose
   147
   140
   169
   245
   207
   Other labs: PT / PTT / INR:17.1/30.1/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:105/179, Alk Phos / T Bili:389/6.0,
   Amylase / Lipase:75/199, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1346 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Blood cultures
   now positive for VRE from [**8-21**]. Arterial line and CVL have been removed
   and midline in place.   Pt is tachy this morning and temp was 100.2
   this AM.  Pt is deteriorating and may represent early sepsis.
   - Continue linezolid for 2 weeks after last negative culture
   - Discussed with ID, will change empiric cefepime to meropenem and
   start flagyl  IV due to deteriorating clinical situation.
   - Will cont caspofungin therapy.
   - Surveillance cultures daily
   - Follow-up culture and sensitivities.
   - Follow fever curve and WBC
   - Follow-up with ID
   - will send sputum, urine, stool cx
   .
   # Respiratory failure: Volume status contributing to continued vent
   depedence.  Patient was net -121 cc yesterday, although continues to be
   +7 liters LOS.  Renal function appears to be worsening with increase in
   creatinine to 2.1 this AM and oxygen requirement is increasing.
   - will hold lasix gtt and give 1U pRBC, then will reassess volume
   status
   - Goal balance is neg 1 liter, but will attempt to cont to diurese
   after 1U pRBC.
   - PM chemistries
   .
   #Tachycardia: Pt has been tachy into the 130-140 this AM.  EKG shows
   sinus tach.  Possible early sepsis, but pt is afebrile and on broad
   spectrum abx. Pt with low platelets and INR was 1.5 previous, pt sats
   >95%, unlikely PE.  Hemodynamically stable.  Pt has been net positve
   since admission unlikely hypovolemic. Pt anemic with Hct 24.  Likely
   intravascularly depleted.
   - will hold lasix ggt, until after blood
   - will transfuse 1U pRBC
   - will adjust antibiotics to meropenem and flagyl
   .
   # Hyperbilirubinemia: CT abdomen/pelvis yesterday with signs of
   hepatobiliary pathology causing elevated Tbili.  Uncertain etiology at
   this point. Patient not on significant meds that would lead to biliary
   cholestasis, although biliary cholestasis unlikely to lead to this
   level of hyperbilirubinemia.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved.  Elevated amylase this AM and increasing lipase (wnl,
   however).  CT abd did not show change in pancreas from previous.  Will
   d/c propofol, monitor pancreatic enzymes check PM, hold TF for now.
   .
   # Hypernatremia: Na this AM 147. Patient receiving free water boluses
   through OG.
   - Switched IV meds to D5 if possible to reduce free water through TF
   and overall volume intake.
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with multiple watery bowel
   movements overnight, unclear if this is leakage around obstruction.
   C.diff negative x2.
   - Hold TF [**12-18**] to increased enzymes
   - Continue reglan, lactulose, senokot, colace
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline, PIV
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-26**] 04:27 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-27 11:17:00 Physician Attending Progress Note
24 Hour Events:
   She continues to have gradual clinical decline.  Febrile this morning,
   also baseline tachycardia has worsened.  She remains hemodynamically
   stable.  Unable to diurese significantly and Cr now rising.
   Allergies:
   Penicillins: itching;
   Aspirin: Unknown;
   Amoxicillin: Diarrhea;
   Omeprazole: Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-8-26**] 12:00 PM
   Caspofungin - [**2135-8-26**] 10:00 PM
   Linezolid - [**2135-8-27**] 12:00 AM
   Cefipime - [**2135-8-27**] 04:00 AM
   Acyclovir - [**2135-8-27**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2135-8-27**] 05:15 AM
   Lorazepam (Ativan) - [**2135-8-27**] 06:00 AM
   Flowsheet Data as of  [**2135-8-27**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 135 (122 - 138) bpm
   BP: 134/84(96) {126/71(84) - 151/111(118)} mmHg
   RR: 21 (10 - 41) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,944 mL
                                                                  2,090 mL
   PO:
             TF:
                                                                    608 mL
                                                                    215 mL
   IVF:
                                                                  2,350 mL
                                                                    945 mL
   Blood products:
                                                                    196 mL
   Total out:
                                                                  5,065 mL
                                                                  2,160 mL
   Urine:
                                                                  5,065 mL
                                                                  2,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -121 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   Ve: 9 L/min
   Physical Examination
   Gen:  intubated/sedated
   Chest: diminshed bilateral
   CV:  tachy, regular; no murmur
   Abd: mildly distended, non-tense
   Ext:  anasarca
   Labs / Radiology
   8.8 g/dL
   16 K/uL
   207 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.9 mEq/L
   46 mg/dL
   116 mEq/L
   147 mEq/L
   24.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2135-8-24**]  11:20 PM
                             [**2135-8-25**]  02:34 AM
                             [**2135-8-25**]  03:09 AM
                             [**2135-8-25**]  05:13 PM
                            [**2135-8-26**]  05:25 AM
                            [**2135-8-26**]  06:29 AM
                            [**2135-8-26**]  06:59 AM
                            [**2135-8-26**]  03:26 PM
                            [**2135-8-26**]  08:22 PM
                            [**2135-8-27**]  03:54 AM
   WBC
   0.0
   0.1
   Hct
   25.9
   27.0
   25.5
   24.0
   Plt
   21
   12
   11
   36
   16
   Cr
   1.4
   1.7
   1.8
   1.9
   2.1
   TCO2
   22
   22
   20
   Glucose
   147
   140
   169
   245
   207
   Other labs: PT / PTT / INR:17.1/30.1/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:105/179, Alk Phos / T Bili:389/6.0,
   Amylase / Lipase:75/199, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1346 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   38F with prolonged neutropenia and general clinical decline over past
   week in regards to respiratory failure and persistent VRE bacteremia.
   1) ID: VRE Bacteremia, felt due to line infection initially, last
   positive cultures were from [**8-21**].  She is hemodynamically stable;
   however febrile this morning and tachycardia is worsening.  Will
   discuss with ID regarding altering coverage
 likely change from
   cefepime in case of gram negative and possible expand to include
   anaerobic coverage.
   - Continues on linezolid for her VRE.
   - For her prolonged neutropenia, she remains on caspo/cefepime; as well
   as prophylactic acyclovir
   - check cultures today
   2) Respiratory Failure: hypoxemic related to volume overload now
   - Would aim for diuresis, though unable to keep negative because of
   3) Renal:  Cr is rising, though she has not been significantly TBB
   negative.  Will hold on lasix for now with rising Cr/tachycardia could
   be related to intravascular volume depletion.
   - D/c lasix gtt for now, but if appears to be TBB+ this afternoon and
   Cr stable, will consider dose of IV lasix +- diuril this afternoon.
   - f/u lytes today
   4) Heme:  HCT slightly lower than baseline
   - will transfuse 1 unit PRBC today
   -remains profoundly neutropenic
   5) Neuro:  she is currently on propofol.  Given rising lipase, will d/c
   propofol and change to fentanyl/versed.
   - assess mental status today with awakening.
   6) GI:  Slight rise in lipase
   - Will hold enteral feeds for today and recheck tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-27**] 07:15 AM 20 mL/hour
 hold today for
   elevated lipase
   Glycemic Control:  Insulin sliding scale; titrate lantus
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: no heparin with thrombocytopenia, boots
   Stress ulcer:  PPI
   VAP: peridex, HOB, mouthcare
   Code status: Full code
   Disposition :  Critically ill and remains intubated today

2135-08-28 06:50:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - propofol was d/c and pt started on fentanyl and midazolam.
   - TF stops [**12-18**] increased pancreatic enzymes
   - spoke with ID, OK to change ceftaz to meropenem and added flagyl
   - pt transfused 1U pRBC and 1U plts
   - FeUrea= 56% indicating ATN
   - sent urine, sputum, blood, stool cx
   - pt was hypertensive into the 180-190.  She was given 10mg hydralzine
   with little effect.  Appeared dysynchronous on the vent.  Increased her
   sedation, went up on RR (30) & Vt(500). Pt appeared more comfortable
   and pressures decreased.
 BLOOD CULTURED - At [**2135-8-27**] 11:45 AM
 URINE CULTURE - At [**2135-8-27**] 11:45 AM
 SPUTUM CULTURE - At [**2135-8-27**] 12:30 PM
 STOOL CULTURE - At [**2135-8-27**] 12:30 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-8-27**] 04:00 AM
   Meropenem - [**2135-8-27**] 07:39 PM
   Caspofungin - [**2135-8-27**] 10:00 PM
   Linezolid - [**2135-8-28**] 12:00 AM
   Metronidazole - [**2135-8-28**] 03:54 AM
   Acyclovir - [**2135-8-28**] 06:00 AM
   Vancomycin - [**2135-8-28**] 06:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Hydralazine - [**2135-8-28**] 12:50 AM
   Hydromorphone (Dilaudid) - [**2135-8-28**] 01:30 AM
   Midazolam (Versed) - [**2135-8-28**] 02:00 AM
   Fentanyl - [**2135-8-28**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-28**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 103 (73 - 138) bpm
   BP: 155/103(115) {126/76(88) - 181/123(129)} mmHg
   RR: 30 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,533 mL
                                                                  1,151 mL
   PO:
             TF:
                                                                    227 mL
   IVF:
                                                                  2,016 mL
                                                                    621 mL
   Blood products:
                                                                    610 mL
   Total out:
                                                                  3,825 mL
                                                                    432 mL
   Urine:
                                                                  3,825 mL
                                                                    432 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   SpO2: 98%
   ABG: 7.37/34/71/19/-4
   Ve: 14.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: minimally reactive, erythema and corneal irritation
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Distended, absent BS, distended, firm
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Noxious stimuli, Movement: Non
   -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   16 K/uL
   9.4 g/dL
   123 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   57 mg/dL
   110 mEq/L
   143 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-26**]  06:29 AM
                            [**2135-8-26**]  06:59 AM
                            [**2135-8-26**]  03:26 PM
                            [**2135-8-26**]  08:22 PM
                            [**2135-8-27**]  03:54 AM
                            [**2135-8-27**]  02:29 PM
                            [**2135-8-27**]  02:50 PM
                            [**2135-8-27**]  10:30 PM
                            [**2135-8-28**]  01:43 AM
                            [**2135-8-28**]  03:00 AM
   WBC
   0.1
   Hct
   25.5
   24.0
   21.9
   26.8
   25.5
   Plt
   11
   36
   16
   45
   16
   Cr
   1.8
   1.9
   2.1
   2.4
   2.5
   TCO2
   20
   21
   20
   Glucose
   169
   245
   207
   187
   123
   Other labs: PT / PTT / INR:16.4/29.8/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:117/182, Alk Phos / T Bili:477/6.0,
   Amylase / Lipase:98/216, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1303 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Last positve
   VRE blood cultures are from [**8-21**].  Both the arterial line and CVL have
   been removed and midline is in place and working properly.  The
   patients abx were changed yesterday from cefepime to meropenem because
   pt was tachy and had low grade temp.  Addtionally,  IV flagyl was added
   for anerobe coverage and c. diff colitis coverage. Pt's tachycardia has
   resolved and afebrile.  Pt is however clinically deteriorating.
   - Will continue linezolid for 2 weeks after last negative culture
   - Continue empiric meropenem and caspofungin
   - Cont  flagyl  IV
   - Surveillance cultures daily
   - Follow-up culture and sensitivities.
   - Follow-up with ID
   - f/u send sputum, urine, stool cx
   .
   # Respiratory failure: Volume status contributing to continued vent
   depedence.  Patient fluid balance was positve 700 in the last 24grs.
   The patient's renal function is worsening after aggressive diuresis.
   Pt still had good urine output.  Creatinine increased to 2.4 and lasix
   gtt was held.  Pt respiratory status no improvement.  Pt appeared
   dysynchonous on the vent last night and her RR was increased to 30 and
   tidal volume was increased to 500.
   - recheck ABG
   - will hold lasix gtt, then will reassess volume status
   .
   # Hyperbilirubinemia: CT abdomen/pelvis yesterday with signs of
   hepatobiliary pathology causing elevated Tbili.  Uncertain etiology at
   this point. Could be cholestasis although unlikely to lead to this
   level of hyperbilirubinemia.  Progessive worsening.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved.  Continued elevated pancreatic enzymes .  CT abd did
   not show change in pancreas from previous.  Discontinued propofol and
   TF yesterday,
   - monitor pancreatic enzymes
   - hold TF for now.
   - hold on additional fluids given patient is receiving IV fluids via
   meds and has been net positive
   .
   # Hypernatremia: Na this AM 143. Patient receiving free water boluses
   through OG.  Free water deficit ~1L.  Will continue 250ml flushes q4.
   Switched IV meds to D5 if possible to reduce free water through TF and
   overall volume intake.
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with multiple watery bowel
   movements, C.diff negative x2. Rectal bag inplace
   - Hold TF [**12-18**] to increased pancreatic enzymes
   - holding reglan, lactulose, senokot, colace given diarrhea
   .
   # Pancytopenia: Likely in setting of recent reinduction.  Pt received
   1U pRBC and 1U plts yesterday.  Additional 1U plts this AM
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs, family meeting tomorrow
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline, PIV
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-28 09:44:00 Physician Attending Progress Note
24 Hour Events:
   Ms. [**Known lastname 366**] continues to gradually decline with little evidence of
   improvement.  Given her low grade temperature yesterday, her antibiotic
   regimen was changed.  Her creatinine continues to climb despite being
   off the lasix.  Her propofol was stopped yesterday, and she became
   hypertensive and agitated.  However, no noted purposeful movements or
   activity; she remained encephalpathic.  Fentanyl/versed were
   restarted.  She was given hydralazine for elevated BP.
   Allergies:
   Penicillins itching;
   Aspirin Unknown;
   Amoxicillin Diarrhea;
   Omeprazole Unknown;
   Antibiotics:
   Cefipime - [**2135-8-27**] 04:00 AM
   Caspofungin - [**2135-8-27**] 10:00 PM
   Linezolid - [**2135-8-28**] 12:00 AM
   Metronidazole - [**2135-8-28**] 03:54 AM
   Acyclovir - [**2135-8-28**] 06:00 AM
   Vancomycin PO- [**2135-8-28**] 06:00 AM
   Meropenem - [**2135-8-28**] 08:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   ICU medications:
   Hydralazine
   Hydromorphone
   Pantoprazole
   Insulin sliding scale
   Reglan
   Neupogen
   Estroderm
   Peredex
   Allopurinol
   Flowsheet Data as of  [**2135-8-28**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 90 (73 - 135) bpm
   BP: 192/122(135) {134/84(96) - 192/123(135)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  4,533 mL
                                                                  1,798 mL
   PO:
           TF:
                                                                    227 mL
   IVF:
                                                                  2,016 mL
                                                                    798 mL
   Blood products:
                                                                    610 mL
                                                                    200 mL
   Total out:
                                                                  3,825 mL
                                                                    527 mL
   Urine:
                                                                  3,825 mL
                                                                    527 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    708 mL
                                                                  1,271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   SpO2: 98%
   ABG: 7.45/27/109/19/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen:  Intubated/sedated
   Chest:  Diminished BS at right base
   CV:  RRR no audible murmur
   Abd:  distended/abdominal wall edema
   Ext:  anasarca
   Labs / Radiology
   9.4 g/dL
   16 K/uL
   123 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   57 mg/dL
   110 mEq/L
   143 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-26**]  06:59 AM
                            [**2135-8-26**]  03:26 PM
                            [**2135-8-26**]  08:22 PM
                            [**2135-8-27**]  03:54 AM
                            [**2135-8-27**]  02:29 PM
                            [**2135-8-27**]  02:50 PM
                            [**2135-8-27**]  10:30 PM
                            [**2135-8-28**]  01:43 AM
                            [**2135-8-28**]  03:00 AM
                            [**2135-8-28**]  08:06 AM
   WBC
   0.1
   Hct
   25.5
   24.0
   21.9
   26.8
   25.5
   Plt
   11
   36
   16
   45
   16
   Cr
   1.9
   2.1
   2.4
   2.5
   TCO2
   20
   21
   20
   19
   Glucose
   245
   207
   187
   123
   Other labs: PT / PTT / INR:16.4/29.8/1.5, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:117/182, Alk Phos / T Bili:477/6.0,
   Amylase / Lipase:98/216, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1303 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   38F with prolonged neutropenia and general clinical decline over past
   week in regards to respiratory failure and persistent VRE bacteremia.
   1) ID: VRE Bacteremia, felt due to line infection initially, last
   positive cultures were from [**8-21**].  She is hemodynamically stable.
   Recent sputum culture with yeast; expanded coverage yesterday.  Does
   have increased secretions and CXR with interval increasing effusion vs.
   infiltrate
   - Continues on linezolid for her VRE.
   - Now on meropenem/cefepime
   - Caspofungin
   - Acyclovir prophylaxis
   2) Respiratory Failure: hypoxemic related to volume overload now
   - Would aim for diuresis, though unable to keep negative because of
   rising creatinine.
   - Also concern for VAP now with secretions/infiltrates.
   - Continue current ventilator management.
   3) Renal:  Cr is rising, though she has not been significantly TBB
   negative.  Will hold on lasix for now with rising Cr/tachycardia could
   be related to intravascular volume depletion.
   - hold lasix today
   - Trend lytes
   4) Heme:  HCT slightly lower than baseline
   - will transfuse 1 unit PRBC today
   -remains profoundly neutropenic
   5) GI:  Rising LFTs/amylase/lipase
   - Continue to hold amylase/lipase
   - Now off propofol in favor of fentanyl/versed
   6) CV- HTN:  BP now increased off propofol.
   - Start labetalol drip
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2135-08-29 08:11:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   Started on labetolol drip
   Pt getting 2U plts this AM for platelets of 7.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-8-27**] 04:00 AM
   Caspofungin - [**2135-8-28**] 10:00 PM
   Linezolid - [**2135-8-29**] 12:00 AM
   Vancomycin - [**2135-8-29**] 12:00 AM
   Metronidazole - [**2135-8-29**] 04:00 AM
   Acyclovir - [**2135-8-29**] 05:23 AM
   Meropenem - [**2135-8-29**] 07:57 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Labetalol - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-29**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-29**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 92 (72 - 110) bpm
   BP: 99/64(73) {99/44(63) - 192/122(135)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,926 mL
                                                                  1,147 mL
   PO:
           TF:
   IVF:
                                                                  2,416 mL
                                                                    850 mL
   Blood products:
                                                                    200 mL
                                                                    297 mL
   Total out:
                                                                    959 mL
                                                                    105 mL
   Urine:
                                                                    959 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                  1,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   SpO2: 100%
   ABG: 7.42/32/95.[**Numeric Identifier **]/18/-2
   Ve: 12.4 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, anasarca
   Eyes / Conjunctiva: minimally reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: vent sounds)
   Abdominal: Distended, hypoactive BS, firm, distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   7 K/uL
   7.7 g/dL
   139 mg/dL
   2.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   68 mg/dL
   108 mEq/L
   139 mEq/L
   21.0 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-26**]  08:22 PM
                            [**2135-8-27**]  03:54 AM
                            [**2135-8-27**]  02:29 PM
                            [**2135-8-27**]  02:50 PM
                            [**2135-8-27**]  10:30 PM
                            [**2135-8-28**]  01:43 AM
                            [**2135-8-28**]  03:00 AM
                            [**2135-8-28**]  08:06 AM
                            [**2135-8-28**]  04:10 PM
                            [**2135-8-29**]  04:37 AM
   WBC
   0.1
   Hct
   24.0
   21.9
   26.8
   25.5
   21.0
   Plt
   36
   16
   45
   16
   7
   Cr
   2.1
   2.4
   2.5
   2.9
   TCO2
   21
   20
   19
   21
   Glucose
   [**Telephone/Fax (3) 1386**]39
   Other labs: PT / PTT / INR:18.2/33.7/1.7, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:87/122, Alk Phos / T Bili:424/5.1,
   Amylase / Lipase:74/133, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:978 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   .
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Last positve
   VRE blood cultures are from [**8-21**].  Both the arterial line and CVL have
   been removed and midline is in place and working properly.  The
   patients abx were changed yesterday from cefepime to meropenem because
   pt was tachy and had low grade temp.  Addtionally,  IV flagyl was added
   for anerobe coverage and c. diff colitis coverage. Pt's tachycardia has
   resolved and afebrile.  Pt is however clinically deteriorating.
   - Will continue linezolid for 2 weeks after last negative culture
   - Continue empiric meropenem and caspofungin
   - Cont  flagyl  IV
   - Surveillance cultures daily
   - Follow-up culture and sensitivities.
   - Follow-up with ID
   - f/u send sputum, urine, stool cx
   .
   # Respiratory failure: Volume status contributing to continued vent
   depedence.  Patient fluid balance was positve 700 in the last 24grs.
   The patient's renal function is worsening after aggressive diuresis.
   Pt still had good urine output.  Creatinine increased to 2.4 and lasix
   gtt was held.  Pt respiratory status no improvement.  Pt appeared
   dysynchonous on the vent last night and her RR was increased to 30 and
   tidal volume was increased to 500.
   - recheck ABG
   - will hold lasix gtt, then will reassess volume status
   .
   # Hyperbilirubinemia: CT abdomen/pelvis yesterday with signs of
   hepatobiliary pathology causing elevated Tbili.  Uncertain etiology at
   this point. Could be cholestasis although unlikely to lead to this
   level of hyperbilirubinemia.  Progessive worsening.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved.  Continued elevated pancreatic enzymes .  CT abd did
   not show change in pancreas from previous.  Discontinued propofol and
   TF yesterday,
   - monitor pancreatic enzymes
   - hold TF for now.
   - hold on additional fluids given patient is receiving IV fluids via
   meds and has been net positive
   .
   # Hypernatremia: Na this AM 138.   Corrected.  Patient receiving free
   water boluses through OG.  Will decrease flushes q4.  Switched IV meds
   to D5 if possible to reduce free water through TF and overall volume
   intake.
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with multiple watery bowel
   movements, C.diff negative x2. Rectal bag inplace
   - Hold TF [**12-18**] to increased pancreatic enzymes
   - holding reglan, lactulose, senokot, colace given diarrhea
   .
   # Pancytopenia: Likely in setting of recent reinduction.  Pt received
   1U pRBC and 1U plts yesterday.  Additional 1U plts this AM
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Less likely to be DIC as
   fibrinogen has been >800.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs, family meeting tomorrow
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline, PIV
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-29 12:11:00 Physician Attending Progress Note
24 Hour Events:
   She continues to be critically ill with primary significant change
   being that her creatinine continues to rise steadily despite have
   discontinued the diuretics.  Her oxygenation is unchanged.  She was
   started on a labetalol drip with improvement in her blood pressure.
   Allergies:
   Penicillins: itching
   Aspirin: Unknown
   Amoxicillin: Diarrhea
   Omeprazole: Unknown
   Last dose of Antibiotics:
   Caspofungin - [**2135-8-28**] 10:00 PM
   Linezolid - [**2135-8-29**] 12:00 AM
   PO Vancomycin - [**2135-8-29**] 12:00 AM
   Metronidazole - [**2135-8-29**] 04:00 AM
   Acyclovir - [**2135-8-29**] 05:23 AM
   Meropenem - [**2135-8-29**] 07:57 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Labetalol - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   ICU medications:
   Pantoprazole (Protonix)
   Insulin
   Lactulose
   Atrovent
   Reglan
   Neupogen
   Linezolid
   Estroderm
   Peridex
   Acyclovir
   Allopurinol
   Flowsheet Data as of  [**2135-8-29**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.2
C (95.3
   HR: 94 (72 - 102) bpm
   BP: 92/59(67) {92/44(63) - 142/87(99)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,926 mL
                                                                  1,442 mL
   PO:
           TF:
   IVF:
                                                                  2,416 mL
                                                                    945 mL
   Blood products:
                                                                    200 mL
                                                                    497 mL
   Total out:
                                                                    959 mL
                                                                    160 mL
   Urine:
                                                                    959 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,967 mL
                                                                  1,282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 35 cmH2O
   SpO2: 100%
   ABG: 7.42/32/95
   Ve: 13.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen:  intubated, sedated
   Chest:  rhonchorous R > L, diminshed bases and posteriorly
   CV:  RRR
   Abd: obese, generally distended
   Ext: diffuse anasarca
   Neuro:  pupils equal but constricted, minimally reactive to light
   Labs / Radiology
   7.7 g/dL
   90 K/uL
   139 mg/dL
   2.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   68 mg/dL
   108 mEq/L
   139 mEq/L
   21.0 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-27**]  03:54 AM
                            [**2135-8-27**]  02:29 PM
                            [**2135-8-27**]  02:50 PM
                            [**2135-8-27**]  10:30 PM
                            [**2135-8-28**]  01:43 AM
                            [**2135-8-28**]  03:00 AM
                            [**2135-8-28**]  08:06 AM
                            [**2135-8-28**]  04:10 PM
                            [**2135-8-29**]  04:37 AM
                            [**2135-8-29**]  09:53 AM
   WBC
   0.1
   Hct
   24.0
   21.9
   26.8
   25.5
   21.0
   Plt
   16
   45
   16
   7
   90
   Cr
   2.1
   2.4
   2.5
   2.9
   TCO2
   21
   20
   19
   21
   Glucose
   [**Telephone/Fax (3) 1386**]39
   Other labs: PT / PTT / INR:18.2/33.7/1.7, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:87/122, Alk Phos / T Bili:424/5.1,
   Amylase / Lipase:74/133, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:978 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   38F with prolonged neutropenia and general clinical decline over past
   week in regards to respiratory failure and  VRE bacteremia.
   1) ID: VRE Bacteremia, felt due to line infection initially, last
   positive cultures were from [**8-21**] with negative surviellance cultures.
   She is hemodynamically stable.  Recent sputum culture with yeast;
   expanded coverage yesterday.  Does have increased secretions and CXR
   with interval increasing effusion vs. infiltrate
   - Continues on linezolid for her VRE.
   - Now on meropenem for possible VAP (was previously on cefepime)
   - Caspofungin
   - Acyclovir prophylaxis
   - PO vancomycin for cdiff colitis
   2) Respiratory Failure: hypoxemic related to volume overload now
   7.42/42/90
   - Would aim for diuresis, though unable to keep negative because of
   rising creatinine.
   - Also concern for VAP now with secretions/infiltrates.
   - Continue current ventilator management.
   3) Renal:  Cr is rising, though she has not been significantly TBB
   negative.  Will hold on lasix with rising Cr/tachycardia could be
   related to intravascular volume depletion.
   - hold lasix
   - Trend lytes
   4) Heme:  HCT slightly lower than baseline, pancytopenic
   - Transfuse one unit PRBC today
   -remains profoundly neutropenic, on neupogen
   5) GI:  Rising LFTs/amylase/lipase, bilirubin
   - Continue to hold amylase/lipase
   - Now off propofol in favor of fentanyl/versed
   6) CV- HTN:  BP now increased off propofol.
   - Labetolol drip for BP control
   7) Neuro:  Minimally responsive on sedation.  Whenever sedation weaned,
   becomes more hypertensive and bites the ETT.
   - Continue fentanyl/versed, try to awaken daily
   ICU Care
   Nutrition: Start trophic feeds today and follow amylase/lipase for
   pancreatitis
   Glycemic Control:  Insulin protocol
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Thrombocytopenic
 no heparin
   Stress ulcer:   PPI
   VAP:   HOB/mouthcare
   Code status: Full code
   Disposition :  Critically ill, remains in ICU today
   Time Spent : 45 min

2135-08-30 06:50:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - Family meeting - wish to proceed with CVVH vs. HD; will call renal
   Tuesday, [**8-30**]
   - Tubefeeds restarted at 10cc/hour
   - Sedation held - nurse [**First Name (Titles) 1413**] [**Last Name (Titles) 1414**] to suctioning. I was never
   ablet to produce any response even 10 hours after sedation stopped.
 BLOOD CULTURED - At [**2135-8-30**] 04:25 AM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2135-8-29**] 07:42 PM
   Caspofungin - [**2135-8-29**] 10:00 PM
   Linezolid - [**2135-8-30**] 12:00 AM
   Metronidazole - [**2135-8-30**] 04:00 AM
   Acyclovir - [**2135-8-30**] 06:01 AM
   Vancomycin - [**2135-8-30**] 06:01 AM
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-29**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-30**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 108 (78 - 116) bpm
   BP: 132/84(96) {92/55(64) - 136/86(98)} mmHg
   RR: 25 (25 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,404 mL
                                                                    812 mL
   PO:
             TF:
                                                                     80 mL
                                                                     64 mL
   IVF:
                                                                  2,152 mL
                                                                    748 mL
   Blood products:
                                                                  1,172 mL
   Total out:
                                                                    225 mL
                                                                     55 mL
   Urine:
                                                                    225 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,179 mL
                                                                    757 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 32 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/27/73.[**Numeric Identifier **]/14/-5
   Ve: 13.4 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: pupils minimally reactive to light, pt minimally
   opens right eye
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l vent sounds transmitted)
   Abdominal: Distended, hypoactive BS, firm
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, No(t) Oriented (to): , Movement:
   No spontaneous movement, Sedated, Tone: Not assessed
   Labs / Radiology
   17 K/uL
   10.5 g/dL
   131
   3.4 mg/dL
   14 mEq/L
   3.9 mEq/L
   78 mg/dL
   105 mEq/L
   136 mEq/L
   28.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-28**]  01:43 AM
                            [**2135-8-28**]  03:00 AM
                            [**2135-8-28**]  08:06 AM
                            [**2135-8-28**]  04:10 PM
                            [**2135-8-29**]  04:37 AM
                            [**2135-8-29**]  09:53 AM
                            [**2135-8-29**]  05:52 PM
                            [**2135-8-29**]  11:30 PM
                            [**2135-8-30**]  03:44 AM
                            [**2135-8-30**]  06:00 AM
   WBC
   0.1
   0.1
   Hct
   25.5
   21.0
   28.2
   28.3
   Plt
   16
   7
   90
   17
   Cr
   2.5
   2.9
   3.4
   TCO2
   20
   19
   21
   18
   Glucose
   123
   139
   130
   131
   Other labs: PT / PTT / INR:19.6/33.1/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:74/111, Alk Phos / T Bili:489/5.7,
   Amylase / Lipase:72/137, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.3 g/dL, LDH:920 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   .
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Last positve
   VRE blood cultures are from [**8-21**].  Both the arterial line and CVL have
   been removed and midline is in place and working properly. Pt continues
   to clinically deteriorate.  Sputum growing yeast, pt on caspofungin.
   Negative urine and stool cx.
   - Will continue linezolid for 2 weeks after last negative culture
   ([**9-5**])
   - Continue empiric meropenem, flagyl and caspofungin
   - Will hold on daily surveillance cultures, culture if spikes
   - Follow-up culture and sensitivities.
   - Follow-up with ID
   .
   #Acute Renal Failure: Oliguric.  Pt with cont worsening renal
   function.  Cr today 3.4 and worsening.  Pt with worsening
   electrolytes.  Pt is severely volume overloaded.  Family meeting held
   and family would like to initiate CVVH vs HD.  Pt with worsening
   acidosis likely [**12-18**] Uremia and non-gap component likely diarrhea and
   fluids.
   -          Consult renal regarding dialysis (CVVH vs HD)
   -          Check lactate, ketones in urine
   .
   # Respiratory failure: Pt has been off sedation from yesterday.  Little
   to no spontaneous movements.  Pt did not react to pain this AM.  Volume
   status contributing to continued vent depedence.  Patient fluid balance
   was positve 3.1L in the last 24hrs.  The patient's renal function
   continues to decline Cr 3.4. Pt respiratory status no improvement
   - plan for CVVH
   - cont to monitor resp status
   .
   # Hyperbilirubinemia: CT abdomen/pelvis and RUQ U/S did not show signs
   of hepatobiliary pathology causing elevated Tbili.  Uncertain etiology
   at this point. TBili trending up again.  Could be combination of
   cholestasis, sepsis,  bowel edema.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved. Pancreatic enzymes essentiall unchanged.  CT abd did
   not show change in pancreas from previous.  Discontinued propofol.
   Restarted TF yesterday.
   - monitor pancreatic enzymes
   - Restarted TF slowly yesterday.
   .
   # Hypernatremia: Na this AM 137.   Corrected.  Patient receiving free
   water boluses through OG will be decreased.  Switched IV meds to D5 if
   possible to reduce free water through TF and overall volume intake.
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with watery bowel movements,
   C.diff negative x2.
   - restarted TF
   - cont reglan, lactulose, senokot, colace
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - will transfuse 2U plts today
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs, family meeting yesterday.  Plan for CVVH
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline, PIV
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-29**] 04:00 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-08-31 06:49:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   Renal Consulted: Plan to start CVVH. Could not place line by bedside.
   Will plan for IR guided temp dialysis line for tomorrow.
   Also, sent Urine studies, Renal U/S, renally dose meds (decreasing
   Acyclovir to 400 mg q24hrs) --> likely ATN
   - Labs: Plt:72 after 2U, lactate 1.6
   - transfuse 2U FFP, given ddAVP,
   - FeNa: 1.69
   - Pt continues to be off sedation with little change in mental status
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-8-30**] 06:01 AM
   Vancomycin - [**2135-8-30**] 06:00 PM
   Meropenem - [**2135-8-30**] 08:30 PM
   Caspofungin - [**2135-8-30**] 10:20 PM
   Linezolid - [**2135-8-30**] 11:51 PM
   Metronidazole - [**2135-8-31**] 03:30 AM
   Infusions:
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-30**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-8-31**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 103 (103 - 114) bpm
   BP: 144/85(99) {119/74(86) - 171/98(114)} mmHg
   RR: 26 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,349 mL
                                                                    396 mL
   PO:
             TF:
                                                                    240 mL
                                                                     64 mL
   IVF:
                                                                  2,084 mL
                                                                    282 mL
   Blood products:
                                                                    975 mL
   Total out:
                                                                    145 mL
                                                                    102 mL
   Urine:
                                                                    145 mL
                                                                    102 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,204 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   Plateau: 33 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 98%
   ABG: ///16/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   transmitted vent sounds)
   Abdominal: Distended, hypoactive BS, firm, distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   Tone: Not assessed
   Labs / Radiology
   11 K/uL
   9.5 g/dL
   133 mg/dL
   4.3 mg/dL
   16 mEq/L
   4.0 mEq/L
   88 mg/dL
   101 mEq/L
   135 mEq/L
   26.1 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-28**]  08:06 AM
                            [**2135-8-28**]  04:10 PM
                            [**2135-8-29**]  04:37 AM
                            [**2135-8-29**]  09:53 AM
                            [**2135-8-29**]  05:52 PM
                            [**2135-8-29**]  11:30 PM
                            [**2135-8-30**]  03:44 AM
                            [**2135-8-30**]  06:00 AM
                            [**2135-8-30**]  09:12 AM
                            [**2135-8-31**]  02:54 AM
   WBC
   0.1
   0.1
   <0.1
   Hct
   21.0
   28.2
   28.3
   26.1
   Plt
   7
   90
   17
   72
   11
   Cr
   2.9
   3.4
   4.3
   TCO2
   19
   21
   18
   Glucose
   139
   130
   131
   133
   Other labs: PT / PTT / INR:18.8/32.1/1.7, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:51/90, Alk Phos / T Bili:509/5.4,
   Amylase / Lipase:72/137, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.8 mg/dL
   Fluid analysis / Other labs: Other Urine Chemistry:
   Creat:39
   Na:29
   Osmolal:260
   Lactate 1.6
   Urine Dip: 10 ketones
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with febrile
   neutropenia, respiratory distress, VRE bacteremia and possible
   tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  No new positve
   blood cultures, the last positve VRE blood cultures are from [**8-21**].
   Both the arterial line and CVL have been removed and midline is in
   place and working properly. Pt continues to clinically deteriorate.
   Sputum growing yeast, pt on caspofungin.  Negative urine and stool cx.
   - Will continue linezolid for 2 weeks after last negative culture
   ([**9-5**])
   - Continue empiric meropenem, flagyl and caspofungin
   - Will hold on daily surveillance cultures, culture if spikes
   - Follow-up culture and sensitivities.
   - f/u with ID recs if any
   .
   #Acute Renal Failure: Oliguric.  Pt with cont worsening renal
   function.  Cr today 4.3 and worsening.  Renal consulted yesterday and
   plan for CVVH.  Dialysis line will be placed by IR today.  ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications and
   contrast exposure pt has mutiple reasons for renal failure.  FeNa 1.67
   -  f/u renal recs, plan for IR placment of dialysis cath today and
   initiation of CVVH
   -  will likely need platelets and FFP prior to procedure.
   -  f/u on urine sediment and renal u/s
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**].  Little to
   no spontaneous movements.  Pt did not react to pain this AM.  Volume
   status contributing to continued vent depedence.  Patient fluid balance
   was positve 3L in the last 24hrs.  The patient's renal function
   continues to decline Cr 4.3. Pt respiratory status no improvement
   - plan for CVVH to address volume overload
   - cont to monitor resp status
   .
   # Anion Gap Acidosis: Anion gap acidosis likely [**12-18**] to her uremia (Gap
   of 18).  Lactate was 1.6.  There is also a concurrent metabolic
   alkalosis likely [**12-18**] previous lasix use and contraction alkalosis
   (although Cl is wnl) and mutiple transfusions.  Pt OG is not to
   suction. last ABG showed low PCO2 (not hypercapneic).
   - will monitor chem-7
   - will correct uremia with CVVH
   .
   # Hyperbilirubinemia: CT abdomen/pelvis and RUQ U/S did not show signs
   of hepatobiliary pathology causing elevated Tbili.  Uncertain etiology
   at this point. TBili trending up again.  Could be combination of
   cholestasis, sepsis,  bowel edema.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved. Pancreatic enzymes essentiall unchanged.  CT abd did
   not show change in pancreas from previous.  Discontinued propofol.
   Restarted TF and tolerating.
   - monitor pancreatic enzymes
   - Restarted TF slowly yesterday.
   .
   .# Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with watery bowel.   movements,
   C.diff negative x2.
   - restarted TF, will ask to place PICC line for TPN by IR today
   - cont reglan, lactulose, senokot, colace
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - will transfuse platelets and FFP today prior to proceudre
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Pt got IV Vit K
   -  and FFP prior to procedure
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs  Plan for CVVH
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Midline, PIV
   - placement of IR cath and PICC placement
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-29**] 04:00 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-8-22**] 12:15 PM
   16 Gauge - [**2135-8-23**] 07:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-09-01 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    IR placed dialysis catheter and PICC
   - CVVH started (removal of ~100cc/hr)
   - 1 set of blood cultures from [**8-27**] growing GPC pairs and clusters.
   2nd set of BCx from [**8-27**] NGTD
   - Renal U/S no hydro
   - Progressively more hypertensive today requiring increasing labetolol
   gtt
   - Talked with patient's Aunt
   - Nursing reports pt mild repsonse to noxious stimuli
   - pt with papular rash on forehead
 FLUOROSCOPY - At [**2135-8-31**] 12:00 PM
   New right brachial DL PICC
   New right IJ DL dialysis catheter
 PICC LINE - START [**2135-8-31**] 12:00 PM
 DIALYSIS CATHETER - START [**2135-8-31**] 12:00 PM
 MIDLINE - STOP [**2135-8-31**] 03:03 PM
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-8-30**] 06:00 PM
   Acyclovir - [**2135-8-31**] 08:30 AM
   Meropenem - [**2135-8-31**] 08:20 PM
   Caspofungin - [**2135-8-31**] 10:30 PM
   Linezolid - [**2135-9-1**] 12:00 AM
   Metronidazole - [**2135-9-1**] 04:26 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-8-31**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-1**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 90 (70 - 101) bpm
   BP: 133/83(94) {124/69(82) - 178/114(128)} mmHg
   RR: 26 (9 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,058 mL
                                                                  1,976 mL
   PO:
             TF:
                                                                     91 mL
                                                                     66 mL
   IVF:
                                                                  3,699 mL
                                                                  1,890 mL
   Blood products:
                                                                  1,078 mL
   Total out:
                                                                  3,595 mL
                                                                  2,819 mL
   Urine:
                                                                    267 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,463 mL
                                                                   -843 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 12.4 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: anteriorly, vent sounds transmitted)
   Abdominal: Distended, hypoactive BS, firm, distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: papaular rash on forehead
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   14 K/uL
   8.6 g/dL
   149 mg/dL
   3.2 mg/dL
   19 mEq/L
   3.7 mEq/L
   73 mg/dL
   99 mEq/L
   136 mEq/L
   23.6 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-29**]  05:52 PM
                            [**2135-8-29**]  11:30 PM
                            [**2135-8-30**]  03:44 AM
                            [**2135-8-30**]  06:00 AM
                            [**2135-8-30**]  09:12 AM
                            [**2135-8-31**]  02:54 AM
                            [**2135-8-31**]  10:08 AM
                            [**2135-8-31**]  06:00 PM
                            [**2135-8-31**]  11:00 PM
                            [**2135-9-1**]  04:17 AM
   WBC
   0.1
   0.1
   Hct
   28.2
   28.3
   26.1
   23.6
   Plt
   17
   72
   11
   14
   Cr
   3.4
   4.3
   4.1
   3.2
   TCO2
   18
   Glucose
   130
   131
   133
   110
   165
   140
   149
   Other labs: PT / PTT / INR:19.0/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:47/88, Alk Phos / T Bili:539/5.2,
   Amylase / Lipase:77/228, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with VRE sepsis,
   febrile neutropenia, respiratory distress, anion-gap acidosis,  and
   pancreatits and possible tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  New positve
   blood cultures one set from [**8-27**] growing GPC pairs and clusters from
   midline (midlne was removed yesterday).  Possible contamination given
   only one set positve and previous cultures negative. The last positve
   VRE blood cultures are from [**8-21**].  Dialysis and PICC line were placed
   yesterday. Pt continues to clinically deteriorate.  Sputum growing
   yeast, pt on caspofungin.  Negative urine and stool cx.
   - will f/u on positve blood cutures and sensitivies
   - Will continue linezolid for 2 weeks after last negative culture
   (pending new positve blood cx)
   - Continue empiric meropenem, flagyl and caspofungin
   - Daily surveillance cultures, culture if spikes
   - Follow-up culture and sensitivities.
   - f/u with ID recs if any
   .
   #Acute Renal Failure: Pt started on CVVH (output ~100-200cc/hr) and
   tolerating.  Pt is oliguric.  Pt with improved renal function.  Cr
   today 3.2.  Dialysis line will be placed by IR yesteray.  ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications and
   contrast exposure pt has mutiple reasons for renal failure. Renal U/S
   no hydro
   - t/d with renal regarding HD instead of CVVH given stable pressures
   and new positive blood cultures, may have limited time with new
   dialysis line if bacteremic.
   -  f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**].  Little to
   no spontaneous movements.  Pt did not react to pain this AM.  Volume
   status contributing to continued vent depedence.  Pt on CVVH -800L this
   AM.  The patient's renal function . Pt respiratory status stable, no
   improvement
   - plan for CVVH vs HD to address volume overload
   - cont to monitor resp status
   .
   # Anion Gap Acidosis: Anion gap acidosis likely [**12-18**] to her uremia (Gap
   of 18).  Pt on ventilator and with a respiratory alkalosis.
   - t/c decreasing RR, but pt was dysynchronous when rate was deceased
   previously
   - will monitor chem-7
   - will correct uremia with CVVH
   .
   # Papular Rash: Pt with papular rash on forehead. Nursing noted on arms
   and legs, but since resolved.  Could be reaction to dialysis fluid or
   other medication, but no new antibiotcs or meds started.  Does not
   appear to be zoster, but is on the V1 dermatome.   Will cont to
   monitor.
   -          pt on acyclovir ppx (f/u ID)
   -          t/c biopsy of lesion if does not improve.
   .
   # Hyperbilirubinemia: CT abdomen/pelvis and RUQ U/S did not show signs
   of hepatobiliary pathology causing elevated Tbili.  Uncertain etiology
   at this point. TBili trending up again.  Could be combination of
   cholestasis, sepsis,  bowel edema.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved. Pancreatic enzymes essentiall unchanged.  CT abd did
   not show change in pancreas from previous.  Discontinued propofol.
   Restarted TF and tolerating.
   - monitor pancreatic enzymes
   - cont TF slowly yesterday.
   .
   .# Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT in place.  CT abdomen without signs of
   perforation or obstruction.  Patient with watery bowel.   movements,
   C.diff negative x2.
   - PICC line paced for TPN.  Pt with new positve BCx, but could be
   contaminant.
   - Will consult nutrition and start TPN
   - cont reglan, lactulose, senokot, colace
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - will transfuse 2U platelets
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   - Recheck CBC this afternoon
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.  Pt got IV Vit K
   -  and FFP prior to procedure
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs  Plan for CVVH
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC placement
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-8-31**] 09:52 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-09-02 07:43:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - Renal recs: Will likely switch to HD on [**9-2**]; goal 4L off from CVVH;
   fluid balance nearly -4.1L at midnight
   - BMT recs: No new recs
   - Blood culture ([**8-27**]): ENTEROCOCCUS FAECIUM
   - TPN started; blood glucose (<200); will consider including insulin in
   TPN; will consult nutrition
   - NG tube fell out; OG tube placed; will hold off on using until we
   evaluate position in AM [**Last Name (un) **] radiograph
   ** Responsive overnight - opens eyes, squeezes hand (L>R)
   - Elevated pancreatic enzymes this AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2135-9-2**] 02:30 AM
   Post pyloric feeding tube slipped through tape that secured it to her
   nose (exited L nare), during turning.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-8-30**] 06:00 PM
   Acyclovir - [**2135-9-1**] 08:00 AM
   Meropenem - [**2135-9-1**] 07:57 PM
   Caspofungin - [**2135-9-1**] 10:00 PM
   Linezolid - [**2135-9-1**] 11:46 PM
   Metronidazole - [**2135-9-2**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Labetalol - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-1**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 105 (90 - 115) bpm
   BP: 147/93(106) {117/62(76) - 183/111(127)} mmHg
   RR: 27 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.2 kg (admission): 92 kg
             Total In:
                                                                  9,410 mL
                                                                  2,335 mL
   PO:
             TF:
                                                                    240 mL
                                                                     25 mL
   IVF:
                                                                  8,159 mL
                                                                  1,971 mL
   Blood products:
                                                                    591 mL
   Total out:
                                                                 13,594 mL
                                                                  3,825 mL
   Urine:
                                                                    170 mL
                                                                     69 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,184 mL
                                                                 -1,490 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 397 (397 - 503) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: hypoactive BS, firm, distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed, will squeeze hand L>R
   Labs / Radiology
   19 K/uL
   8.6 g/dL
   143 mg/dL
   2.3 mg/dL
   25 mEq/L
   3.8 mEq/L
   49 mg/dL
   97 mEq/L
   138 mEq/L
   23.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-31**]  02:54 AM
                            [**2135-8-31**]  10:08 AM
                            [**2135-8-31**]  06:00 PM
                            [**2135-8-31**]  11:00 PM
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
   WBC
   0.1
   Hct
   26.1
   23.6
   23.3
   Plt
   11
   14
   64
   19
   Cr
   4.3
   4.1
   3.2
   2.7
   2.3
   Glucose
   133
   110
   165
   140
   149
   140
   153
   170
   143
   Other labs: PT / PTT / INR:19.0/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:47/88, Alk Phos / T Bili:539/5.2,
   Amylase / Lipase:101/359, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with VRE sepsis,
   febrile neutropenia, respiratory distress, anion-gap acidosis,  and
   pancreatits and possible tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  New positve
   blood cultures one set from [**8-27**] growing enterococcus from midline
   (midlne was removed.  Pt likely has persisent VRE bacteremia. The last
   previous positve VRE blood cultures are from [**8-21**].  Dialysis and PICC
   line were placed [**8-31**]. Pt clinically improving minimally.  Sputum
   growing yeast, pt on caspofungin.  Negative urine and stool cx.
   - will f/u on positve blood cutures and sensitivies
   - Will continue linezolid for 2 weeks after last negative culture
   (pending new positve blood cx)
   - Continue empiric meropenem, flagyl and caspofungin
   - Daily surveillance cultures, culture if spikes
   - f/u with ID recs if any
   .
   #Acute Renal Failure: Pt started on CVVH and tolerating well.  Pt cont
   to be oliguric.  Pt with improved renal function.  Cr today 2.3. CVVH
   has removed 4L yesterday.  Renal to start HD today.  ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications and
   contrast exposure pt has mutiple reasons for renal failure. Renal U/S
   no hydro
   - Per renal pt for HD today, will f/u regarding plan, may have limited
   time with new dialysis line if bacteremic.
   -  f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**].  With
   improvement in mental status. Pt able to squeeze hands this AM.  Volume
   status contributing to continued vent depedence.  Pt on CVVH -4L this
   AM.  The patient's renal function is improving. Pt respiratory status
   stable, no improvement
   - HD to address volume overload
   - cont to monitor resp status
   .
   # Anion Gap Acidosis: Corrected after CVVH.
   - will monitor chem-7
   - Cont dialysis
   .
   # Papular Rash: Pt with papular rash on forehead. Likely contact
   dermatitis.   Does not appear to be zoste.
   -          Will cont to monitor.
   -          pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: CT abdomen/pelvis and RUQ U/S did not show signs
   of hepatobiliary pathology causing elevated Tbili.  Uncertain etiology
   at this point. TBili trending up again.  Could be combination of
   cholestasis, sepsis,  bowel edema.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved. Pancreatic enzymes essentiall unchanged.  CT abd did
   not show change in pancreas from previous.  Discontinued propofol.
   Restarted TF and tolerating.  Pancreatic enzymes elevated today.
   - monitor pancreatic enzymes
   - hold TF
   .
   .# Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT fell out yesterday, OG placed.  CT abdomen
   without signs of perforation or obstruction.  Patient with watery
   bowel  movements, C.diff negative x2.  Started on TPN yesterday and
   tolerating.
   -Cont TPN via PICC line.  Pt with new positve BCx from [**8-27**], will
   monitor.
   - cont reglan, lactulose, senokot, colace
   - follow blood sugars
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.  BM biopsy has minimal benefit to management
   given pt has VRE sepsis.
   - f/u onc recs
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC placement
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   TPN without Lipids - [**2135-9-1**] 06:30 PM 41.[**Telephone/Fax (5) 1475**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-09-02 11:31:00 Physician Attending Progress Note
Chief Complaint: VRE Bacteremia, PEA arrest
   HPI:
   38F with ALL s/p chemo and neutropenia since [**6-24**]; long term ICU stay
   s/p PEA arrest, VRE bacteremia, and gross body overload due to renal
   failure and hypoalbuminemia
   24 Hour Events:
   She tolerated CVVH yesterday, planning change to HD today.  She was
   hemodynamically stable yesterday.  Also started on TPN yesterday and
   had removal of her NGT because of migration.
   No significant clinical change in her status over last 24 hours.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-8-30**] 06:00 PM
   Caspofungin - [**2135-9-1**] 10:00 PM
   Linezolid - [**2135-9-1**] 11:46 PM
   Metronidazole - [**2135-9-2**] 04:00 AM
   Meropenem - [**2135-9-2**] 07:57 AM
   Acyclovir - [**2135-9-2**] 08:42 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Labetalol - 2 mg/min
   Other ICU medications:
   Other medications:
   Allopurionol
   PPI
   Peridex
   Estroderm
   Neupogen
   Insulin sliding scale
   Reglan
   Atrovent prn
   Afrin nasal spray
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-2**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 107 (101 - 115) bpm
   BP: 182/111(127) {130/79(91) - 183/111(127)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.2 kg (admission): 92 kg
             Total In:
                                                                  9,410 mL
                                                                  3,504 mL
   PO:
             TF:
                                                                    240 mL
                                                                     25 mL
   IVF:
                                                                  8,159 mL
                                                                  2,949 mL
   Blood products:
                                                                    591 mL
   Total out:
                                                                 13,594 mL
                                                                  6,596 mL
   Urine:
                                                                    170 mL
                                                                    114 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,184 mL
                                                                 -3,092 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 392 (392 - 503) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 29 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 11.9 L/min
   Physical Examination
   Gen:  intubated and sedated
   Chest:  anterior fields more clear today
   CV:  RRR distant S1/S2
   Abd:  distended, minimal bowel sounds
   Ext:  diffuse anasarca
   Labs / Radiology
   8.6 g/dL
   19 K/uL
   136 mg/dL
   2.3 mg/dL
   24 mEq/L
   3.8 mEq/L
   49 mg/dL
   96 mEq/L
   136 mEq/L
   23.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-8-31**]  10:08 AM
                            [**2135-8-31**]  06:00 PM
                            [**2135-8-31**]  11:00 PM
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
   WBC
   0.1
   Hct
   23.6
   23.3
   Plt
   14
   64
   19
   Cr
   4.1
   3.2
   2.7
   2.3
   Glucose
   110
   165
   140
   149
   140
   153
   170
   143
   136
   Other labs: PT / PTT / INR:19.0/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:47/88, Alk Phos / T Bili:539/5.2,
   Amylase / Lipase:101/359, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   38F with ALL and multiple acute issues including ARF now on CVVH,
   continued VRE bacteremia, continued neutropenia.
   1.       ID:  VRE bacteremia, most recent positive blood culture on
   [**8-27**].  History of cdiff on flagyl.  Covered broadly for possible VAP
   for several days as well as febrile neutropenia.
   -          Continue linezolid for VRE
   -          Meropenem for VAP
 plan for 8 day course given negative
   cultures and can discuss with ID changing GN coverage
   -          PO vancomycin/ Flagyl for cdiff colitis
 continue while
   neutropenic and on other antibiotics
   -          Caspofungin empirically
   -          Acyclovir prophylaxis
   2.       Respiratory Failure:  Hypoxemic.  Related to volume overload
   most likely.  She is also covered for VAP. FiO2 0.6/PEEP 10.
   -          Increase PEEP today to decrease FiO2
 would increase PEEP
   to 12, to aim FiO2 .5 or 0.4.
   3.       Neuro:  improving off sedation and improvement in uremia.
   Slightly more responsive today.
   -          continue to hold sedation
   -          monitor neuro status
   4.       Renal:  ARF multifactorial.  Tolerating CVVH.
   -          Changing to HD today, continue aggressive volume removal
   5.       GI:  mild increase in Amylase/lipase today.  LFTs continue to
   be abnormal with no evidence of biliar obstruction.
   -          On low lipid TPN, follow amylase/lipase
   6.       Heme:  HCT< 21 and Platelets < 10 as transfusion goals per
   oncology
   ICU Care
   Nutrition: :  TPN without Lipids - [**2135-9-1**] 06:30 PM 41.[**Telephone/Fax (5) 1475**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments: Daily family updates
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2135-09-03 06:57:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - Pt started on HD today removed ~4L
   - Cultures from [**8-27**] VRE sensitive to linezolid
   - Pt on SIMV, FiO2 was decreased yesterday to 50%.
   - ET tube pulled back and repeat CXR this AM
 BLOOD CULTURED - At [**2135-9-2**] 12:00 PM
   from r ij dialysis catheter
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-9-2**] 08:42 AM
   Meropenem - [**2135-9-2**] 08:00 PM
   Caspofungin - [**2135-9-2**] 10:00 PM
   Linezolid - [**2135-9-3**] 12:00 AM
   Metronidazole - [**2135-9-3**] 03:50 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-9-3**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO, Parenteral nutrition
   Flowsheet Data as of  [**2135-9-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 118 (101 - 122) bpm
   BP: 150/109(117) {123/80(96) - 182/95,101(127)} mmHg
   RR: 23 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.2 kg (admission): 92 kg
             Total In:
                                                                  5,307 mL
                                                                    976 mL
   PO:
             TF:
                                                                     25 mL
   IVF:
                                                                  3,986 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                 11,342 mL
                                                                    105 mL
   Urine:
                                                                    245 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,035 mL
                                                                    871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 537 (283 - 537) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: firm, distended, hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, papular rash on forehead
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed, will squeeze hands
   Labs / Radiology
   13 K/uL
   8.1 g/dL
   193 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   60 mg/dL
   95 mEq/L
   134 mEq/L
   21.3 %
   0.2 K/uL
        [image002.jpg]
                            [**2135-8-31**]  06:00 PM
                            [**2135-8-31**]  11:00 PM
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
   WBC
   0.1
   0.2
   Hct
   23.6
   23.3
   21.3
   Plt
   14
   64
   19
   13
   Cr
   3.2
   2.7
   2.3
   2.7
   Glucose
   165
   140
   149
   140
   153
   170
   143
   136
   193
   Other labs: PT / PTT / INR:19.0/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:37/96, Alk Phos / T Bili:537/3.2,
   Amylase / Lipase:121/378, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with PMH of relapsed ALL s/p chemotherapy with VRE sepsis,
   febrile neutropenia, respiratory distress, anion-gap acidosis,  and
   pancreatits and possible tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Pt with
   increasing WBC count to 0.2 today.  Last positve blood cultures one set
   from [**8-27**] growing VRE from midline (midlne was removed.  Pt likely has
   persisent VRE bacteremia. The last previous positve VRE blood cultures
   are from [**8-21**].  Dialysis and PICC line were placed [**8-31**]. Pt clinically
   improving.
   - will f/u on positve blood cutures and sensitivies
   - Will continue linezolid for 2 weeks after last negative culture
   (pending new positve blood cx)
   - Continue empiric meropenem, flagyl and caspofungin
   - Daily surveillance cultures, culture if spikes
   - f/u with ID recs if any
   .
   #Acute Renal Failure: Pt started on CVVH ([**9-1**]) and swtiched to HD
   yesterday and tolerating well.  Removed 4L of fluid. Pt cont to be
   oliguric.  Cr increased to 2.7. ARF likely multifactorial ATN given PEA
   arrest, nephrotoxic medications and contrast exposure pt has mutiple
   reasons for renal failure. Renal U/S no hydro
   - Cont HD today
   -  f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**].  With
   improvement in mental status. Pt able to squeeze hands this AM.  Volume
   status contributing to continued vent depedence.  Pt on HD and removed
   -4L.  The patient's renal function is improving. Pt respiratory status
   stable, but some agitation with no sedation.
   - Plan to increase PEEP and decrease FiO2
   - HD to address volume overload
   - fentanyl prn
   - cont to monitor resp status
   - f/u CXR regarding ET tube placement
   - check ABG today
   .
   # Anion Gap Acidosis: Corrected after CVVH.
   - will monitor chem-7
   - Cont dialysis
   .
   # Papular Rash: Pt with papular rash on forehead. Likely contact
   dermatitis.   Does not appear to be zoster and is stable.
   -          Will cont to monitor.
   -          pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Improving with TBili 3.2 today.  CT
   abdomen/pelvis and RUQ U/S did not show signs of hepatobiliary
   pathology causing elevated Tbili.  Uncertain etiology at this point.
   TBili trending up again.  Could be combination of cholestasis, sepsis,
   bowel edema.
   - Trend LFTS, bilirubin
   .
   #Elevated Amylase:  Pt with h/o pancreatitis this admission that had
   since resolved. Pancreatic enzymes trending upward today.  Pt was
   started on TPN yesterday.
   - monitor pancreatic enzymes
   - will cont TPN for now and monitor enzymes
   - hold TF
   .
   .# Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue neupogen
   - Continue acyclovir prophylaxis.
   .
   # FEN: Post-pyloric OGT fell out yesterday, OG placed.  CT abdomen
   without signs of perforation or obstruction.  Patient with watery
   bowel  movements, C.diff negative x2.  Started on TPN yesterday and
   tolerating.
   -Cont TPN via PICC line.  Pt with new positve BCx from [**8-27**], will
   monitor.
   - cont reglan, lactulose, senokot, colace
   - follow blood sugars and on ISS and insulin in TPN
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - will give 2U pRBC
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   .
   # C. Diff: Continue PO vanco and added IV flagyl (pt with decreased gut
   motility)
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC placement
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2135-9-2**] 06:00 PM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   PGY-2 Addendum:
   Discussed with Interventional Radiology about HD catheter tip in RA.
   Review of radiologic studies reveals that the catheter tip has been in
   the RA since insertion. Per IR, there was no urgent need to pull back.
   Would continue to monitor for arrythmias and consider pulling back if
   patient develops arrythmias.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1494**] [**Name (NI) 785**], MD
   on:[**2135-9-3**] 15:50 ------

2135-09-03 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yr old with ALL s/p prep for allo-BMT, persistent 6 weeks of
   neutropenia
   Course complicated by cdiff colitis, VRE bacteremia, PEA arrest
   Intubated. CVVH started [**8-31**] with fluid removal - 6L/24 hrs
   24 Hour Events:
   Mental status slightly improved.
   Micro reviewed - last positive cultures 10/11 + VRE, lines changed on
   [**8-31**]
   ETT withdrawn
                   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-2**] 10:00 PM
   Linezolid - [**2135-9-3**] 12:00 AM
   Metronidazole - [**2135-9-3**] 03:50 AM
   Meropenem - [**2135-9-3**] 08:20 AM
   Acyclovir - [**2135-9-3**] 08:20 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-9-3**] 12:32 AM
   Pantoprazole (Protonix) - [**2135-9-3**] 08:20 AM
   Other medications:
   estroderm patch, filgrastim, ISS, reglan, prn ipratropium, morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-3**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 111 (103 - 122) bpm
   BP: 148/107(117) {123/80(96) - 182/95,101(127)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  5,307 mL
                                                                  1,573 mL
   PO:
             TF:
                                                                     25 mL
   IVF:
                                                                  3,986 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                 11,342 mL
                                                                    154 mL
   Urine:
                                                                    245 mL
                                                                    154 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,035 mL
                                                                  1,419 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 527 (283 - 537) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 10.2 L/min
   Physical Examination
   Lungs: relatively clear at bases, laterally
   Cardiovascular: (S1: Normal), (S2: Normal), no murmurs
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: anasarca, eyes edematous, conjunctival injection, Skin:
   Warm
   Neurologic: Responds to verbal commands and seems to be responding
   appropriately to simple questions with head movements, opens eyes
   slightly
   Labs / Radiology
   8.1 g/dL
   13 K/uL
   193 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   60 mg/dL
   95 mEq/L
   134 mEq/L
   21.3 %
   0.2 K/uL
        [image002.jpg]
                            [**2135-8-31**]  06:00 PM
                            [**2135-8-31**]  11:00 PM
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
   WBC
   0.1
   0.2
   Hct
   23.6
   23.3
   21.3
   Plt
   14
   64
   19
   13
   Cr
   3.2
   2.7
   2.3
   2.7
   Glucose
   165
   140
   149
   140
   153
   170
   143
   136
   193
   Other labs: PT / PTT / INR:19.0/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:37/96, Alk Phos / T Bili:537/3.2,
   Amylase / Lipase:121/378, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:852 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR reviewed - ETT in good position, HD catheter appears in
   RA, right PICC, OG
   Assessment and Plan
   38F with ALL and multiple acute issues including ARF now on HD,
   continued VRE bacteremia, neutropenia, and altered MS.
   1.        ID:  recurrent VRE bacteremia, most recent positive blood
   culture on [**8-27**].  History of cdiff on flagyl.
   -          Covered broadly for possible VAP for several days as well as
   for ongoing neutropenia.
   -          Continue linezolid for VRE x 2 weeks from last negative
   culture
   -          Meropenem for VAP
 plan for 8 day course given negative
   cultures and can discuss with ID changing GN coverage
   -          PO flagyl for cdiff colitis
 continue while neutropenic and
   on other antibiotics
   -          Caspofungin empirically for neutropenic fever
   -          Acyclovir prophylaxis
   2.        Acute respiratory Failure:
   -          at least in part related to 30+ liter volume overload for
   LOS.  She is also covered for VAP.
   -          on FiO2 0.5/PEEP 8 currently, tolerating. Continue vent
   support. Will likely improve with volume removal
   3.       Altered MS - Significantly more responsive today.
   -          continue to hold sedation, minimal effective morphine dose
   for discomfort
   -          monitor neuro status closely
   4.       Renal:  ARF multifactorial.
   -         Tolerating HD, continue aggressive volume removal
   5.        GI:  LFTs continue to be abnormal with no evidence of biliary
   obstruction.
   -          On low lipid TPN, follow amylase/lipase, TG
   6.       Heme:  HCT< 21 and Platelets < 10 as transfusion goals per
   oncology
   ICU Care
   Nutrition: TPN w/ Lipids - [**2135-9-2**] 06:00 PM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines: dialysis catheter, right PICC
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Communication: ICU consent signed
   Code status: Full code
   Disposition : ICU
   Total time spent: 42 minutes
   Patient is critically ill

2135-09-04 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vaginal bleeding, gave 2 of plts and 2U pRBCs
   - Hypertensive, received 10 mg iv hydralazine x2 and labetolol gtt
   - HD, 5.5 kg off. Plan for HD on [**9-5**].
   - Heme/onc recs: Consider switching back to daptomycin from linezolid
   [**12-18**] bone marrow supression. Will need to check with ID on Sunday.
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-9-3**] 08:20 AM
   Meropenem - [**2135-9-3**] 07:28 PM
   Caspofungin - [**2135-9-3**] 09:46 PM
   Linezolid - [**2135-9-4**] 12:00 AM
   Metronidazole - [**2135-9-4**] 03:44 AM
   Infusions:
   Labetalol - 0.3 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-3**] 08:20 AM
   Hydralazine - [**2135-9-3**] 11:00 PM
   Morphine Sulfate - [**2135-9-4**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2135-9-4**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 101 (88 - 130) bpm
   BP: 116/77(85) {109/64(74) - 166/134(140)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  4,807 mL
                                                                  1,103 mL
   PO:
             TF:
   IVF:
                                                                  1,714 mL
                                                                    557 mL
   Blood products:
                                                                  1,214 mL
   Total out:
                                                                  5,864 mL
                                                                    125 mL
   Urine:
                                                                    364 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
   ICU LOS: 8.2L
                                                                 -1,057 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 530 (338 - 530) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.5 L/min
   Physical Examination
   General: Not responsive this morning; pupils equal and reactive to
   light
   Skin: Papular rash on forehead, unchanged
   Pulm: Coarse breath sounds diffusely
   CV: RRR, normal S1/S2, no murmurs appreciated
   Abd: No bowel sounds appreciated this morning; distended but improved
   Ext: Pitting edema all 4 extremities; warm to touch
   Labs / Radiology
   32 K/uL
   9.8 g/dL
   246 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.5 mEq/L
   87 mg/dL
   94 mEq/L
   128 mEq/L
   25.7 %
   0.3 K/uL
        [image002.jpg]
   AST 75/ ALT 28/ Lipase 270/ AP 492/ Tbili 2.8
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
   WBC
   0.1
   0.2
   0.3
   Hct
   23.6
   23.3
   21.3
   25.7
   Plt
   14
   64
   19
   13
   86
   32
   Cr
   3.2
   2.7
   2.3
   2.7
   3.3
   Glucose
   149
   140
   153
   170
   143
   136
   193
   246
   Other labs: PT / PTT / INR:19.1/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:28/75, Alk Phos / T Bili:492/2.8,
   Amylase / Lipase:121/270, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:795 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Last positive blood culture on [**8-27**].
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with relapsed ALL s/p chemotherapy with VRE sepsis, febrile
   neutropenia, respiratory distress, anion-gap acidosis,  and
   pancreatitis and possible tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Pt with
   increasing WBC count to 0.3 today.  Last positve blood cultures one set
   from [**8-27**] growing VRE from midline (midline was removed).  Pt likely
   has persisent VRE bacteremia. The last previous positive VRE blood
   cultures are from [**8-21**].  Dialysis and PICC line were placed [**8-31**]. Pt
   clinically improving.
   - Continue to monitor surveillance cultures
   - Will continue linezolid for 2 weeks after last negative culture
   (pending new positve blood cx)
        - Discuss with ID possibility of changing from linezolid to
   daptomycin given that linezolid causes bone marrow suppression
   - Continue empiric meropenem, flagyl and caspofungin
   - Daily surveillance cultures, culture if spikes
   - f/u with ID recs if any
   # Acute Renal Failure: Pt started on CVVH ([**9-1**]) and switched to HD on
   [**9-2**]; tolerating well.  Removed 5.5kg of fluid. Pt cont to be
   oliguric.  Cr increased to 3.3. ARF likely multifactorial ATN given PEA
   arrest, nephrotoxic medications, and contrast exposure. Renal U/S no
   hydro.
   - Cont HD on Monday
   - f/u renal recs
   # Respiratory failure: Pt has been off sedation since [**8-29**] with
   improvement in mental status. Pt able to squeeze hands, shake head
   since [**9-2**].  Volume status contributing to continued vent depedence.
   Pt on HD with significant fluid removal daily.  Pt respiratory status
   stable, but some agitation with no sedation. ETT 1-2 cm too high today
 will adjust positioning.
   - Currently on SIMV and tolerating well
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   - f/u CXR regarding ET tube placement
   # Anion gap acidosis, now resolved: Corrected after dialysis.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Does not appear to be zoster and is stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   # Hyperbilirubinemia: Improving with TBili 2.8 today.  CT
   abdomen/pelvis and RUQ U/S did not show signs of hepatobiliary
   pathology causing elevated Tbili.  Uncertain etiology at this point.
   Could be combination of cholestasis, sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   # Elevated amylase: Pt with h/o pancreatitis this admission that had
   since resolved. Lipase trending downwards. Currently on TPN.
   - Monitor pancreatic enzymes
   - Continue TPN
   - TF restarted, trophic feeds
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue Neuopogen
   - Continue meropenem, flagyl IV, vancomycin PO, acyclovir, and
   caspofungin
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco and IV flagyl (pt with decreased gut motility)
   will need for 2 weeks beyond completion of broad-spectrum antibiotics
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   # FEN:
   - Cont TPN via PICC line.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS and insulin in TPN
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Dialysis cath and PICC
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care (as above)
   Nutrition:
   TPN w/ Lipids - [**2135-9-3**] 05:57 PM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-09-04 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yr old with ALL s/p prep for allo-BMT, persistent ~ 6 weeks of
   neutropenia
   Course complicated by cdiff colitis, VRE bacteremia, PEA arrest
   Intubated. CVVH started [**8-31**] with fluid removal, now on HD
   24 Hour Events:
   Transfused 2 u PRBC and platelets for vaginal oozing and clots -
   improved after platelets
   HD with 5.5 L removed
   Mental status slightly improved.
   Labetolol drip on/off
                   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-3**] 09:46 PM
   Linezolid - [**2135-9-4**] 12:00 AM
   Metronidazole - [**2135-9-4**] 03:44 AM
   Meropenem - [**2135-9-4**] 07:30 AM
   Acyclovir - [**2135-9-4**] 07:45 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2135-9-3**] 11:00 PM
   Morphine Sulfate - [**2135-9-4**] 06:11 AM
   Pantoprazole (Protonix) - [**2135-9-4**] 08:06 AM
   Other medications:
   other meds reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-4**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 100 (88 - 130) bpm
   BP: 117/69(81) {108/52(68) - 166/134(140)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  4,807 mL
                                                                  1,667 mL
   PO:
             TF:
   IVF:
                                                                  1,714 mL
                                                                    810 mL
   Blood products:
                                                                  1,214 mL
   Total out:
                                                                  5,864 mL
                                                                    135 mL
   Urine:
                                                                    364 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,057 mL
                                                                  1,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 350 (338 - 530) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Respiratory / Chest: (Expansion: Symmetric), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Distended, Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Neurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   32 K/uL
   246 mg/dL
   3.3 mg/dL
   27 mEq/L
   3.5 mEq/L
   87 mg/dL
   94 mEq/L
   128 mEq/L
   25.7 %
   0.3 K/uL
        [image002.jpg]
                            [**2135-9-1**]  04:17 AM
                            [**2135-9-1**]  11:57 AM
                            [**2135-9-1**]  02:42 PM
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
   WBC
   0.1
   0.2
   0.3
   Hct
   23.6
   23.3
   21.3
   25.7
   Plt
   14
   64
   19
   13
   86
   32
   Cr
   3.2
   2.7
   2.3
   2.7
   3.3
   Glucose
   149
   140
   153
   170
   143
   136
   193
   246
   Other labs: PT / PTT / INR:19.1/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:28/75, Alk Phos / T Bili:492/2.8,
   Amylase / Lipase:121/270, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:795 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR reviewed - ETT in good position, HD catheter appears in
   RA, right PICC, OG
   Assessment and Plan
   38 yr old with ALL s/p prep for allo-BMT, persistent 6 weeks of
   neutropenia
   Course complicated by cdiff colitis, VRE bacteremia, PEA arrest
   Intubated. CVVH started [**8-31**] with fluid removal - 6L/24 hrs, now on HD
   38F with ALL and multiple acute issues including ARF now on HD,
   continued VRE bacteremia, neutropenia, and altered MS.
   1.        ID:  recurrent VRE bacteremia, most recent positive blood
   culture on [**8-27**].  History of cdiff on flagyl.
   -          Covered broadly for possible VAP for several days as well as
   for ongoing neutropenia.
   -          Continue linezolid for VRE x 2 weeks from last negative
   culture, will ask ID about restarting Daptomycin
   -          Received 8 days of Meropenem for VAP
 can discuss with ID
   changing or disontinuing GN coverage
   -          PO flagyl for cdiff colitis
 continue while neutropenic and
   on other antibiotics
   -          Caspofungin empirically for neutropenic fever
   -          Acyclovir prophylaxis
   2.        Acute respiratory Failure:
   -          at least in part related to 25+ liter volume overload for
   LOS.  She was treated for VAP.
   -          on FiO2 0.5/PEEP 8/PS 14 currently, tolerating. Continues to
   vent dependent. Will likely improve with volume removal
   3.       Altered MS - obtunded today but yesterday was  significantly
   more alert yesterday
   -          continue to hold sedation, minimal effective morphine dose
   for comfort
   -          monitor neuro status closely
   4.       Renal:  ARF multifactorial.
   -         Tolerating ultrafiltration by HD, continue aggressive volume
   removal
   5.        GI:  LFTs continue to be abnormal but improving, no evidence
   of biliary obstruction.
   -          On low lipid TPN, follow amylase/lipase, TG
   6.        Neutropenia
 improving
   7.        Heme:  HCT< 21 and Platelets < 10 as transfusion goals per
   oncology
   8.       Vaginal bleeding - improved since platelets transfused [**9-3**]
   ICU Care
   Nutrition: TPN w/ Lipids - [**2135-9-3**] 05:57 PM 70.[**Telephone/Fax (5) 719**]
   mL/hour. Will restart low dose tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2135-09-05 07:02:00 Physician Resident Progress Note
Chief Complaint: VRE Sepsis
   24 Hour Events:
   - Vaginal bleeding once again
   - 5pm platelets 13, given 1U platelets
   - ID recs: Okay to switch gram positive coverage with daptomycin
   (6mg/kg Q48). Linezolid d/c'ed. Recommend TEE to rule out endocarditis
   - if positive, would add gentamycin. Continue meropenem, C. diff
   coverage.
   - Cultures - Budding yeast from PICC blood culture, [**9-1**]
       - ID recs: D/c caspo. Start ambisone 5mg/kg Q24, first dose 10/19.
         Need to remove PICC line and HD catheter.
   - ETT adjusted (pulled back)
   - Increased insulin in TPN
   - Restarted gentle tubefeeds
   - Renal recs: Likely HD instead of ultrafiltration tomorrow ([**9-5**])
   morning
   - Very poor urine production - 286ml over 23 hours
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-3**] 09:46 PM
   Acyclovir - [**2135-9-4**] 07:45 AM
   Linezolid - [**2135-9-4**] 12:00 PM
   Meropenem - [**2135-9-4**] 07:41 PM
   Ambisome - [**2135-9-4**] 09:25 PM
   Metronidazole - [**2135-9-5**] 03:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-4**] 08:06 AM
   Morphine Sulfate - [**2135-9-4**] 11:47 PM
   Hydralazine - [**2135-9-4**] 11:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO, Tube feeds, Parenteral nutrition
   Genitourinary: Foley
   Flowsheet Data as of  [**2135-9-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 119 (97 - 124) bpm
   BP: 146/103(111) {108/52(68) - 160/105(114)} mmHg
   RR: 27 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  3,938 mL
                                                                    722 mL
   PO:
             TF:
                                                                     75 mL
                                                                     65 mL
   IVF:
                                                                  1,752 mL
                                                                    165 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                    286 mL
                                                                    185 mL
   Urine:
                                                                    286 mL
                                                                    180 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                  3,652 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 407 (350 - 512) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds b/l,
   transmitted vent sounds
   Abdominal: Distended, firm, distended, hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Purposeful, Tone: Not assessed, pt
   resists eye opening, did not squeeze hands this AM
   Labs / Radiology
   23 K/uL
   9.3 g/dL
   228 mg/dL
   4.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   109 mg/dL
   94 mEq/L
   128 mEq/L
   24.8 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-1**]  06:45 PM
                            [**2135-9-1**]  09:36 PM
                            [**2135-9-2**]  04:27 AM
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
   WBC
   0.2
   0.3
   0.1
   Hct
   23.3
   21.3
   25.7
   25.2
   24.8
   Plt
   19
   13
   86
   32
   13
   74
   23
   Cr
   2.7
   2.3
   2.7
   3.3
   4.2
   Glucose
   153
   170
   143
   136
   193
   246
   228
   Other labs: PT / PTT / INR:19.5/32.2/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:26/73, Alk Phos / T Bili:510/2.7,
   Amylase / Lipase:121/240, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:795 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo W with relapsed ALL s/p chemotherapy with VRE sepsis, febrile
   neutropenia, respiratory distress, anion-gap acidosis,  and
   pancreatitis and possible tamponade physiology with recent PEA arrest.
   # Sepsis: Continues to be neutropenic with VRE sepsis.  Pt with WBC
   count to 0.1 today (down from 0.1).  New postive blood cx from the
   [**9-1**] growing yeast from PICC line.  Pt was on caspo, but discontinued
   and started on ambisome [**9-4**]. Last positve VRE blood cultures one set
   from [**8-27**] midline (midline was removed).  Pt likely has persisent VRE
   bacteremia, switched to daptomycin ([**9-4**]) from linezolid. Dialysis and
   PICC line were placed [**8-31**].
   - continue daptomycin --> ID recommends TEE and would add gent if
   positive.  Will speak to cards regarding TEE
   - cont ambisome for yeast
   - plan to remove PICC today after midline
   - HD cath, will attempt to treat through infection
   - optho consult for eye exam
   - Continue to monitor surveillance cultures
   - Continue empiric meropenem and c. diff flagyl and po vanc
   - Daily surveillance cultures, culture if spikes
   - f/u with ID recs if any
   # Acute Renal Failure: Pt started on CVVH ([**9-1**]) and switched to HD on
   [**9-2**]; tolerating well.  Pt did not have HD yesterday and was positve
   3.6L  Pt cont to be oliguric.  Cr increased to 4.2. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S no hydro.
   - Cont HD today
   - will cont HD despite positve blood cultures.  Will attempt to treat
   through infection
   - f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**] with
   improvement in mental status. Pt able to squeeze hands, shake head
   since [**9-2**].  Volume status contributing to continued vent depedence.
   Pt on HD with significant fluid removal daily.  Pt respiratory status
   stable, but some agitation with no sedation.
   - Currently on SIMV and tolerating well (will attempt to increase PEEP)
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Has resolved post transfusion.  Will monitor.
   - cont estraderm
   - transfuse plts if active bleeding
   .
   # Anion gap acidosis, now resolved: Corrected after dialysis.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Does not appear to be zoster and is stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Improving with TBili 2.7 today.  CT
   abdomen/pelvis and RUQ U/S did not show signs of hepatobiliary
   pathology causing elevated Tbili.  Uncertain etiology at this point.
   Could be combination of cholestasis, sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Elevated amylase: Pt with h/o pancreatitis this admission that had
   since resolved. Lipase trending downwards. Currently on TPN and TF.
   - Monitor pancreatic enzymes
   - Continue TPN
   - TF restarted, trophic feeds
   .
   # Neutropenic fever: Patient afebrile overnight with two known sources
   of infection with VRE and C. diff.
   - Continue Neuopogen
   - Continue dapto, meropenem, flagyl IV, vancomycin PO, acyclovir, and
   ambisome
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   - Will give vitamin K
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco and IV flagyl (pt with decreased gut motility)
   will need for 2 weeks beyond completion of broad-spectrum antibiotics
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # FEN:
   - Stop TPN via PICC line and will need to be pulled this AM.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS and insulin in TPN
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - will need to be pulled given positve blood cx
   - placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-4**] 04:30 PM 10 mL/hour
   TPN w/ Lipids - [**2135-9-4**] 05:54 PM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2135-8-31**] 12:00 PM
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-09-06 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2135-9-5**] 07:00 PM
 MIDLINE - START [**2135-9-5**] 08:06 PM
   - Pt had ~5L taken off at HD
   - GYN consulted: remove estraderm --> will have withdrawl bleed, plan
   for Lupron at the end of the month.
   - Talk to TEE fellow, would like to get TTE first --> negative for
   vegatations.  Will call TEE fellow in AM w/ results
   - d/c TPN and restarted TF
   - ophtho consulted --> showed diffuse hemorrhage likely due to leukemia
   or spesis, unlikely fungal.  Start artificial tears and erythro
   ointment.
   - IR placement of midline and removed PICC --> sent for cultures
   - CM to setup family meeting Onc/Renal/ICU teams
   - Blood cultures growing yeast from both PICC line (removed) and
   dialysis cath
   - Decreased FiO2 40% and increased PEEP to 10.
   - Pt with hematuria and clots.  Residual ~200-300cc.  Will transfuse 2U
   of plts and then attempt to replace/flush foley
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-3**] 09:46 PM
   Linezolid - [**2135-9-4**] 12:00 PM
   Acyclovir - [**2135-9-5**] 08:49 AM
   Meropenem - [**2135-9-5**] 08:00 PM
   Ambisome - [**2135-9-5**] 10:00 PM
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2135-9-6**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-6**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 113 (92 - 128) bpm
   BP: 157/92(108) {144/88(101) - 170/150(156)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
           Total In:
                                                                  2,849 mL
                                                                  1,107 mL
   PO:
           TF:
                                                                    360 mL
                                                                    259 mL
   IVF:
                                                                  1,004 mL
                                                                    174 mL
   Blood products:
                                                                    581 mL
                                                                    674 mL
   Total out:
                                                                    212 mL
                                                                     56 mL
   Urine:
                                                                    207 mL
                                                                     56 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
   LOS Balance:
                                                                  2,637 mL
                                                                 14,644 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 390 (337 - 521) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/32/99.[**Numeric Identifier 8**]/21/1
   Ve: 13.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Conjunctiva pale, Sclera edema, Bilateral
   pupils round, reactive to light, Left > Right; Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG Tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: ), Fluid in ET tubing - heard
   throughout.
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   8.6 g/dL
   107 mg/dL
   PND mg/dL
   21 mEq/L
   3.6 mEq/L
   PND mg/dL
   100 mEq/L
   139 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
   WBC
   0.2
   0.3
   0.1
   0.1
   Hct
   21.3
   25.7
   25.2
   24.8
   26.3
   22.9
   Plt
   13
   86
   32
   13
   74
   23
   30
   142
   Cr
   2.7
   3.3
   4.2
   TCO2
   25
   Glucose
   136
   193
   246
   228
   107
   Other labs: PT / PTT / INR:20.5/32.2/1.9, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:20/67, Alk Phos / T Bili:341/2.7,
   Amylase / Lipase:77/90, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:677 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR ([**2135-9-5**]): Midline placed via left brachial vein with tip
   in the subclavian vein.
   Microbiology: - [**2135-9-2**] 11:52 am BLOOD CULTURE      Source: Line-r ij
   dialysis catheter.
      Blood Culture, Routine (Preliminary):       YEAST.
      Aerobic Bottle Gram Stain (Final [**2135-9-5**]):    YEAST(S).
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, febrile neutropenia, respiratory
   distress, anion-gap acidosis,  and pancreatitis and possible tamponade
   physiology intubated s/p PEA arrest.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis.  Pt with WBC
   remains at 0.1 today. Postive blood cx from [**9-1**] growing yeast from
   PICC line.  Pt was on caspofungin, which was discontinued and started
   on ambisome on [**9-4**]. Last positve [**Month/Year (2) 1542**] blood cultures one set from
   [**8-27**] midline (midline was removed).  Pt likely has persisent [**Month/Year (2) 1542**]
   bacteremia, switched to daptomycin ([**9-4**]) from linezolid. Dialysis and
   PICC line were placed [**8-31**]. PICC removed yesterday with tip sent for
   cultures.
   - continue daptomycin --> ID recommends TEE and would add gent if
   positive.  TTE yesterday was negative for vegetations. Will get TEE for
   better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg closely
 replete as
   needed.
   - PICC removed
 follow up cultures.
   - HD cath, will attempt to treat through infection
   - Optho consult for eye exam - showed diffuse hemorrhage likely due to
   leukemia or spesis, unlikely fungal.  Start artificial tears and
   erythro ointment.
   - Continue to monitor surveillance cultures
   - Continue empiric meropenem and c. diff flagyl and po vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Pt started on CVVH ([**9-1**]) and switched to HD on
   [**9-2**]; tolerating well.  Pt had ~5L removed yesterday on HD. Pt
   continues to be oliguric.  Cr increased to 4.2 yesterday; today
s labs
   pending. ARF likely multifactorial ATN given PEA arrest, nephrotoxic
   medications, and contrast exposure. Renal U/S no hydro.
   - Will cont HD despite positve blood cultures.  Will attempt to treat
   through infection
   - f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**] with
   improvement in mental status. Pt able to shake head since [**9-2**], though
   not squeezing hands or moving toes this morning.  Volume status
   contributing to continued vent depedence.  Pt on HD with significant
   fluid removal daily.  Pt respiratory status stable, but some agitation
   with no sedation.
   - Currently on SIMV and tolerating well with increase in PEEP to 10,
   decrease in FiO2 to 40% yesterday. AM ABG = 7.49/32/100
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Hematuria: Pt with hematuria and clots.  Residual ~200-300cc.  Will
   transfuse 2U of plts and then attempt to replace/flush foley.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinue estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Anion gap acidosis, now resolved: Corrected after dialysis.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Does not appear to be zoster and is stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: TBili remains at 2.7 today.  CT abdomen/pelvis
   and RUQ U/S did not show signs of hepatobiliary pathology causing
   elevated Tbili.  Uncertain etiology at this point. Could be combination
   of cholestasis, sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Elevated amylase: Pt with h/o pancreatitis this admission that had
   since resolved. Lipase trending downwards. Currently on TPN and TF.
   Amylase within normal limits today.
   - Monitor pancreatic enzymes
   - TF restarted, trophic feeds
   .
   # Neutropenic fever: Patient continues to be afebrile overnight with
   multiple known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now
   yeast.
   - Continue Neuopogen
   - Continue dapto, meropenem, flagyl IV, vancomycin PO, acyclovir, and
   ambisome
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   - Will give vitamin K
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco and IV flagyl (pt with decreased gut motility)
   will need for 2 weeks beyond completion of broad-spectrum antibiotics
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS and insulin in TPN
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter remains in place as no positive cultures have grown
   from this line
   - placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2135-9-4**] 04:30 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of
   state)
   Code status: Full code
   Disposition:ICU

2135-09-06 11:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2135-9-5**] 07:00 PM
 MIDLINE - START [**2135-9-5**] 08:06 PM
   5L removed by HD yesterday, with net neg 2.4L.
   TTE negative for vegetations, hyperdynamic LV, moderate PAH.
   Ophtho eval: diffuse hemorrhage likely due to sepsis or leukemia, less
   likely fungal.
   PICC removed because of fungemia.
   Midline placed.
   PEEP increased to 10 and FiO2 decreased from 0.5-> 0.4.
   Foley changed for clot obstruction.
   TF restarted, TPN discontinued.
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-3**] 09:46 PM
   Linezolid - [**2135-9-4**] 12:00 PM
   Ambisome - [**2135-9-5**] 10:00 PM
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Meropenem - [**2135-9-6**] 07:50 AM
   Acyclovir - [**2135-9-6**] 08:20 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2135-9-6**] 02:30 AM
   Fentanyl - [**2135-9-6**] 09:45 AM
   Other medications:
   allopurinol, PPI, ISS, ipratropium, daptomycin (instead of linezolid)
   Flowsheet Data as of  [**2135-9-6**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 130 (92 - 130) bpm
   BP: 159/98(107) {145/90(103) - 170/150(156)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
           Total In:
                                                                  2,849 mL
                                                                  1,637 mL
   PO:
           TF:
                                                                    360 mL
                                                                    399 mL
   IVF:
                                                                  1,004 mL
                                                                    409 mL
   Blood products:
                                                                    581 mL
                                                                    779 mL
   Total out:
                                                                    212 mL
                                                                    361 mL
   Urine:
                                                                    207 mL
                                                                    361 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,637 mL
                                                                  1,276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 305 (305 - 521) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/32/99.[**Numeric Identifier 8**]/21/1
   Ve: 14 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, bilateral reactive pupils,
   left slightly greater than right, conjunctival hemorrhage
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: Distant HS
   Respiratory / Chest: Rhonchorous
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: No spontaneous movement, Tone: Not assessed, moved fingers of
   right hand on command, nodding in response to questions
   Labs / Radiology
   8.6 g/dL
   142 K/uL
   107 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.6 mEq/L
   80 mg/dL
   100 mEq/L
   139 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
   WBC
   0.2
   0.3
   0.1
   0.1
   Hct
   21.3
   25.7
   25.2
   24.8
   26.3
   22.9
   Plt
   13
   86
   32
   13
   74
   23
   30
   142
   Cr
   2.7
   3.3
   4.2
   3.2
   TCO2
   25
   Glucose
   136
   193
   246
   228
   107
   Other labs: PT / PTT / INR:20.5/32.2/1.9, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:20/67, Alk Phos / T Bili:341/2.7,
   Amylase / Lipase:77/90, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:677 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38F with relapsed ALL, prolonged pancytopenia and progressive decline,
   respiratory failure and  VRE bacteremia.
   Key issues:
          Persistant multifactorial resp failure, though easily
   manageable on vent
          Persistant pancytopenia
          ARF, continues on HD
          Anasarca, continues with goal of net 1-2L neg daily.
          mental status improved today
          resite HD line- d/c today, replace by IR tomorrow
          TEE to r/o vegetations
          Close electrolyte monitoring while on ambisome.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-4**] 04:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ADDENDUM: Family meeting
   Met with pt
s Aunt [**Name (NI) 1557**], and pt
s father (who is HCP) on speaker
   phone, as well as Dr. [**Last Name (STitle) 1109**], Dr [**Last Name (STitle) 1558**] from nephrology, RN [**Doctor First Name 927**],
   [**Doctor First Name 1072**] (onc SW), patient relations [**Doctor First Name 929**]. Discussed family
   frustrations regarding her care, communication, management. Discussed
   prognosis, but the main emphasis was addressing miscommunication
   regarding dialysis management, attitude of team members and family,
   approach to care.
   Duration: 95 minutes.

2135-09-06 12:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2135-9-5**] 07:00 PM
 MIDLINE - START [**2135-9-5**] 08:06 PM
   - 5 Liters removed during HD
   - Consults received:
       - GYN: remove estraderm
 will have withdrawal bleed, plan for
   Lupron at the end of the month.
       - Echo: TTE prior to TEE. TTE negative for vegetations, shows
   hyperdynamic EF with moderate pulmonary hypertension.
       - Ophtho: Exam revealed diffuse hemorrhage likely due to leukemia
   or spesis, unlikely fungal. Made recommendations.
   - TPN discontinued. TF started.
   - IR placement of midline and removed PICC
 sent for cultures
   - Blood cultures growing yeast from both PICC line (removed) and
   dialysis cath
   - Pt with hematuria and clots.  Residual ~200-300cc.  Transfused 2U of
   plts.  Foley replaced.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2135-9-3**] 09:46 PM
   Linezolid - [**2135-9-4**] 12:00 PM
   Acyclovir - [**2135-9-5**] 08:49 AM
   Meropenem - [**2135-9-5**] 08:00 PM
   Ambisome - [**2135-9-5**] 10:00 PM
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2135-9-6**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-6**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 113 (92 - 128) bpm
   BP: 157/92(108) {144/88(101) - 170/150(156)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
            Total In:
                                                                  2,849 mL
                                                                  1,107 mL
   PO:
            TF:
                                                                    360 mL
                                                                    259 mL
   IVF:
                                                                  1,004 mL
                                                                    174 mL
   Blood products:
                                                                    581 mL
                                                                    674 mL
   Total out:
                                                                    212 mL
                                                                     56 mL
   Urine:
                                                                    207 mL
                                                                     56 mL
   NG:
                                                                      5 mL
   Stool:
   Dialysis:
                                                                  -5300 mL
   Balance:
   LOS Balance:
                                                                  -2363 mL
                                                                  9,344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 390 (337 - 521) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/32/99.[**Numeric Identifier 8**]/21/1
   Ve: 13.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Conjunctiva pale, Sclera edema, Bilateral
   pupils round, reactive to light, Left > Right; Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG Tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: ), Fluid in ET tubing - heard
   throughout.
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   8.6 g/dL
   107 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.6 mEq/L
   80 mg/dL
   100 mEq/L
   139 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
   ABG = 7.49/32/100
                            [**2135-9-2**]  09:29 AM
                            [**2135-9-3**]  03:00 AM
                            [**2135-9-3**]  08:15 PM
                            [**2135-9-4**]  03:30 AM
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
   WBC
   0.2
   0.3
   0.1
   0.1
   Hct
   21.3
   25.7
   25.2
   24.8
   26.3
   22.9
   Plt
   13
   86
   32
   13
   74
   23
   30
   142
   Cr
   2.7
   3.3
   4.2
   TCO2
   25
   Glucose
   136
   193
   246
   228
   107
   Other labs: PT / PTT / INR:20.5/32.2/1.9, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:20/67, Alk Phos / T Bili:341/2.7,
   Amylase / Lipase:77/90, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:677 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR ([**2135-9-5**]): Midline placed via left brachial vein with tip
   in the subclavian vein.
   Microbiology: - [**2135-9-2**] 11:52 am BLOOD CULTURE      Source: Line-r ij
   dialysis catheter.
      Blood Culture, Routine (Preliminary):       YEAST.
      Aerobic Bottle Gram Stain (Final [**2135-9-5**]):    YEAST(S).
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, febrile neutropenia, respiratory
   distress, anion-gap acidosis,  and pancreatitis and possible tamponade
   physiology intubated s/p PEA arrest.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis.  Pt with WBC
   remains at 0.1 today. Postive blood cx from [**9-1**] growing yeast from
   PICC line.  Pt was on caspofungin, which was discontinued and started
   on ambisome on [**9-4**]. Last positve [**Month/Year (2) 1542**] blood cultures one set from
   [**8-27**] midline (midline was removed).  Pt likely has persisent [**Month/Year (2) 1542**]
   bacteremia, switched to daptomycin ([**9-4**]) from linezolid. Dialysis and
   PICC line were placed [**8-31**]. PICC removed yesterday with tip sent for
   cultures.
   - continue daptomycin Q48hrs after HD
 ID recommends TEE and would add
   gent if positive.  TTE yesterday was negative for vegetations. Will get
   TEE for better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg closely
 replete as
   needed.
   - PICC removed
 follow up cultures.
   - HD cath, will attempt to treat through infection
   - Optho consult for eye exam - showed diffuse hemorrhage likely due to
   leukemia or spesis, unlikely fungal.  Start artificial tears and
   erythro ointment.
   - Continue to monitor surveillance cultures
   - Continue empiric meropenem and c. diff flagyl and po vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Pt started on CVVH ([**9-1**]) and switched to HD on
   [**9-2**]; tolerating well.  Pt had ~5L removed yesterday on HD. Pt
   continues to be oliguric.  Cr decreased to 3.2, though this value is
   not helpful as she is currently undergoing HD. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S no hydro.
   - Will cont HD despite positve blood cultures.  Will attempt to treat
   through infection
   - f/u renal recs
   .
   # Respiratory failure: Pt has been off sedation since [**8-29**] with
   improvement in mental status. Pt able to shake head since [**9-2**], though
   not squeezing hands or moving toes this morning.  Volume status
   contributing to continued vent depedence.  Pt on HD with significant
   fluid removal daily.  Pt respiratory status stable, but some agitation
   with no sedation.
   - Currently on SIMV and tolerating well with increase in PEEP to 10,
   decrease in FiO2 to 40% yesterday. AM ABG = 7.49/32/100
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Hematuria: Pt with hematuria x1wk and clots.  Residual ~200-300cc.
   Patient transfused 2U of plts. Foley has been replaced.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinue estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Acid-Base: pH=7.49. PCO2=32, HCO3=21, AG=18. Despite an elevated
   anion gap, this patient is currently in respiratory alkalosis. This
   appears to be a combination of respiratory alkalosis and metabolic
   acidosis.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Does not appear to be zoster and is stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: TBili remains at 2.7 today.  CT abdomen/pelvis
   and RUQ U/S did not show signs of hepatobiliary pathology causing
   elevated Tbili.  Uncertain etiology at this point. Could be combination
   of cholestasis, sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Elevated amylase: Pt with h/o pancreatitis this admission that had
   since resolved. Lipase trending downwards. Currently on TPN and TF.
   Amylase within normal limits today.
   - Monitor pancreatic enzymes
   - TF restarted, trophic feeds
   .
   # Neutropenia: Patient continues to be afebrile overnight with multiple
   known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now yeast.
   - Continue Neuopogen
   - Continue dapto, meropenem, flagyl IV, vancomycin PO, acyclovir, and
   ambisome
   .
   # Pancytopenia: Likely in setting of recent reinduction.
   - Transfuse for hct<21 or plt<10 or higher if signs of bleeding
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   - Will give vitamin K
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinue flagyl as she is covered for anaerobes with meropenem
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS and insulin in TPN
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter remains in place as no positive cultures have grown
   from this line
   - placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
 Family meeting today with involved health
   care providers.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2135-9-4**] 04:30 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2135-8-31**] 12:00 PM
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pantoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of
   state)
   Code status: Full code
   Disposition:ICU
   12:29

2135-09-07 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-6**] 09:15 AM
   from dialysis catheter
 URINE CULTURE - At [**2135-9-6**] 10:00 AM
   from new foley catheter placed for bladder irrigation
 DIALYSIS CATHETER - STOP [**2135-9-6**] 10:00 PM
 BLOOD CULTURED - At [**2135-9-7**] 12:13 AM
   from midline
 SPUTUM CULTURE - At [**2135-9-7**] 12:13 AM
   - HD, 5L ultrafiltrated.
   - Determined that patient was +4.8 Liters before transfer to [**Hospital Unit Name 10**].
   - Family meeting yesterday
      - Determined that there should be better communication between
   medical team and patient
s family.
      - Dialysis/ultrafiltration will occur 6/7 days per week (not on
   Sunday)
   - PO metoprolol started 12.5 mg po bid, increased to 25 po bid.
   Received prn hydral and labetolol overnight for tachycardia and
   hypertension and then labetolol gtt.
   - Vas cath pulled after receiving 2 bags of plts.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2135-9-4**] 12:00 PM
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Acyclovir - [**2135-9-6**] 08:20 AM
   Meropenem - [**2135-9-6**] 07:41 PM
   Ambisome - [**2135-9-6**] 10:00 PM
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2135-9-6**] 06:28 PM
   Hydralazine - [**2135-9-6**] 10:28 PM
   Fentanyl - [**2135-9-6**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 96 (95 - 144) bpm
   BP: 126/76(86) {126/74(86) - 200/112(128)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  3,215 mL
                                                                    215 mL
   PO:
             TF:
                                                                    922 mL
                                                                      1 mL
   IVF:
                                                                    817 mL
                                                                    184 mL
   Blood products:
                                                                  1,276 mL
   Total out:
                                                                  5,611 mL
                                                                    700 mL
   Urine:
                                                                    611 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,396 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (305 - 495) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Tube heard throughout, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   28 K/uL
   9.4 g/dL
   116 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   70 mg/dL
   105 mEq/L
   142 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
   WBC
   0.1
   0.1
   Hct
   25.2
   24.8
   26.3
   22.9
   25.5
   Plt
   13
   74
   23
   30
   142
   20
   78
   28
   Cr
   4.2
   3.2
   2.8
   2.8
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 1562**]16
   Other labs: PT / PTT / INR:19.8/32.5/1.9, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:20/67, Alk Phos / T Bili:341/2.7,
   Amylase / Lipase:77/90, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:677 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs:
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodylasis s/p.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.  Pt
   with WBC remains at 0.1 today. Postive blood cx from [**9-1**] growing
   yeast from PICC line.  Patient on ambisome since [**9-4**] for yeast
   coverage. Last positive [**Year (2 digits) 1542**] blood cultures are from [**8-27**]. Patient
   likely has persistent [**Month/Year (2) 1542**] bacteremia, on daptomycin since [**9-4**].
   Dialysis line removed yesterday. Ophtho consult for eye exam - showed
   diffuse hemorrhage likely due to leukemia or spesis, unlikely fungal.
   - Continue daptomycin Q48hrs after HD
 ID recommends TEE and would add
   gent if positive.  TTE was negative for vegetations. Will get TEE for
   better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg with q12hr labs
 replete
   as needed, though currently stable.
   - PICC removed
 follow up cultures.
   - HD cath removed yesterday
   - Continue artificial tears and erythromycin ointment.
   - Continue to monitor surveillance cultures
   - Continue meropenem, PO vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well.  Pt had ~5L removed yesterday on HD. Pt
   continues to be oliguric.  Cr decreased to 2.8, though this value is
   not helpful as she is currently undergoing HD. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S no hydro.
   - Will discuss with renal the plan for HD/ultrafiltration.
   - Ask IR to place necessary lines
   .
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Patient minimally responsive this
   morning. Her mental status seems to wax and wane throughout the day.
   Volume status contributing to continued vent dependence.  Patient on HD
   with significant fluid removal daily.  Pt respiratory status stable,
   but some agitation with no sedation.
   - Currently on SIMV and tolerating well.
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Pancytopenia: Patient continues to be afebrile overnight with
   multiple known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now
   yeast. Patient
s temperature trended upwards and she received Tylenol
   yesterday. Pancytopenia related to chemotherapy prior to transfer to
   [**Hospital Unit Name 10**].
   - Continue Neuopogen
   - Continue dapto, meropenem, vancomycin PO, acyclovir, and ambisome
   - transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
   .
   # Hematuria: Pt with hematuria x1wk and clots. Patient transfused 2U of
   plts yesterday. Foley has been replaced with flushes.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Acid-Base: There appears to be a combination of respiratory alkalosis
   and metabolic acidosis based on yesterday
s values, HCO3=26 today.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Does not appear to be zoster and is stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Resolving. CT abdomen/pelvis and RUQ U/S did not
   show signs of hepatobiliary pathology causing elevated Tbili.
   Uncertain etiology at this point. Could be combination of cholestasis,
   sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   - Will give vitamin K
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter removed yesterday
   - Recent placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
 Family meeting today with involved health
   care providers.
   ICU Care
   Nutrition:
   Comments: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2135-09-07 12:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-6**] 09:15 AM
   from dialysis catheter
 URINE CULTURE - At [**2135-9-6**] 10:00 AM
   from new foley catheter placed for bladder irrigation
 DIALYSIS CATHETER - STOP [**2135-9-6**] 10:00 PM
 BLOOD CULTURED - At [**2135-9-7**] 12:13 AM
   from midline
 SPUTUM CULTURE - At [**2135-9-7**] 12:13 AM
   - HD, 5L ultrafiltrated.
   - Determined that patient was +4.8 Liters before transfer to [**Hospital Unit Name 10**].
   - Family meeting yesterday
      - Determined that there should be better communication between
   medical team and patient
s family.
      - Dialysis/ultrafiltration will occur 6/7 days per week (not on
   Sunday)
   - PO metoprolol started 12.5 mg po bid, increased to 25 po bid.
   Received prn hydral and labetolol overnight for tachycardia and
   hypertension and then labetolol gtt.
   - Vas cath pulled after receiving 2 bags of plts.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2135-9-4**] 12:00 PM
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Acyclovir - [**2135-9-6**] 08:20 AM
   Meropenem - [**2135-9-6**] 07:41 PM
   Ambisome - [**2135-9-6**] 10:00 PM
   Infusions:
   Labetalol - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2135-9-6**] 06:28 PM
   Hydralazine - [**2135-9-6**] 10:28 PM
   Fentanyl - [**2135-9-6**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 96 (95 - 144) bpm
   BP: 126/76(86) {126/74(86) - 200/112(128)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 92 kg
             Total In:
                                                                  3,215 mL
                                                                    215 mL
   PO:
             TF:
                                                                    922 mL
                                                                      1 mL
   IVF:
                                                                    817 mL
                                                                    184 mL
   Blood products:
                                                                  1,276 mL
   Total out:
                                                                  5,611 mL
                                                                    700 mL
   Urine:
                                                                    611 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,396 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (305 - 495) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   Tube heard throughout, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   28 K/uL
   9.4 g/dL
   116 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   70 mg/dL
   105 mEq/L
   142 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-4**]  04:40 PM
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
   WBC
   0.1
   0.1
   Hct
   25.2
   24.8
   26.3
   22.9
   25.5
   Plt
   13
   74
   23
   30
   142
   20
   78
   28
   Cr
   4.2
   3.2
   2.8
   2.8
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 1562**]16
   Other labs: PT / PTT / INR:19.8/32.5/1.9, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:20/67, Alk Phos / T Bili:341/2.7,
   Amylase / Lipase:77/90, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:677 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs:
   Imaging:
   Microbiology:
[**2135-9-7**] 12:12 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2135-9-7**]): <10 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
[**2135-9-6**] 1:20 am STOOL     CONSISTENCY: NOT APPLICABLE      Source: Stool.
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2135-9-7**]):       Feces negative
 for C.difficile toxin A & B by EIA.
[**2135-9-5**] 5:35 pm CATHETER TIP-IV      Source: pic.   **FINAL REPORT [**2135-9-7**]**
      WOUND CULTURE (Final [**2135-9-7**]):    No significant growth.
   Blood Culture x7 Pending
   Urine Culture x1 Pending
   Catheter Tip Culture Pending
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodylasis s/p.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.  Pt
   with WBC remains at 0.1 today. Postive blood cx from [**9-1**] growing
   yeast from PICC line.  Patient on ambisome since [**9-4**] for yeast
   coverage. Last positive [**Year (2 digits) 1542**] blood cultures are from [**8-27**]. Patient
   likely has persistent [**Month/Year (2) 1542**] bacteremia, on daptomycin since [**9-4**].
   Dialysis line removed yesterday. Ophtho consult for eye exam - showed
   diffuse hemorrhage likely due to leukemia or spesis, unlikely fungal.
   - Continue daptomycin Q48hrs after HD
 ID recommends TEE and would add
   gent if positive.  TTE was negative for vegetations. Will get TEE for
   better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg with q12hr labs
 replete
   as needed, though currently stable.
   - PICC removed
 follow up cultures.
   - HD cath removed yesterday
   - Continue artificial tears and erythromycin ointment.
   - Continue to monitor surveillance cultures
   - Continue meropenem, PO vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well.  Pt had ~5L removed yesterday on HD. Pt
   continues to be oliguric.  Cr decreased to 2.8, though this value is
   not helpful as she is currently undergoing HD. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S no hydro.
   - Will discuss with renal the plan for HD/ultrafiltration.
   - Ask IR to place necessary lines
   .
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient restarted on
   lopressor 25mg PO BID.  Also has received labetalol gtt. Patient
   tachycardic as well, denying pain.
   .
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Patient minimally responsive this
   morning. Her mental status seems to wax and wane throughout the day.
   Volume status contributing to continued vent dependence.  Patient on HD
   with significant fluid removal daily.  Pt respiratory status stable,
   but some agitation with no sedation.
   - Currently on SIMV and tolerating well.  Will work towards extubation
   by adjusting PEEP and/or FiO2. Will decrease PEEP today to 8 and
   monitor oxygen saturation.
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Pancytopenia: Patient continues to be afebrile overnight with
   multiple known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now
   yeast. Patient
s temperature trended upwards and she received Tylenol
   yesterday. Pancytopenia related to chemotherapy prior to transfer to
   [**Hospital Unit Name 10**].
   - Continue Neuopogen
   - Continue dapto, meropenem, vancomycin PO, acyclovir, and ambisome
   - transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
   .
   # Hematuria: Pt with hematuria x1wk and clots. Patient transfused 2U of
   plts yesterday. Currently on CBI to prevent clotting. Will remove CBI,
   use large foley.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Acid-Base: There appears to be a combination of respiratory alkalosis
   and metabolic acidosis based on yesterday
s values, HCO3=26 today.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Resolving. CT abdomen/pelvis and RUQ U/S did not
   show signs of hepatobiliary pathology causing elevated Tbili.
   Uncertain etiology at this point. Could be combination of cholestasis,
   sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   - Will give vitamin K
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - Discuss with Onc, after TEE results,  the possibility of bone marrow
   biopsy to assess for presence of leukemia as this may affect
   management.
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter removed yesterday
   - Recent placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:  Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines: Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:  DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition:ICU
   12:34

2135-09-08 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2135-9-7**] 02:30 PM
   Placed in IR
   - Went to IR for HD line placement
   - HD in afternoon
 removed 6L
   - PEEP changed to 8, FiO2 remained at 40% - maintained O2 sat
   - Held tube feeds after midnight for TEE 10 or 11 AM on [**9-8**]
   - Gave 2 units of platelets for platelet count 13 with continued
   vaginal bleeding
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Acyclovir - [**2135-9-7**] 08:01 AM
   Meropenem - [**2135-9-7**] 07:44 PM
   Daptomycin - [**2135-9-7**] 09:30 PM
   Ambisome - [**2135-9-7**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-7**] 08:30 AM
   Morphine Sulfate - [**2135-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-8**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 121 (94 - 125) bpm
   BP: 132/89(98) {101/49(63) - 142/98(106)} mmHg
   RR: 17 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
                  Total In:
                                                                  1,904 mL
                                                                     30 mL
   PO:
                  TF:
                                                                     31 mL
   IVF:
                                                                    810 mL
   Blood products:
                                                                    973 mL
   Total out:
                                                                  6,900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
   ICU LOS Balance:
   Total LOS Balance:
                                                                 -4,996 mL
                                                                    797 mL
                                                                 ~ 5600 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 341 (258 - 393) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: No spontaneous movement, Tone: Not
   assessed
   Labs / Radiology
   13 K/uL
   8.6 g/dL
   120 mg/dL
   2.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   62 mg/dL
   104 mEq/L
   145 mEq/L
   23.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
   WBC
   0.1
   0.1
   Hct
   24.8
   26.3
   22.9
   25.5
   23.3
   Plt
   74
   23
   30
   142
   20
   78
   28
   13
   Cr
   4.2
   3.2
   2.8
   2.8
   2.6
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 1562**]16
   120
   Other labs: PT / PTT / INR:19.1/33.6/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:21/71, Alk Phos / T Bili:303/3.2,
   Amylase / Lipase:67/74, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:579 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Microbiology:
   - [**2135-9-6**] 10:05 pm CATHETER TIP-IV      Source: rij dialysis.  WOUND
   CULTURE (Preliminary): No significant growth.
   - CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2135-9-7**]): Feces
   negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodylasis s/p.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.  Pt
   with WBC remains at 0.1 today. Patient on ambisome since [**9-4**] for
   yeast coverage for positive blood culture on [**9-1**]. Last positive [**Month/Year (2) 1542**]
   blood cultures are from [**8-27**]. Patient likely has persistent [**Month/Year (2) 1542**]
   bacteremia, on daptomycin since [**9-4**].
   - Continue daptomycin Q48hrs after HD - ID recommends TEE and would add
   gent if positive.  TTE was negative for vegetations. Will get TEE for
   better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg with q12hr labs
 replete
   as needed, though currently stable.
   - PICC removed
 follow up cultures.
   - HD cath removed yesterday
 preliminary read shows no significant
   growth
   - Continue artificial tears and erythromycin ointment.
   - Continue to monitor surveillance cultures
   - Continue meropenem, PO vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well.  Pt had ~6L removed yesterday on HD. Pt
   continues to be oliguric.  Cr decreased to 2.6, though this value is
   not helpful as she is currently undergoing HD. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S did not reveal hydronephrosis.
   - Plan to continue daily HD or ultrafiltration
   - Appreciate Renal input
   .
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Patient minimally responsive this
   morning. Her mental status seems to wax and wane throughout the day.
   Volume status contributing to continued vent dependence.  Patient on HD
   with significant fluid removal daily.  Pt respiratory status stable,
   but some agitation with no sedation. Decreased PEEP to 8 yesterday with
   continued oxygen saturation in the high 90s.
   - Currently on SIMV and tolerating well.  Will work towards extubation
   by adjusting PEEP and/or FiO2. Will decrease FiO2 to 30% and continue
   to monitor saturation
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Pancytopenia: Patient continues to be afebrile overnight with
   multiple known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now
   yeast, though temperature trended upwards this morning to 100.1.
   Pancytopenia related to chemotherapy prior to transfer to [**Hospital Unit Name 10**].
   - Tylenol this morning for low grade temperature
   - Continue Neuopogen
   - Continue dapto, meropenem, vancomycin PO, acyclovir, and ambisome
   - transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
 will
   2 units transuse this morning
   .
   # Hematuria: Pt with hematuria x1wk and clots. Currently on CBI to
   prevent clotting. Will remove CBI, use large foley.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient restarted on
   lopressor 25mg PO BID. Overnight, SBP was usually in 130s. Will
   continue current regimen.
   .
   # Acid-Base: There appears to be a combination of respiratory alkalosis
   and metabolic acidosis based on yesterday
s values, HCO3=26 today.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Resolving. CT abdomen/pelvis and RUQ U/S did not
   show signs of hepatobiliary pathology causing elevated Tbili.
   Uncertain etiology at this point. Could be combination of cholestasis,
   sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - Discuss with Onc, after TEE results,  the possibility of bone marrow
   biopsy to assess for presence of leukemia as this may affect
   management.
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter removed yesterday
   - Recent placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition: Tube feeds held after midnight for TEE this AM.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Dialysis Catheter - [**2135-9-7**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition:ICU

2135-09-08 11:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2135-9-7**] 02:30 PM
   Placed in IR
   - Went to IR for HD line placement
   - HD in afternoon
 removed 6L
   - PEEP changed to 8, FiO2 remained at 40% - maintained O2 sat
   - Held tube feeds after midnight for TEE 10 or 11 AM on [**9-8**]
   - Gave 2 units of platelets for platelet count 13 with continued
   vaginal bleeding, with improvement to 98.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2135-9-6**] 03:55 AM
   Vancomycin - [**2135-9-6**] 05:59 AM
   Acyclovir - [**2135-9-7**] 08:01 AM
   Meropenem - [**2135-9-7**] 07:44 PM
   Daptomycin - [**2135-9-7**] 09:30 PM
   Ambisome - [**2135-9-7**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-7**] 08:30 AM
   Morphine Sulfate - [**2135-9-8**] 04:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-8**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 121 (94 - 125) bpm
   BP: 132/89(98) {101/49(63) - 142/98(106)} mmHg
   RR: 17 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69.2 kg (admission): 92 kg
                  Total In:
                                                                  1,904 mL
                                                                     30 mL
   PO:
                  TF:
                                                                     31 mL
   IVF:
                                                                    810 mL
   Blood products:
                                                                    973 mL
   Total out:
                                                                  6,900 mL
                                                                      0 mL
   Urine:
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
   ICU LOS Balance:
   Total LOS Balance:
                                                                 -4,996 mL
                                                                    797 mL
                                                                 ~ 5600 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 341 (258 - 393) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, Conjuctival erythema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended
   Extremities: Right: 4+, Left: 4+, Anasarca
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: No spontaneous movement, Tone: Not
   assessed
   Labs / Radiology
   13 K/uL
   8.6 g/dL
   120 mg/dL
   2.6 mg/dL
   27 mEq/L
   3.5 mEq/L
   62 mg/dL
   104 mEq/L
   145 mEq/L
   23.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-4**]  09:20 PM
                            [**2135-9-5**]  03:00 AM
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
   WBC
   0.1
   0.1
   Hct
   24.8
   26.3
   22.9
   25.5
   23.3
   Plt
   74
   23
   30
   142
   20
   78
   28
   13
   Cr
   4.2
   3.2
   2.8
   2.8
   2.6
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 1562**]16
   120
   Other labs: PT / PTT / INR:19.1/33.6/1.8, CK / CKMB /
   Troponin-T:787/3/0.03, ALT / AST:21/71, Alk Phos / T Bili:303/3.2,
   Amylase / Lipase:67/74, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:579 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Microbiology:
   - [**2135-9-6**] 10:05 pm CATHETER TIP-IV      Source: rij dialysis.  WOUND
   CULTURE: Yeast, not C. albicans.
   - CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2135-9-7**]): Feces
   negative for C.difficile toxin A & B by EIA.
   - Resp Culture: Oropharyngeal flora absent, Yeast, Sparse growth.
   - Urine Culture: Final. No growth.
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodylasis s/p.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.  Pt
   with WBC remains at 0.1 today. Patient on ambisome since [**9-4**] for
   yeast coverage for positive blood culture on [**9-1**]. Last positive [**Month/Year (2) 1542**]
   blood cultures are from [**8-27**]. Patient likely has persistent [**Month/Year (2) 1542**]
   bacteremia, on daptomycin since [**9-4**].
   - Continue daptomycin Q48hrs after HD - ID recommends TEE and would add
   gent if positive.  TTE was negative for vegetations. Will get TEE for
   better assessment of valves.
   - Cont ambisome for yeast
 monitor K and Mg with q12hr labs
 replete
   as needed, though currently stable.
   - PICC removed
 follow up cultures.
   - HD cath removed yesterday
 preliminary read shows no significant
   growth
   - Continue artificial tears and erythromycin ointment.
   - Continue to monitor surveillance cultures
   - Continue meropenem, PO vanc
   - f/u with ID recs if any
   # Acute Renal Failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well.  Pt had ~6L removed yesterday on HD. Pt
   continues to be oliguric.  Cr decreased to 2.6, though this value is
   not helpful as she is currently undergoing HD. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S did not reveal hydronephrosis.
   - Plan to continue daily HD or ultrafiltration
   - Appreciate Renal input
   .
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Patient minimally responsive this
   morning. Her mental status seems to wax and wane throughout the day.
   Volume status contributing to continued vent dependence.  Patient on HD
   with significant fluid removal daily.  Pt respiratory status stable,
   but some agitation with no sedation. Decreased PEEP to 8 yesterday with
   continued oxygen saturation in the high 90s.
   - Currently on SIMV and tolerating well.  Will work towards extubation
   by adjusting PEEP and/or FiO2. Will decrease PEEP to 5 continuing to
   reassess saturation. If doing well, will attempt SBT later today.
   - HD to address volume overload
   - Fentanyl prn
   - Cont to monitor resp status
   .
   # Pancytopenia: Patient continues to be afebrile overnight with
   multiple known sources of infection, including [**Year (2 digits) 1542**], C. diff, and now
   yeast, though temperature trended upward this morning to 100.1.
   Pancytopenia related to chemotherapy prior to transfer to [**Hospital Unit Name 10**].
   - Tylenol this morning for low grade temperature
   - Continue Neuopogen
   - Continue dapto, meropenem, vancomycin PO, acyclovir, and ambisome
   - transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
 will
   2 units transuse this morning
   .
   # Hematuria: Pt with hematuria x1wk and clots. Currently on CBI to
   prevent clotting. Will remove CBI, use large foley.
    .
   #Vaginal bleeding: pt with h/o vaginal bleeding.  Pt is on estraderm
   and transfused plts.  Will monitor.
   - Appreciate Gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   .
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient restarted on
   lopressor 25mg PO BID. Overnight, SBP was usually in 130s. Will
   continue current regimen.
   .
   # Acid-Base: There appears to be a combination of respiratory alkalosis
   and metabolic acidosis based on yesterday
s values, HCO3=26 today.
   - Will monitor chem-7
   - Cont dialysis
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Stable.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   .
   # Hyperbilirubinemia: Resolving. CT abdomen/pelvis and RUQ U/S did not
   show signs of hepatobiliary pathology causing elevated Tbili.
   Uncertain etiology at this point. Could be combination of cholestasis,
   sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   .
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   .
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   .
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - Discuss with Onc, after TEE results,  the possibility of bone marrow
   biopsy to assess for presence of leukemia as this may affect
   management.
   .
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   .
   # PPX: pneumoboots, bowel regimen, mouthcare
   .
   # LINES: Dialysis cath and PICC
   - Dialysis catheter removed yesterday
   - Recent placement of midline
   .
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   .
   # CODE: FULL
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition: Tube feeds held after midnight for TEE this AM.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Dialysis Catheter - [**2135-9-7**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition:ICU
   11:51

2135-09-09 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 yr old with ALL VRE bacteremia
   24 Hour Events:
 FEVER - 103.1
F - [**2135-9-9**] 04:00 AM
   TTE - neg for vegetations
   HD completed for 5 liters negative
   getting 2 units platelets and 2 U PRBC
   Cath tip + yeast
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-9-7**] 09:30 PM
   Ambisome - [**2135-9-7**] 10:00 PM
   Vancomycin - [**2135-9-8**] 06:00 PM
   Meropenem - [**2135-9-9**] 07:40 AM
   Acyclovir - [**2135-9-9**] 08:20 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2135-9-8**] 01:30 PM
   Morphine Sulfate - [**2135-9-8**] 02:37 PM
   Pantoprazole (Protonix) - [**2135-9-9**] 07:40 AM
   Other medications:
   Chlorhex, GCSF, SRRI, Reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2135-9-9**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 38.8
C (101.9
   HR: 122 (98 - 126) bpm
   BP: 140/94(104) {128/83(91) - 152/110(115)} mmHg
   RR: 31 (0 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  1,003 mL
                                                                    892 mL
   PO:
           TF:
                                                                     54 mL
                                                                    213 mL
   IVF:
                                                                    388 mL
                                                                    192 mL
   Blood products:
                                                                    440 mL
                                                                    488 mL
   Total out:
                                                                  6,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,997 mL
                                                                    892 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 404 (360 - 582) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   RSBI Deferred: RR >35, Hemodynamic Instability, Agitated
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 13.4 L/min
   Physical Examination
   Gen: intubated and on HD
   CV: RR
   Chest: fair air movement
   Abd: less distended
   Ext: anasarca
   Labs / Radiology
   8.2 g/dL
   9 K/uL
   67 mg/dL
   3.6 mg/dL
   24 mEq/L
   4.1 mEq/L
   93 mg/dL
   105 mEq/L
   144 mEq/L
   21.6 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-5**]  06:39 PM
                            [**2135-9-6**]  04:20 AM
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
   WBC
   0.1
   Hct
   26.3
   22.9
   25.5
   23.3
   21.6
   Plt
   30
   142
   20
   78
   28
   13
   98
   9
   Cr
   3.2
   2.8
   2.8
   2.6
   3.6
   TCO2
   25
   Glucose
   107
   178
   116
   120
   67
   Other labs: PT / PTT / INR:20.9/36.2/1.9, CK / CKMB /
   Troponin-T:692/3/0.03, ALT / AST:26/90, Alk Phos / T Bili:430/3.5,
   Amylase / Lipase:63/52, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:579 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   Pt seen and examined with Housestaff whose notes reflect our thoughts
   and plans from rounds
 please see for further details.
   In summary, 38F with relapsed ALL, prolonged pancytopenia and
   progressive decline, respiratory failure and  VRE bacteremia now with
   high spiking fevers this AM.
   Active Issues
          Persistant multifactorial resp failure. Tolerated decreased
   support from vent with lower PEEP and FiO2 now. From an oxygenation
   perspective, she is probably close to vent independence but she has
   multiple barriers to extubation: secretions, mental status, profound
   weakness. Convert from SIMV to PSV
          Fungemia: C. torolopsis - + cath tip talk to ID about double
   coverage esp with high fevers today. Pan cx, consider adding back GNR
   double coverage, and also check CMV.
          Persistant Pancytopenia
 stable needs blood and plts today
   as fevers tolerate
          ARF, continues on HD
 success with getting negative
          Anasarca, continues with goal of net 1-2L neg daily.
          Mental status waxing and [**Doctor Last Name 282**]
          Close electrolyte monitoring while on ambisome.
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2135-9-8**] 06:34 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Dialysis Catheter - [**2135-9-7**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   VAP: HOB, chlorhex
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-09-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2135-9-9**] 10:00 AM
 BLOOD CULTURED - At [**2135-9-9**] 10:15 AM
   from dialysis catheter by dialysis rn
 FEVER - 103.8
F - [**2135-9-9**] 07:00 AM
   - Continues to be febrile
   - HD performed
   - Bone marrow biopsy performed - per onc fellow, bone marrow empty
   - Per ID fellow, started tobramycin for additional gram negative
   coverage x1.  Discussed with ID attending last night, will hold
   tobramycin as fevers and rigors likely due to GPC bacteremia. Will also
   discuss with Onc holding acyclovir for bone marrow suppression unless
   she develops mucositis, etc.
   - Blood cultures for [**9-12**] AM grew out GPC in pairs and chains (~12
   hour after collection). Daptomycin changed to linezolid.  Plan is to do
   HD tomorrow and then likely pull HD line.
   - Hypotensive to 87/48, received 500cc bolus
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-8**] 06:00 PM
   Acyclovir - [**2135-9-9**] 08:20 AM
   Daptomycin - [**2135-9-9**] 02:00 PM
   Linezolid - [**2135-9-9**] 08:00 PM
   Meropenem - [**2135-9-9**] 08:00 PM
   Ambisome - [**2135-9-9**] 10:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-9**] 07:40 AM
   Morphine Sulfate - [**2135-9-10**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 37.6
C (99.6
   HR: 134 (81 - 134) bpm
   BP: 109/60(71) {91/50(58) - 143/110(158)} mmHg
   RR: 23 (0 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
   Blood glucose: 350-400
           Total In:
                                                                  3,367 mL
                                                                    951 mL
   PO:
           TF:
                                                                    620 mL
                                                                    208 mL
   IVF:
                                                                  1,509 mL
                                                                    207 mL
   Blood products:
                                                                  1,238 mL
                                                                    537 mL
   Total out:
                                                                  7,600 mL
                                                                    100 mL
   Urine:
                                                                  1,600 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
   ICU LOS: -6.9L
                                                                 -4,233 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 394 (362 - 534) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 123
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 9.7 L/min
   Physical Examination
   General: Not responsive this morning, rapid blinking
   HEENT: Pupils equal and with slow reactivity, L>R
   Skin: Papular rash on forehead improving
   CV: RRR, normal S1/S2, no murmurs
   Pulm: Coarse breath sounds diffusely
   Abd: Decreased bowel sounds; soft, nontender
   Ext: Decreased pitting edema, lower and upper extremities bilaterally
   Labs / Radiology
   6 K/uL
   9.2 g/dL
   353 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   78 mg/dL
   101 mEq/L
   141 mEq/L
   24.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-6**]  05:16 AM
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   Plt
   20
   78
   28
   13
   98
   9
   18
   6
   Cr
   2.8
   2.8
   2.6
   3.6
   2.9
   TCO2
   25
   Glucose
   178
   116
   120
   67
   353
   Other labs: PT / PTT / INR:20.1/37.4/1.9, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:24/71, Alk Phos / T Bili:293/2.9,
   Amylase / Lipase:63/54, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:549 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**]. Last positive [**Month/Year (2) 1542**] blood cultures are from [**8-27**],
   although positive gram positive blood culture now from [**9-9**]. Patient
   likely has persistent [**Month/Year (2) 1542**] bacteremia, on daptomycin since [**9-4**] - on
   [**9-9**] started back on linezolid given resurrgeance of positive blood
   cultures. Also febrile and hypotensive over past 24 hours requiring
   fluid bolus. TEE without indication of endocarditis.
   - Linezolid restarted [**9-10**]; daptomycin d/c'ed
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - Continue meropenem for broad gram negative coverage
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**])
   - HD cath removed [**9-7**]
 preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - Given febrile with rigors yesterday, given 1 dose of tobramycin -
   given that we have positive blood culture from yesterday with gram
   positive bacteria, may d/c tobramycin
   - Remove HD catheter and midline
   - CMV viral load, galactomannan pending
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. On [**9-9**] difficult to arouse in context
   of being febrile, hypotensive, and once again with positive blood
   cultures. Volume status contributing to continued vent dependence.
   Patient on HD with significant fluid removal daily. Respiratory status
   stable, but some agitation with no sedation. Patient has decent
   cough/gag with minimal ET secretions.
   - Currently on SIMV and tolerating well.  Will work towards extubation
   by adjusting PEEP and/or FiO2. PEEP at 5, FiO2 40% and satting well;
   given that patient was hemodynamically unstable over past 24 hours,
   will not try to wean today.
   - HD to address volume overload
   - Fentanyl prn
   # Acute renal failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well. Urine output difficult to assess given
   CBI. ARF likely multifactorial ATN given PEA arrest, nephrotoxic
   medications, and contrast exposure. Renal U/S did not reveal
   hydronephrosis.
   - Plan to continue daily HD or ultrafiltration
   - Appreciate renal input
   - [**Month (only) 11**] need to remove/replace HD line as patient is bacteremic once
   again
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including [**Month (only) 1542**], C. diff, and yeast. Bone marrow biopsy yesterday by
   report without any cells.
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome
   - Per ID recs, may stop acyclovir as marrow suppresant and no active
   viral infection at this time
 discuss with heme/onc if this is okay to
   do at this time.
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
   # Hematuria: Pt with hematuria x1wk and clots. Currently on CBI to
   prevent clotting.
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Stable.
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   # Hyperbilirubinemia: Resolving. CT abdomen/pelvis and RUQ U/S did not
   show signs of hepatobiliary pathology causing elevated Tbili.
   Uncertain etiology at this point. Could be combination of cholestasis,
   sepsis,  bowel edema.
   - Transaminitis nearly resolved
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Dialysis cath and PICC
   - Recent placement of midline - positive blood culture on [**9-10**] drawn
   from this line
   - [**Month (only) 11**] need to replace PICC and dialysis catheter given that patient is
   once again bacteremic
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care (as above)
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-8**] 06:34 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Dialysis Catheter - [**2135-9-7**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-09-10 11:40:00 Physician Attending Progress Note
Chief Complaint: hypotensive, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt with ALL s/p several chemo cycles with subseq. pancytopenia
   In ICU for 23 days with respiratory failure, VRE and fungal sepsis, s/p
   PEA arrests, poor MS, renal failure
   24 Hour Events:
   *Repeat BMBx: dry tap
   *Continued fevers/rigors - dose of tobra given, though later BdCx's
   returned + for GPC's
   *Overnight BP dropped to 90/40', responded to 500 cc bolus
   *HD this am with net removal 4.5 liters
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-8**] 06:00 PM
   Acyclovir - [**2135-9-9**] 08:20 AM
   Daptomycin - [**2135-9-9**] 02:00 PM
   Ambisome - [**2135-9-9**] 10:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Linezolid - [**2135-9-10**] 07:28 AM
   Meropenem - [**2135-9-10**] 07:28 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2135-9-10**] 03:45 AM
   Pantoprazole (Protonix) - [**2135-9-10**] 08:05 AM
   Other medications:
   allopurinol, vanco po, chlorhexideine, neupogen, SSI, Reglan, Atrovent,
   Ambizone, linezolid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-10**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.5
   HR: 137 (81 - 137) bpm
   BP: 106/72(80) {91/50(58) - 137/86(158)} mmHg
   RR: 22 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  3,367 mL
                                                                  1,521 mL
   PO:
           TF:
                                                                    620 mL
                                                                    326 mL
   IVF:
                                                                  1,509 mL
                                                                    658 mL
   Blood products:
                                                                  1,238 mL
                                                                    537 mL
   Total out:
                                                                  7,600 mL
                                                                    400 mL
   Urine:
                                                                  1,600 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,233 mL
                                                                  1,121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 458 (362 - 534) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 123
   RSBI Deferred: RR >35, Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 16.2 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, not responsive
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema, pupils minimally reactive
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), No(t) S3, No(t) S4, (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse BS bilterally
   Abdominal: Soft, No(t) Non-tender, No(t) Distended, No(t) Tender: ,
   Obese, hypoactive BS
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   47 K/uL
   353 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   78 mg/dL
   101 mEq/L
   141 mEq/L
   24.3 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-6**]  04:38 PM
                            [**2135-9-6**]  10:15 PM
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   Plt
   20
   78
   28
   13
   98
   9
   18
   6
   47
   Cr
   2.8
   2.8
   2.6
   3.6
   2.9
   Glucose
   178
   116
   120
   67
   353
   Other labs: PT / PTT / INR:20.1/37.4/1.9, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:24/71, Alk Phos / T Bili:293/2.9,
   Amylase / Lipase:63/54, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:549 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR (reviewed) : ETT in place, edema/effusions decreasing
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
    Newly febrile and recent hypotension after daptomycin stopped. Recent
   BdCultures suggest VRE bacteremia. Back on linezolid, also on
   merepenem, ambisone, acylcovir, po vanco (Cdiff + in [**7-25**])
   Lines are a concerning source but vascular access has been an ongoing
   problem. [**Name (NI) **] pull out vascular cath after HD today. In past has
   required IR guidance for CVL's, but may be able to place now with
   decreased edema-- will review
   fluid resuscitate as needed
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Continues to require ventilatory support. Current
   oxygenation/ventilation on vent settings adequate- continue. Not a
   candidate for weaning due to mental status
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Received HD today
   Tachycardia: Has been in and out of [**Last Name (un) 1642**], though brief run to 150's
   during HD today though spontaneously resolved
   Multiple contributing factors, includng sepsis, recent removal of
   fluids through HD
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Waxing and [**Doctor Last Name 282**], off sedatives for the past 7 days
   Would ultimately benefit from repeat head CT but hemodynamics more
   recently tenuous and need to be stabilized first.
 PANCYTOPENIA
   Still without BM recovery after chemo
   BMBx yesterday; await results
   On neupogen
   Will discuss with ID and Onc- question whether persistent pancytopenia
   could represent drug effect
   Supportive care/transfusion of plts, blood as needed
   Vaginal bleeding/acute blood loss anemia - on estraderm, requires blood
   and platelet transfusion
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Dialysis Catheter - [**2135-9-7**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50  minutes
   Patient is critically ill

2135-09-11 07:03:00 Physician Resident Progress Note
Chief Complaint: [** 1542**] Sepsis
   24 Hour Events:
   - HD Sat had 4.3L taken off,  No HD Sunday per renal recs
   - Pulled HD catheter
   - Given 2U platelets
   - ID recommend d/c acyclovir - paged heme/onc to ask if okay but no
   response
   - Blood glucose consistently running high (350-400) x2 days
   - pt with shaking/twitching per nursing
 EKG - At [**2135-9-10**] 10:30 AM
 DIALYSIS CATHETER - STOP [**2135-9-10**] 08:00 PM
   Placed in IR
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-9-9**] 02:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Acyclovir - [**2135-9-10**] 12:45 PM
   Linezolid - [**2135-9-10**] 08:15 PM
   Meropenem - [**2135-9-10**] 08:15 PM
   Ambisome - [**2135-9-10**] 10:00 PM
   Vancomycin - [**2135-9-11**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-10**] 08:05 AM
   Fentanyl - [**2135-9-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2135-9-11**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.1
   HR: 128 (123 - 141) bpm
   BP: 143/97(107) {79/45(54) - 143/97(107)} mmHg
   RR: 14 (0 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  3,260 mL
                                                                    506 mL
   PO:
             TF:
                                                                    721 mL
                                                                    197 mL
   IVF:
                                                                  1,729 mL
                                                                    308 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                  5,350 mL
                                                                    400 mL
   Urine:
                                                                    850 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,090 mL
                                                                    106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 383 (383 - 557) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: No acute distress, anasarca
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: transmitted vent sounds)
   Abdominal: Distended, hypoactive BS, firm
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   16 K/uL
   8.7 g/dL
   320 mg/dL
   3.6 mg/dL
   22 mEq/L
   3.3 mEq/L
   104 mg/dL
   104 mEq/L
   144 mEq/L
   23.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
   WBC
   <0.1
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   23.5
   Plt
   78
   28
   13
   98
   9
   18
   6
   47
   36
   16
   Cr
   2.8
   2.6
   3.6
   2.9
   3.6
   Glucose
   116
   120
   67
   353
   320
   Other labs: PT / PTT / INR:17.3/28.4/1.6, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:49/117, Alk Phos / T Bili:524/3.1,
   Amylase / Lipase:63/54, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:523 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Microbiology: Bd Cx [**9-9**]: [**Month/Year (2) 1542**]
   Bld Cx [**9-6**]: Yeast
   Bld Cx [**9-5**]: [**Female First Name (un) **] PARAPSILOSIS
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis.
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - Continue meropenem for broad gram negative coverage
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**])
   - will need to place new midline and remove midline. HD cath removed
   [**9-7**]
 preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - f/u CMV viral load
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. On [**9-10**]  pt responds minimally to simple
   commands. Volume status contributing to continued vent dependence.
   Patient on HD with significant fluid removal daily. Respiratory status
   stable, but some agitation with no sedation. Patient has decent
   cough/gag with minimal ET secretions.
   - Currently on SIMV and tolerating well.  Will work towards extubation
   by adjusting PEEP and/or FiO2. PEEP at 5, FiO2 40% and satting well; if
   hemodynamically stable will try to wean today.
   - HD to address volume overload
   - Fentanyl prn
   # Acute renal failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well. Pt had HD line pulled yeaterday. Urine
   output difficult to assess given CBI. ARF likely multifactorial ATN
   given PEA arrest, nephrotoxic medications, and contrast exposure. Renal
   U/S did not reveal hydronephrosis.
   - Plan to place new line on Monday
   - Plan for HD on after new line placement
   - Appreciate renal input
   #Hyperglycemia: Pt with increase blood glucose into the 300's.  Pt is
   on 13 lantus.  Pt required additional 51U of SS yeasterday.
   - will give 10 NPH x1 tonight
   - will increase lantus dose to 25U and inrease SS
   - monitor FS and cover with SS
   .
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible shivers from
   her sepsis.  Will cont to monitor and if progresses t/c EEG or repeat
   imaging.
   .
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow biopsy [**9-9**] by report
   without any cells.
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome
   - Per ID recs, may stop acyclovir as marrow suppresant and no active
   viral infection at this time
 discuss with heme/onc if this is okay to
   do at this time.
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding
   - f/u biopsy results
   # Hematuria: Pt with hematuria x1wk and clots. Currently on CBI to
   prevent clotting.
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Stable.
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   - Pt on acyclovir ppx (f/u ID)
   # Hyperbilirubinemia: slightly increased from yesterday. CT
   abdomen/pelvis and RUQ U/S did not show signs of hepatobiliary
   pathology causing elevated Tbili.  Uncertain etiology at this point.
   Could be combination of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - Feedings initiated as above
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars and on ISS
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline
   - Recent placement of midline - positive blood culture on [**9-10**] drawn
   from this line, will need to remove and get additional access
   # CONTACT: [**First Name8 (NamePattern2) 1014**] [**Known lastname 366**] [**Telephone/Fax (1) 1015**] (lives out of state)
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-10**] 10:46 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2135-09-11 12:06:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Persistent pancytopenia, respiratory failure, sepsis from VRE/fungemia
   24 Hour Events:
 EKG - At [**2135-9-10**] 10:30 AM
 DIALYSIS CATHETER - STOP [**2135-9-10**] 08:00 PM
   Placed in IR (3.4 liters removed) and HD catheter subsequently pullled
   Got 2 units platelets
   History obtained from Medical records, [**Hospital Unit Name 10**] housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-9-9**] 02:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Ambisome - [**2135-9-10**] 10:00 PM
   Vancomycin - [**2135-9-11**] 12:30 AM
   Linezolid - [**2135-9-11**] 08:00 AM
   Meropenem - [**2135-9-11**] 08:00 AM
   Acyclovir - [**2135-9-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-9-11**] 08:45 AM
   Other medications:
   SSI, artificial tears, bowel regimen, Atrovent, lactulose, Reglan
   Merepenem, allopurinol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-11**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 135 (123 - 135) bpm
   BP: 132/78(90) {97/51(62) - 143/97(107)} mmHg
   RR: 23 (0 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  3,260 mL
                                                                  1,305 mL
   PO:
             TF:
                                                                    721 mL
                                                                    346 mL
   IVF:
                                                                  1,729 mL
                                                                    900 mL
   Blood products:
                                                                    810 mL
   Total out:
                                                                  5,350 mL
                                                                    900 mL
   Urine:
                                                                    850 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,090 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 610 (383 - 610) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Distended, hypoactive bs
   Skin:  normal turgor
   Neurologic: Follows simple commands, , Sedated, No(t) Paralyzed, Tone:
   normal, Able to squeeze hands
   Labs / Radiology
   8.7 g/dL
   16 K/uL
   320 mg/dL
   3.6 mg/dL
   22 mEq/L
   3.3 mEq/L
   104 mg/dL
   104 mEq/L
   144 mEq/L
   23.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-6**]  10:30 PM
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   23.5
   Plt
   78
   28
   13
   98
   9
   18
   6
   47
   36
   16
   Cr
   2.8
   2.6
   3.6
   2.9
   3.6
   Glucose
   116
   120
   67
   353
   320
   Other labs: PT / PTT / INR:17.3/28.4/1.6 (unchanged), CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:49/117, Alk Phos / T Bili:524/3.1,
   Amylase / Lipase:63/54, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:523 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Microbiology: BdCx [**9-9**] +VRE
   BdCx [**9-6**] C. parolopsolis
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   Pt with ALL with persistent pancytopenia s/p chemo and complicated ICU
   course including VRE and fungal sepsis, respiratory failure, Cdiff
   colitis, renal failure
   Minimally changed
 fevers continued.
   Pancytopenia- no evidence of BM recovery today. Continue supportive
   care. BM biopsy results pending
   Sepsis: Has VRE and Candidal sepsis and is on linezolid, meripimene, po
   vanco, ambisone
    Will check with Onc re: acyclovir d/c- question whether this could be
   contributing to lack of BM recovery
    Will see if with reduction in edema, peripheral IV
s a possibility
   Acute respiratory failure: remains on ventilator with MS a major
   obstacle. Reasonable to try SBT;s, though not ready to come off vent.
   Continue HD to remove fluid
   ARF: Received HD yesterday, no need for re-dialysis today
   BG
s continue to be high with lantus insulin increased
 add NPH
   insulin
   Other plans as per ICU housestaff note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-10**] 10:46 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-09-12 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-11**] 06:00 PM
   midline
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-9-9**] 02:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Acyclovir - [**2135-9-11**] 09:00 AM
   Meropenem - [**2135-9-11**] 07:21 PM
   Linezolid - [**2135-9-11**] 07:30 PM
   Ambisome - [**2135-9-11**] 10:00 PM
   Vancomycin - [**2135-9-12**] 12:28 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Fentanyl - [**2135-9-12**] 05:53 AM
   Lorazepam (Ativan) - [**2135-9-12**] 05:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-12**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 146 (124 - 146) bpm
   BP: 129/80(90) {109/64(75) - 157/113(123)} mmHg
   RR: 25 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  2,384 mL
                                                                    301 mL
   PO:
             TF:
                                                                    720 mL
                                                                    187 mL
   IVF:
                                                                  1,554 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    950 mL
   Urine:
                                                                    150 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,234 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 523 (447 - 610) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 11.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   16 K/uL
   8.0 g/dL
   391 mg/dL
   3.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   119 mg/dL
   103 mEq/L
   141 mEq/L
   21.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
                            [**2135-9-12**]  03:32 AM
   WBC
   0.1
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   23.5
   21.9
   Plt
   28
   13
   98
   9
   18
   6
   47
   36
   16
   Cr
   2.8
   2.6
   3.6
   2.9
   3.6
   3.5
   Glucose
   116
   120
   67
   353
   320
   391
   Other labs: PT / PTT / INR:16.3/28.4/1.4, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:77/158, Alk Phos / T Bili:738/3.0,
   Amylase / Lipase:29/68, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:505 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-11**] 08:05 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2135-09-12 07:19:00 Physician Resident Progress Note
Chief Complaint: [** 1542**] sepsis with respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-11**] 06:00 PM
   midline- pending
 BLOOD CULTURED - At [**2135-9-12**] 06:26 AM- pending
   - d/c acyclovir per ID for marrow suppression
   - pt given 10 NPH at noon x1 and then PM lantus dose increased to 25U
   - pt continued to have elevated glc and started on insulin gtt
   - Hem/Onc: BM biopsy was empty with no evidence of leukemia
   - Renal t/c holding HD line placement for 48hr line holiday
   - pt needs midline pulled and new midline placed or possible PIV if
   able to get (ideal)
   -  Check tobramycin level this am 1.6
   FS in 24 hrs 464-353. Last at 7am 364
   Patient unable to provide history:
   obtunded
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2135-9-9**] 02:00 PM
   Tobramycin - [**2135-9-10**] 03:20 AM
   Acyclovir - [**2135-9-11**] 09:00 AM
   Meropenem - [**2135-9-11**] 07:21 PM
   Linezolid - [**2135-9-11**] 07:30 PM
   Ambisome - [**2135-9-11**] 10:00 PM
   Vancomycin - [**2135-9-12**] 06:00 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Fentanyl - [**2135-9-12**] 05:53 AM
   Lorazepam (Ativan) - [**2135-9-12**] 05:53 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to attain from pt
   Flowsheet Data as of  [**2135-9-12**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 131 (124 - 146) bpm
   BP: 112/57(69) {85/44(55) - 157/113(123)} mmHg
   RR: 0 (0 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  2,384 mL
                                                                    710 mL
   PO:
           TF:
                                                                    720 mL
                                                                    215 mL
   IVF:
                                                                  1,554 mL
                                                                    383 mL
   Blood products:
   112 mL
   Total out:
                                                                    150 mL
                                                                    950 mL
   Urine:
                                                                    150 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,234 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 523 (447 - 610) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, Sclera edema, sluggishly reactive, sclera
   injected
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, no rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   16 K/uL
   8.0 g/dL
   391 mg/dL
   3.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   119 mg/dL
   103 mEq/L
   141 mEq/L
   21.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-7**]  04:00 AM
                            [**2135-9-8**]  03:00 AM
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
                            [**2135-9-12**]  03:32 AM
   WBC
   0.1
   Hct
   25.5
   23.3
   21.6
   29.8
   24.3
   23.5
   21.9
   Plt
   28
   13
   98
   9
   18
   6
   47
   36
   16
   Cr
   2.8
   2.6
   3.6
   2.9
   3.6
   3.5
   Glucose
   116
   120
   67
   353
   320
   391
   Other labs: PT / PTT / INR:16.3/28.4/1.4, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:77/158, Alk Phos / T Bili:738/3.0,
   Amylase / Lipase:29/68, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:505 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis.
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - Continue meropenem for broad gram negative coverage
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**], PIV
s in place. HD cath removed [**9-7**]
   preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - f/u CMV viral load
 pending from [**9-9**]
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Pt currently not responding to command.
   Volume status improved with HD now -7L in LOS- but still could be
   contributing to continued vent dependence.  Patient last had HD [**9-10**]
   and currently on line holiday. SBT today going well. Pt w/ some
   agitation- getting PRN ativan. Patient has decent cough/gag with
   moderate ET secretions.
   - Currently on SBT and tolerating well so far.
   - HD on line holiday for now but will likely be needed in near future
   to address volume overload
   - Fentanyl prn
   # Acute renal failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well. Pt had HD line pulled [**9-10**]. Urine output
   difficult to assess given CBI. ARF likely multifactorial ATN given PEA
   arrest, nephrotoxic medications, and contrast exposure. Renal U/S did
   not reveal hydronephrosis.
   - Plan to place new line Tues or Wed
   - Plan for HD after new line placement
   - Appreciate renal input
   #Hyperglycemia: Pt with increase blood glucose into the 300-400
   necessitating pt on Insulin gtt yesterday
   -currently on 4 units /hr insulin gtt
   .
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible shivers from
   her sepsis.  Will cont to monitor and if progresses t/c EEG or repeat
   imaging.
   .
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow biopsy [**9-9**] by report
   without any cells.
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt got
   2 units PRBCs and plt today
   - f/u final BM biopsy results from [**9-9**]
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting.
   -Will consult urology today
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Hypotensive this am. Midline
   was pulled, PIV
s placed and pt currently holding steady in 110s/50s
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili stable at 3.0 currently. CT abdomen/pelvis
   and RUQ U/S did not show signs of hepatobiliary pathology causing
   elevated Tbili.  Uncertain etiology at this point. Could be combination
   of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - cont TF
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]- final results pending
   # FEN:
   - TPN discontinued as PICC was removed.
   - Continue TF at goal currently of 30cc/hr
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin gtt
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline removed [**9-12**]. Currently 2 PIV
s in place
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-11**] 08:05 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2135-9-5**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient and was physically present with the ICU
   resident and fellow for key portions of the services provided.  Patient
   continues to be critically ill, ventilated, sedated albeit opens eyes
   to touch.  Lungs with occasional rhonchi, no wheeze, abdomen distended,
   occ. BS, trace to 1+ edema. Continues neutropenic, repeat BM biopsy
   essentially empty. Have stopped acyclovir given possibility this is
   contributing to BM suppression. Repeat positive blood culture for
   enterococcus. Have taken midline out, two peripheral IVs placed.  Poor
   glucose control requiring the addition of an insulin drip likely
   secondary to persistent bacteremia.  Transfused ptls for plt count <
   5K. Else,  I agree with Dr. [**Last Name (STitle) **]
s assessment and plan above.
   Prognosis poor.  Total time spend 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-9-12**] 17:20 ------

2135-09-13 08:02:00 Physician Resident Progress Note
Chief Complaint: Sepsis with pancytopenia
   24 Hour Events:
 MIDLINE - STOP [**2135-9-12**] 11:44 AM
 NASAL SWAB - At [**2135-9-12**] 01:21 PM
   - Mid-line pulled
   - 2 PIVs placed
   - Transfused 2 U PRBC (very slowly, last unit didn't come up until 8pm)
   - Renal: line holiday to 24-48hrs after - Bl Cx
   - ID: Check diff and ANC, consider change to fluconozole if LFTs nl.
   - Urology: Continue CBI, start ditropan down NG tube for bladder spasm.
   - Get SBT in AM
   - Insulin gtt stopped -> started on Reg ISS--> Restarted o/n with BS
   >300
   - Neuro consult tomorrow.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-9-11**] 09:00 AM
   Meropenem - [**2135-9-12**] 07:30 PM
   Linezolid - [**2135-9-12**] 08:00 PM
   Ambisome - [**2135-9-12**] 10:30 PM
   Vancomycin - [**2135-9-13**] 05:24 AM
   Infusions:
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-12**] 08:00 AM
   Lorazepam (Ativan) - [**2135-9-13**] 04:00 AM
   Fentanyl - [**2135-9-13**] 04:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain from pt at this time.
   Flowsheet Data as of  [**2135-9-13**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 141 (123 - 141) bpm
   BP: 143/119(124) {93/42(58) - 143/119(124)} mmHg
   RR: 25 (10 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  3,606 mL
                                                                    334 mL
   PO:
             TF:
                                                                    720 mL
                                                                    234 mL
   IVF:
                                                                  1,710 mL
                                                                     99 mL
   Blood products:
                                                                  1,056 mL
   Total out:
                                                                  2,080 mL
                                                                    600 mL
   Urine:
                                                                  2,080 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,526 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 688 (415 - 688) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: Sclera edema, conjunctival injection
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, wiggles toes and squeezes
   hand but will not open eyes to command
   Labs / Radiology
   6 K/uL
   9.3 g/dL
   357 mg/dL
   3.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   128 mg/dL
   107 mEq/L
   145 mEq/L
   25.9 %
   0.0 K/uL
        [image002.jpg]
                            [**2135-9-8**]  09:23 AM
                            [**2135-9-9**]  04:38 AM
                            [**2135-9-9**]  02:50 PM
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
                            [**2135-9-12**]  03:32 AM
                            [**2135-9-12**]  10:45 AM
                            [**2135-9-13**]  03:27 AM
   WBC
   0.1
   0.0
   Hct
   21.6
   29.8
   24.3
   23.5
   21.9
   25.9
   Plt
   98
   9
   18
   6
   47
   36
   16
   45
   6
   Cr
   3.6
   2.9
   3.6
   3.5
   3.0
   Glucose
   67
   353
   320
   391
   357
   Other labs: PT / PTT / INR:17.2/31.5/1.6, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:81/113, Alk Phos / T Bili:712/3.1,
   Amylase / Lipase:29/68, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:505 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   .
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis [**9-8**].  Now
   growing GNR from blood cx [**9-11**] and [**9-12**] despite being on meropenem
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - Consider changing meropenem for  gram negative coverage as now has
   GNR bacteremia- will d/w ID
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**], PIV
s in place. HD cath removed [**9-7**]
   preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - f/u CMV viral load
 pending from [**9-9**]
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Pt currently responding to command.
   Volume status improved with HD now -6.3L in LOS- but still could be
   contributing to continued vent dependence.  Patient last had HD [**9-10**]
   and currently on line holiday. SBT yesterday went well for several hrs.
   Pt w/ some agitation- getting PRN ativan. Patient has decent cough/gag
   with moderate ET secretions.
   - Consider SBT today.
   - HD on line holiday for now but will reconsider placing line tomorrow
   - Fentanyl prn
   # Acute renal failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well. Pt had HD line pulled [**9-10**]. Urine output
   difficult to assess given CBI. ARF likely multifactorial ATN given PEA
   arrest, nephrotoxic medications, and contrast exposure. Renal U/S did
   not reveal hydronephrosis.
   - Plan to place new line perhaps tomorrow
   - Plan for HD after new line placement
   - Appreciate renal input
   #Hyperglycemia: Pt with increase blood glucose into the 300-400
   necessitating pt to be put back on  Insulin gtt o/n
   -cont insulin gtt for now
   .
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible shivers from
   her sepsis.  Will cont to monitor and if progresses t/c EEG or repeat
   imaging.
   .
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome- talk to
   ID today about possibly adding better GNR coverage.
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 2 units plt today once she is no longer febrile
   - f/u final BM biopsy results from [**9-9**]
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted yesterday and recommended starting
   ditropan for bladder spasm and cont CBI.
   -Will cont CBI for [**Male First Name (un) **]
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. BP now steady at 110-130's/
   40's-70's
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili stable at 3.0 currently. CT abdomen/pelvis
   and RUQ U/S did not show signs of hepatobiliary pathology causing
   elevated Tbili.  Uncertain etiology at this point. Could be combination
   of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   - cont TF
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]- final results pending
   # FEN:
   - Continue TF at goal currently of 30cc/hr
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin gtt
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline removed [**9-12**]. Currently 2 PIV
s in place
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-13**] 05:27 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2135-9-12**] 11:58 AM
   22 Gauge - [**2135-9-12**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient with the medical resident, reviewed 24
   hour events, and was present during key portions of the services
   provided.  Patient continues critically ill, intubated/ventilated for
   respiratory failure.  Major new events include transfusion of 2 u
   pRBCs, positive blood cultures for GNR on [**11-1**] drawn from the
   midline (which was taken out yesterday).  Continues to require insulin
   drip albeit sugars still >300.  Spiking fevers with rigors this am.
   Not responding to commands.  Lungs with scattered rhonchi, no wheeze.
   Abdomen moderately distended, occ bowel sounds.  Edema unchanged.  ANC
   remains 0. Plts 6K this am albeit having to hold on transfusion given
   rigors.  Now 40 days out from chemoRx. Discussed with heme onc service
   who notes median time for BM to come back after this may be in the
   range of 4 to 6 weeks.  While bone marrow biopsy last week empty may be
   sampling issue and may need to consider repeat biopsy albeit risky
   given low platelets. Now with GNR bacteremia, line has been
   discontinued. Continues broad spectrum antifungals/antibiotics
   including meropenim.  Will discuss redosing with tobra vs other choice
   to broaden gram negative coverage with ID service.  Consider echo to
   rule out vegetations if she continues to have positive cultures,
   possible CT abdomen.  As she continues without recovering her BM
   function she is at increasing risk for further life threatening
   infections with resistant organisms.  Repeat blood cultures today given
   rigors/fever.  Followup on sensitivities once organism identified.
   Discussed arranging another family meeting with patients aunt this
   Thursday, social work to arrange.  Will also request that heme onc be
   available for meeting as aunt is planning on traveling to [**Name (NI) 490**] next
   Monday and she wants to be fully updated on recent course.
   Otherwise agree with assessment and plan as per Dr. [**Last Name (STitle) **]
s note
   above.
   Total time spent: 70 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-9-13**] 16:53 ------

2135-09-14 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2135-9-13**] 01:40 PM
 FEVER - 101.4
F - [**2135-9-14**] 05:00 AM
   - Rigors and febrile for most of the day
   - Tachy to 140s
   - Tobramycin re-dosed
   - RUQ
   - 500NS bolus x2
   - Neuro Consulted
   - Bactrim 450mg IV x1 for empiric Steno coverage
   - Demerol given (then d/c'd [**12-18**] to potential interaction, serotonin
   syndrome, with Linezolid)
   - 7 point Hct Drop (from 25.9 to 18.9) transfused 2pRBCs, 2 platelets
   - Continued passing of clots vaginally
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-9-11**] 09:00 AM
   Vancomycin - [**2135-9-13**] 05:24 AM
   Tobramycin - [**2135-9-13**] 06:23 PM
   Meropenem - [**2135-9-13**] 07:30 PM
   Linezolid - [**2135-9-13**] 08:00 PM
   Bactrim (SMX/TMP) - [**2135-9-13**] 10:18 PM
   Ambisome - [**2135-9-13**] 10:19 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-13**] 08:10 AM
   Meperidine (Demerol) - [**2135-9-13**] 02:47 PM
   Lorazepam (Ativan) - [**2135-9-13**] 11:30 PM
   Fentanyl - [**2135-9-14**] 05:06 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt currently unresponsive
   Flowsheet Data as of  [**2135-9-14**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 138 (129 - 150) bpm
   BP: 85/46(55) {77/37(48) - 123/77(87)} mmHg
   RR: 30 (0 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  6,267 mL
                                                                  3,559 mL
   PO:
           TF:
                                                                    720 mL
                                                                    210 mL
   IVF:
                                                                  5,277 mL
                                                                  2,109 mL
   Blood products:
   1,150 mL
   Total out:
                                                                  1,500 mL
                                                                    400 mL
   Urine:
                                                                  1,500 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,767 mL
                                                                  3,159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (426 - 739) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 14.6 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash:
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   No(t) Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   22 K/uL
   7.9 g/dL
   175 mg/dL
   2.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   121 mg/dL
   109 mEq/L
   144 mEq/L
   21.1 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
                            [**2135-9-12**]  03:32 AM
                            [**2135-9-12**]  10:45 AM
                            [**2135-9-13**]  03:27 AM
                            [**2135-9-13**]  09:15 PM
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
   WBC
   0.1
   0.0
   0.1
   0.1
   Hct
   24.3
   23.5
   21.9
   25.9
   18.9
   24.5
   21.1
   Plt
   6
   47
   36
   16
   45
   6
   5
   22
   Cr
   2.9
   3.6
   3.5
   3.0
   2.6
   Glucose
   353
   320
   391
   357
   175
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:55/73, Alk Phos / T Bili:445/4.0,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:412 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis [**9-8**].  Now
   growing GNR from blood cx [**9-11**] -[**9-13**]  despite being on meropenem.
   Tobramycin given yesterday. Bactrim x1 also given. CXR without PNA. US
   RUQ w/o source of infxn
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - On meropenem and Tobramycin- will discuss redosing Tobra today with
   ID.
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**], PIV
s in place. HD cath removed [**9-7**]
   preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - f/u CMV viral load
 pending from [**9-9**]
   - Appreciated ID recs
   -Pt may need pressors today- will need to discuss this with aunt and
   father. [**Name (NI) 11**] need central line placement
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   improvement in mental status. Pt currently  not responding to command.
   Volume status now + in LOS with 3L bolused plus blood products o/n and
   hypotension.  Patient last had HD [**9-10**] and currently on line holiday.
   Pt w/ some agitation- getting PRN ativan, fentanyl. Patient has decent
   cough/gag with moderate ET secretions.
   - Will continue PS 15/5 with 40% O2 for now
   - HD on line holiday for now pending management of current hypotension
   - Fentanyl prn
   # Acute renal failure: Patient started on CVVH on [**9-1**] and switched to
   HD on [**9-2**]; tolerating well. Pt had HD line pulled [**9-10**]. Urine output
   difficult to assess given CBI. ARF likely multifactorial ATN given PEA
   arrest, nephrotoxic medications, and contrast exposure. Renal U/S did
   not reveal hydronephrosis.
   - Hold on new line placement and HD for now- Cr down to 2.6 and pt
   putting out volume but difficult to measure with CBI
   - Appreciate renal input
   #Hyperglycemia: Pt with better glucose control at 128-288 o/n
   -cont insulin gtt for now
   .
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible rigors  from
   her sepsis.  EEG ordered for today
   .
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome- talk to
   ID today about dosing of tobramycin
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 2 units RBCs this am. Awaiting rpt plt to order these
   - f/u final BM biopsy results from [**9-9**]
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted yesterday and recommended starting
   ditropan, Tolterodin for bladder spasm and cont CBI.
   -Will cont CBI for now
   -Appreciate urology recs
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   - Start Lupron at end of month
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Pt currently septic with
   hypotension and will possibly need pressors today
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili up to 4 today- ? [**12-18**] hemolysis. Rpt RUQ
   U/S did not show signs of hepatobiliary pathology causing elevated
   Tbili.  Uncertain etiology at this point. Could be combination of
   cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin- will fractionate bili today
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]- final results pending
   # FEN:
   - Hold TF for now as pt may need central line today
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin gtt
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline removed [**9-12**]. Currently 2 PIV
s in place- if pressors
   are needed, will need to place a central line
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-14**] 01:48 AM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   22 Gauge - [**2135-9-12**] 11:58 AM
   20 Gauge - [**2135-9-13**] 10:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2135-09-14 09:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   38 y.o. woman with persistent
   24 Hour Events:
 ULTRASOUND - At [**2135-9-13**] 01:40 PM
 FEVER - 101.4
F - [**2135-9-14**] 05:00 AM
   Hct dropped from 25 to 18
   Hypotensive with SBP 70's; responsive to IVF NS bolus 3L
   Transfused 2 u pRBCs, 2 bags platelets
   Persistent hematuria; vaginal bleeding
   Received bactrim IV x1 and tobramycin x 1
   Continues to require insulin drip
   History obtained from Medical records
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2135-9-11**] 09:00 AM
   Vancomycin - [**2135-9-13**] 05:24 AM
   Tobramycin - [**2135-9-13**] 06:23 PM
   Meropenem - [**2135-9-13**] 07:30 PM
   Linezolid - [**2135-9-13**] 08:00 PM
   Bactrim (SMX/TMP) - [**2135-9-13**] 10:18 PM
   Ambisome - [**2135-9-13**] 10:19 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Meperidine (Demerol) - [**2135-9-13**] 02:47 PM
   Lorazepam (Ativan) - [**2135-9-13**] 11:30 PM
   Fentanyl - [**2135-9-14**] 05:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley, CBI
   Heme / Lymph: Anemia, thrombocytopenia
   Psychiatric / Sleep: unresponsive
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2135-9-14**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 138 (129 - 150) bpm
   BP: 85/46(55) {77/37(48) - 118/77(85)} mmHg
   RR: 30 (0 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  6,267 mL
                                                                  3,591 mL
   PO:
           TF:
                                                                    720 mL
                                                                    232 mL
   IVF:
                                                                  5,277 mL
                                                                  2,119 mL
   Blood products:
   1,150 mL
   Total out:
                                                                  1,500 mL
                                                                    400 mL
   Urine:
                                                                  1,500 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,767 mL
                                                                  3,191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (426 - 552) mL
   PS : 15 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 14.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), C an't appreciate murmur in
   setting of tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   7.9 g/dL
   22 K/uL
   175 mg/dL
   2.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   121 mg/dL
   109 mEq/L
   144 mEq/L
   21.1 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-10**]  03:25 AM
                            [**2135-9-10**]  08:27 AM
                            [**2135-9-10**]  08:14 PM
                            [**2135-9-11**]  02:38 AM
                            [**2135-9-12**]  03:32 AM
                            [**2135-9-12**]  10:45 AM
                            [**2135-9-13**]  03:27 AM
                            [**2135-9-13**]  09:15 PM
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
   WBC
   0.1
   0.0
   0.1
   0.1
   Hct
   24.3
   23.5
   21.9
   25.9
   18.9
   24.5
   21.1
   Plt
   6
   47
   36
   16
   45
   6
   5
   22
   Cr
   2.9
   3.6
   3.5
   3.0
   2.6
   Glucose
   353
   320
   391
   357
   175
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:55/73, Alk Phos / T Bili:445/4.0,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, Fibrinogen:862 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.6 g/dL, LDH:412 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION:  Tube feeds being held for planned procedures.  Will
   need to restart this afternoon.
 EDEMA, PERIPHERAL:  Now with trace edema.  No need for further
   dialysis/ultrafiltration.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC (NOT ARDS/[**Doctor Last Name 2**]):  Continues on
   mechanical ventilation, minimal secretions.  CXR unchanged, ETT too far
   in, pulled back. Repeat CXR pending.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Creatinine
   continues to improve. However given new hypotension will need to watch
   closely as she is at high risk for ATN. Dosing meds accordingly,
   following tobra levels.
 BACTEREMIA: Persistent gram negative bacteremia.  Plan for TTE and
   abdominal/chest/head CT once hemodynamically stabilized.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Difficult to fully assess
   given persistent infections, toxic metabolic component.  Appreciate
   input from the neurology consultants.  EEG today.  Head CT when more
   stable.
  LIVER FUNCTION ABNORMALITIES:  Continue to increase.   [**Month (only) 11**] be
   related to hypotension but concerned that infection may involve liver.
   CT when stable.
 NEUTROPENIA:  No change in counts, now day #41 out from chemotherapy.
   As more time passes it becomes less likely to expect recovery of BM.
 HYPOTENSION: Secondary to blood loss and hypovolemia.  Also given
   multiple positive blood cultures for gram negative rods likley
   component of septic shock.
 ANEMIA SECONDARY TO BLOOD LOSS:  Persistent active bleeding through
   bladder and possibly vaginal bleeding albeit difficult to distinguish
   from clot around foley catheter coming from bladder.  Will reconsult
   gynecology.  Had recommended lupron in the past.  Also sending labs to
   rule out hemolysis.  Transfuse platelets.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):   Septic shock as above
   under hypotension.  Plan for placement of central line under US
   guidance.  Will give FFP for INR 1.7 and platelets prior to procedure
   as well to reduce bleeding complications.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2135-9-14**] 01:48 AM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   22 Gauge - [**2135-9-12**] 11:58 AM
   20 Gauge - [**2135-9-13**] 10:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2135-09-15 08:00:00 Physician Resident Progress Note
Chief Complaint: Sepsis, pancytopenia s/p chemotherapy
   24 Hour Events:
 EEG - At [**2135-9-14**] 09:30 AM
 FEVER - 102.0
F - [**2135-9-15**] 12:00 AM
   -EEG was started (to be done for 24 hrs)
   -CT head, chest, abd and pelvis was done. prelim read- CT chest w/
   atelecasis possible edema vs infection. CT head with "tiny" left
   parietal bleed and dilation of the ventricles. No evidence of hematoma
   -Neuro does not think that IP bleed is related to change in mental
   status. Would like to try to keep platelets >30 or so in the setting of
   this new bleed
   - Blood cultures growing out Stenotrophomonas- ? respiratory source.
   Started high dose IV bactrim (pt now on meropenem, PO vanco, ambisome,
   linezolid and bactrim)
   -Hct stable this afternoon
   -TTE without evidence of endocarditis
   -GYN wanted to start lupron for vaginal bleeding. Also wanted to start
   Femring but unable to obtain this from in-house pharmacy currently
   -Pt was transitioned back to SIMV from CPAP in the afternoon
   -given platelets 1 units and 2u PRBCs. In the evening, gave another 2
   units platelets
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-13**] 05:24 AM
   Tobramycin - [**2135-9-13**] 06:23 PM
   Linezolid - [**2135-9-14**] 07:31 PM
   Ambisome - [**2135-9-14**] 10:08 PM
   Bactrim (SMX/TMP) - [**2135-9-15**] 04:00 AM
   Meropenem - [**2135-9-15**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-9-14**] 08:00 AM
   Fentanyl - [**2135-9-15**] 06:29 AM
   Lorazepam (Ativan) - [**2135-9-15**] 06:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to be attained [**12-18**] pt unresponsiveness
   Flowsheet Data as of  [**2135-9-15**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.5
   HR: 147 (130 - 154) bpm
   BP: 100/56(65) {81/42(52) - 129/76(90)} mmHg
   RR: 39 (0 - 42) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  7,283 mL
                                                                    867 mL
   PO:
             TF:
                                                                    183 mL
   IVF:
                                                                  3,601 mL
                                                                    867 mL
   Blood products:
                                                                  2,419 mL
   Total out:
                                                                  2,000 mL
                                                                    100 mL
   Urine:
                                                                  1,400 mL
   NG:
                                                                    600 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  5,283 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 464 (443 - 615) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 16.6 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL, pupils sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Diminished: bilaterally at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   22 K/uL
   8.1 g/dL
   219 mg/dL
   2.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   117 mg/dL
   109 mEq/L
   143 mEq/L
   21.4 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-12**]  03:32 AM
                            [**2135-9-12**]  10:45 AM
                            [**2135-9-13**]  03:27 AM
                            [**2135-9-13**]  09:15 PM
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
                            [**2135-9-14**]  02:06 PM
                            [**2135-9-14**]  07:59 PM
                            [**2135-9-15**]  12:00 AM
                            [**2135-9-15**]  03:29 AM
   WBC
   0.1
   0.0
   0.1
   0.1
   0.1
   Hct
   21.9
   25.9
   18.9
   24.5
   21.1
   27.8
   23.8
   24.2
   21.4
   Plt
   45
   6
   5
   22
   9
   33
   10
   36
   22
   Cr
   3.5
   3.0
   2.6
   2.7
   Glucose
   391
   357
   175
   219
   Other labs: PT / PTT / INR:19.6/32.9/1.8, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:34/58, Alk Phos / T Bili:278/4.7,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:502
   IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis [**9-8**].  Now
   growing GNR from blood cx, urine cx [**9-11**] -[**9-14**]  despite being on
   meropenem. Tobramycin given x1 but pt now on day 2 Bactrim therapy for
   likely stenotrophomonas. CT chest yesterday with edema and evidence of
   infiltrates. CT abd and pelvis w/o source of infxn
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - On meropenem and now day 2 bactrim for likely stenotrophomonas
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**], PIV
s in place. HD cath removed [**9-7**]
   preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - [**9-9**] CMV viral load  not detectable
   - Appreciated ID recs
   -Plan for family mtg today to discuss goals of care and if escalation
   in care is appropriate at this time.
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   continued intermittent unresponsiveness.  Pt currently  not responding
   to commands.  Volume status now + 4.7 L in LOS.  Patient last had HD
   [**9-10**] and currently on line holiday.  Pt w/ some agitation- getting PRN
   ativan, fentanyl. Patient has decent cough/gag with moderate ET
   secretions.
   - Will continue SIMV for now
   - HD on line holiday for now pending management of persistent
   bacteremia
   - Fentanyl prn
   # Acute renal failure: Patient started on CV VH on [**9-1**] and switched
   to HD on [**9-2**]; tolerating well. Pt had HD line pulled [**9-10**]. Urine
   output difficult to assess given CBI. ARF likely multifactorial ATN
   given PEA arrest, nephrotoxic medications, and contrast exposure. Renal
   U/S did not reveal hydronephrosis.
   - Hold on new line placement and HD for now- Cr slightly incr at 2.7
   and pt putting out volume but difficult to measure with CBI
   - Appreciate renal input
   #Hyperglycemia: Pt with better glucose control at 260
s o/n
   -cont insulin ss
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible rigors  from
   her sepsis.  EEG to finish today. Cont PRN fentanyl and ativan
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome- day 2
   bactrim today
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 1units RBCs this am. Awaiting rpt plt to order these
   - f/u final BM biopsy results from [**9-9**]
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted recommends ditropan, Tolterodin for
   bladder spasm and cont CBI.
   -Will cont CBI for now
   -Appreciate urology recs
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   -Started Lupron o/n. Attempting to get fem ring as well
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Pt currently septic with
   hypotension today
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili up to 4.7 today- ? [**12-18**] hemolysis. Rpt RUQ
   U/S did not show signs of hepatobiliary pathology causing elevated
   Tbili nor did CT abd/pelvis.  Uncertain etiology at this point. Could
   be combination of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]- final results pending
   # FEN:
   - Cont TF as tol
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin ss
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline removed [**9-12**]. Currently 3 PIV
s in place
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition: TF as tol
   Glycemic Control:  Insulin infusion
   Lines:
   22 Gauge - [**2135-9-12**] 11:58 AM
   20 Gauge - [**2135-9-13**] 10:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Family meeting planned for today at 4pm
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   After rounds today, TF were changed per nutrition recs to Nutren 2.0 at
   35 cc/hr without beneprotein.  Will be holding off on HD line today as
   no acute issues with fluid overload.  Will discuss with urology other
   possible options for getting rid of clot in bladder as this could be a
   nidus for infection.  Will discuss concentrating IV meds with pharmacy
   in light of fluid overload worstening on exam. Will touch base with
   neuro re: final read CT head especially with regard to parietal bleed
   and dilated ventricles.  If hypotension worstens today, will need to
   place CVL for pressors- will give FFP before this procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1681**] [**Last Name (NamePattern1) **], MD
   on:[**2135-9-15**] 10:42 ------

2135-09-15 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2135-9-14**] 09:30 AM
 FEVER - 102.0
F - [**2135-9-15**] 12:00 AM
   More agitated overnight, tachycardic, blood pressure continued to be
   labile requiring IVF boluses
   Persistent rigors
   Repeat blood culutres [**9-14**] growing gram negative rods
   Increased sedation requirements
   Head CT showed small collection, ? bleed in left parietal lobe,
   enlarged ventricles
   TTE showed no vegetations
   Changed from PSV to SIMV in setting of agitation and RR in 40's
                   Patient unable to provide history: ventilated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-9-13**] 05:24 AM
   Tobramycin - [**2135-9-13**] 06:23 PM
   Ambisome - [**2135-9-14**] 10:08 PM
   Bactrim (SMX/TMP) - [**2135-9-15**] 04:00 AM
   Meropenem - [**2135-9-15**] 05:56 AM
   Linezolid - [**2135-9-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-9-15**] 06:29 AM
   Lorazepam (Ativan) - [**2135-9-15**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-15**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.2
   HR: 143 (130 - 154) bpm
   BP: 107/57(70) {87/42(54) - 129/76(90)} mmHg
   RR: 3,333 (0 - 3,333) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  7,283 mL
                                                                  1,341 mL
   PO:
           TF:
                                                                    183 mL
   IVF:
                                                                  3,601 mL
                                                                  1,190 mL
   Blood products:
                                                                  2,419 mL
                                                                    151 mL
   Total out:
                                                                  2,000 mL
                                                                    100 mL
   Urine:
                                                                  1,400 mL
   NG:
                                                                    600 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  5,283 mL
                                                                  1,241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 503 (443 - 615) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///17/
   Ve: 16.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   22 K/uL
   219 mg/dL
   2.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   117 mg/dL
   109 mEq/L
   143 mEq/L
   21.4 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-12**]  03:32 AM
                            [**2135-9-12**]  10:45 AM
                            [**2135-9-13**]  03:27 AM
                            [**2135-9-13**]  09:15 PM
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
                            [**2135-9-14**]  02:06 PM
                            [**2135-9-14**]  07:59 PM
                            [**2135-9-15**]  12:00 AM
                            [**2135-9-15**]  03:29 AM
   WBC
   0.1
   0.0
   0.1
   0.1
   0.1
   Hct
   21.9
   25.9
   18.9
   24.5
   21.1
   27.8
   23.8
   24.2
   21.4
   Plt
   45
   6
   5
   22
   9
   33
   10
   36
   22
   Cr
   3.5
   3.0
   2.6
   2.7
   Glucose
   391
   357
   175
   219
   Other labs: PT / PTT / INR:19.6/32.9/1.8, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:34/58, Alk Phos / T Bili:278/4.7,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:502
   IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:5.5 mg/dL
   Imaging: CT chest:  Diffuse interstital and alveolar infiltrates, more
   consolidated in dependent areas, pleural effusions (albeit the latter
   are reduced from prior CT chest).
   CXR: ETT in good position. Diffuse infiltrates unchaned given technique
   differences
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 BACTEREMIA:  Persistent gram negative bacteremia, sensitive to
   bactrim.  Have dosed as per ID recommendations.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Creatinine
   essentially unchanged at 27 despite some hemodynamic instability over
   past 36 horus in setting of sepsis. Dosing medications accordingly.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  No change in ventilatory
   or oxygen requirements.  Still total body fluid overloaded with
   evidence of component of fluid in her lungs on CT. Also concerned about
   underlying pulmonary infection in setting of persistent neutropenia.
   Continues broad spectrum abx.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA:  No signs of bone marrow function return
   unfortunately.  Conintues on broad spectrum antibiotic/antifungal
   treatment in setting of prolonged neutropenia.  Transfusing 1 u pRBCs,
   platelets.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  More agitation overnight in
   setting of persistent gram negative bacteremia.  Not clear that small
   bleed on CT contributing.  Enlarged ventricles raises question of
   obstructive process - will review scans with neurology service.  EEG
   results pending.
 LIVER FUNCTION ABNORMALITIES
 H/O ANEMIA, secondary to bleeding as she continues to have gross
   hematuria on CBI in setting of persistent BM suppression s/p chemoRx in
   [**Month (only) 319**].
 MALNUTRITION:  Tube feeds have been on hold since CT scan yesterday
   as was vomiting baracat; also had high residuals noted earlier.  Will
   readdress in afternoon and consider restarting slowly following
   residuals.
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold given high residuals
   Glycemic Control:
   Lines:
   22 Gauge - [**2135-9-12**] 11:58 AM
   20 Gauge - [**2135-9-13**] 10:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   We held a family meeting this afternoon with Dr. [**Last Name (STitle) 1109**], myself,
   social work and the patient
s nurse [**First Name (Titles) **] [**Last Name (Titles) **]. [**Known lastname 366**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1788**] and family
   friend in the room and the patient
s father on the phone from [**Name (NI) 490**]
   The family was updated on the clinical course.  Dr. [**Last Name (STitle) 1109**] reviewed
   thte results of the BM biopsy from last Friday, her continued
   susceptibility to recurrent infections despite broad
   antibiotic/antifungal coverage and the new gram negative rods growing
   on multiple blood cultures.  Results of the head CT and EEG were also
   reviewed.  We discussed her labile blood pressure in the setting of GNR
   bacteremia.  The family is aware that even with the appropriate
   antibiotics, given the lack of WBCs she will be unlikely to clear the
   infection. They also understand that as we get farther out from the
   chemoRx, it is becoming less and less likely that her BM will come
   back.  The patient
s [**Last Name (STitle) 1788**] reiterated that her feeling was that Ms. [**Known lastname 366**]
   still has the will to live and that we should continue with the course
   including antibiotics/antifungals, IVFs as needed for hypotension and
   adding pressors if this is not enough, and continuing to readdress need
   for hemodialysis on a daily basis.  Her father and [**Known lastname 1788**] both agreed
   that we should not do chest compressions or shock her if she has an
   life threatening arrhythmia or blood pressure no longer responsive even
   to pressors.  Have changed code status to DNR.     Total time spend 35
   minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-9-15**] 18:18 ------

2135-09-16 08:05:00 Physician Resident Progress Note
Chief Complaint: Sepsis [**12-18**] pancytopenia
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-15**] 10:00 AM
 BLOOD CULTURED - At [**2135-9-15**] 01:20 PM
 MULTI LUMEN - START [**2135-9-15**] 03:30 PM
 BLOOD CULTURED - At [**2135-9-16**] 04:30 AM
 FEVER - 102.0
F - [**2135-9-15**] 08:00 AM
   - Right IJ placed
   - Family decided to make her DNR (no compressions or cardioversion) but
   lines, pressors, and dialysis okay
   - Bl cx continue to grow
   - Plan for IR to place temporary HD cath tomorrow
   - Renal to dialyze tomorrow after HD placement
   - Neuro wants repeat head CT on Sunday [**2135-9-18**]
   - After 2 U Hct was up 3 points, but HR and BP stablized -> repeat Hct
   at 12AM showed 26.7
   - 1 U platelets given for plt 7
   - Patient very uncomfortable at midnight but minimally responsive to
   commands.  Nursing stated this improved with morphine -> given
   breakthrough dose.
   - Hypotensive to 82/45 early AM, given 500 cc bolus with good response
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2135-9-13**] 06:23 PM
   Metronidazole - [**2135-9-15**] 04:00 PM
   Meropenem - [**2135-9-15**] 07:00 PM
   Linezolid - [**2135-9-15**] 08:00 PM
   Ambisome - [**2135-9-15**] 10:00 PM
   Bactrim (SMX/TMP) - [**2135-9-16**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-9-15**] 02:45 PM
   Fentanyl - [**2135-9-15**] 11:20 PM
   Morphine Sulfate - [**2135-9-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortablePain location: Pt unable to give ROS
   but shakes head
 to pain
   Flowsheet Data as of  [**2135-9-16**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36
C (96.8
   HR: 119 (113 - 137) bpm
   BP: 107/76(82) {72/36(43) - 115/84(91)} mmHg
   RR: 0 (0 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  5,458 mL
                                                                  1,047 mL
   PO:
           TF:
           50 mL
   IVF:
                                                                  3,484 mL
                                                                    802 mL
   Blood products:
                                                                  1,844 mL
                                                                    195 mL
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    580 mL
                                                                    400 mL
   NG:
                                                                    200 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,678 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (374 - 610) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: ///17/
   Ve: 15.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat, No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   29 K/uL
   8.9 g/dL
   215 mg/dL
   3.1 mg/dL
   17 mEq/L
   3.2 mEq/L
   117 mg/dL
   107 mEq/L
   142 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
                            [**2135-9-14**]  02:06 PM
                            [**2135-9-14**]  07:59 PM
                            [**2135-9-15**]  12:00 AM
                            [**2135-9-15**]  03:29 AM
                            [**2135-9-15**]  01:13 PM
                            [**2135-9-15**]  05:22 PM
                            [**2135-9-16**]  12:00 AM
                            [**2135-9-16**]  04:14 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   24.5
   21.1
   27.8
   23.8
   24.2
   21.4
   19.9
   22.4
   26.7
   22.9
   Plt
   22
   9
   33
   10
   36
   22
   81
   19
   7
   29
   Cr
   2.6
   2.7
   2.9
   3.1
   Glucose
   175
   219
   224
   215
   Other labs: PT / PTT / INR:19.4/31.6/1.8, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:22/46, Alk Phos / T Bili:204/4.9,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:351
   IU/L, Ca++:6.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**]. TEE without indication of endocarditis [**9-8**].  Now
   growing GNR from blood cx, urine cx [**9-11**] -[**9-14**]  despite being on
   meropenem. Tobramycin given x1 but pt now on day 2 Bactrim therapy for
   likely stenotrophomonas. CT chest yesterday with edema and evidence of
   infiltrates. CT abd and pelvis w/o source of infxn
   - cont Linezolid restarted; daptomycin d/c'ed [**9-10**]
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - On meropenem and now day 2 bactrim for likely stenotrophomonas
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**], PIV
s in place. HD cath removed [**9-7**]
   preliminary read shows no significant growth
   - Continue to monitor daily surveillance cultures
   - [**9-9**] CMV viral load  not detectable
   - Appreciated ID recs
   -Plan for family mtg today to discuss goals of care and if escalation
   in care is appropriate at this time.
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   continued intermittent unresponsiveness.  Pt currently  not responding
   to commands.  Volume status now + 4.7 L in LOS.  Patient last had HD
   [**9-10**] and currently on line holiday.  Pt w/ some agitation- getting PRN
   ativan, fentanyl. Patient has decent cough/gag with moderate ET
   secretions.
   - Will continue SIMV for now
   - HD on line holiday for now pending management of persistent
   bacteremia
   - Fentanyl prn
   # Acute renal failure: Patient started on CV VH on [**9-1**] and switched
   to HD on [**9-2**]; tolerating well. Pt had HD line pulled [**9-10**]. Urine
   output difficult to assess given CBI. ARF likely multifactorial ATN
   given PEA arrest, nephrotoxic medications, and contrast exposure. Renal
   U/S did not reveal hydronephrosis.
   - Hold on new line placement and HD for now- Cr slightly incr at 2.7
   and pt putting out volume but difficult to measure with CBI
   - Appreciate renal input
   #Hyperglycemia: Pt with better glucose control at 260
s o/n
   -cont insulin ss
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible rigors  from
   her sepsis.  EEG to finish today. Cont PRN fentanyl and ativan
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Year (2) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, linezolid, vancomycin PO, and ambisome- day 2
   bactrim today
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 1units RBCs this am. Awaiting rpt plt to order these
   - f/u final BM biopsy results from [**9-9**]
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted recommends ditropan, Tolterodin for
   bladder spasm and cont CBI.
   -Will cont CBI for now
   -Appreciate urology recs
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   -Started Lupron o/n. Attempting to get fem ring as well
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Pt currently septic with
   hypotension today
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili up to 4.7 today- ? [**12-18**] hemolysis. Rpt RUQ
   U/S did not show signs of hepatobiliary pathology causing elevated
   Tbili nor did CT abd/pelvis.  Uncertain etiology at this point. Could
   be combination of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - s/p bone marrow biopsy on [**9-9**]- final results pending
   # FEN:
   - Cont TF as tol
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin ss
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: Midline removed [**9-12**]. Currently 3 PIV
s in place
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: FULL
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2135-9-15**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments: Family mtg held
   yesterday, pt made DNR
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2135-09-16 11:10:00 Physician Attending Progress Note
Chief Complaint: Pancytopenia
   Respiratory failure, volume overloaded
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-15**] 10:00 AM
 BLOOD CULTURED - At [**2135-9-15**] 01:20 PM
 MULTI LUMEN - START [**2135-9-15**] 03:30 PM
 BLOOD CULTURED - At [**2135-9-16**] 04:30 AM
 FEVER - 102.0
F - [**2135-9-15**] 08:00 AM
   BP more stable overnight, not requiring pressors
   No further rigors
   Transfused 3 u pRBCs, hct 23 to 26; nct 22 this morning.
   Insulin drip off for 36 hours
   Tube feeds held for high residuals
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2135-9-13**] 06:23 PM
   Metronidazole - [**2135-9-15**] 04:00 PM
   Meropenem - [**2135-9-15**] 07:00 PM
   Ambisome - [**2135-9-15**] 10:00 PM
   Linezolid - [**2135-9-16**] 08:30 AM
   Bactrim (SMX/TMP) - [**2135-9-16**] 10:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2135-9-15**] 11:20 PM
   Morphine Sulfate - [**2135-9-16**] 06:00 AM
   Lorazepam (Ativan) - [**2135-9-16**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-9-16**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 125 (113 - 136) bpm
   BP: 112/72(81) {72/36(43) - 115/84(91)} mmHg
   RR: 35 (0 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  5,458 mL
                                                                  2,000 mL
   PO:
           TF:
           50 mL
   IVF:
                                                                  3,484 mL
                                                                  1,456 mL
   Blood products:
                                                                  1,844 mL
                                                                    494 mL
   Total out:
                                                                    780 mL
                                                                    550 mL
   Urine:
                                                                    580 mL
                                                                    400 mL
   NG:
                                                                    200 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,678 mL
                                                                  1,450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (374 - 610) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: ///17/
   Ve: 15.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   29 K/uL
   215 mg/dL
   3.1 mg/dL
   17 mEq/L
   3.2 mEq/L
   117 mg/dL
   107 mEq/L
   142 mEq/L
   22.9 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-14**]  03:01 AM
                            [**2135-9-14**]  06:43 AM
                            [**2135-9-14**]  02:06 PM
                            [**2135-9-14**]  07:59 PM
                            [**2135-9-15**]  12:00 AM
                            [**2135-9-15**]  03:29 AM
                            [**2135-9-15**]  01:13 PM
                            [**2135-9-15**]  05:22 PM
                            [**2135-9-16**]  12:00 AM
                            [**2135-9-16**]  04:14 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   24.5
   21.1
   27.8
   23.8
   24.2
   21.4
   19.9
   22.4
   26.7
   22.9
   Plt
   22
   9
   33
   10
   36
   22
   81
   19
   7
   29
   Cr
   2.6
   2.7
   2.9
   3.1
   Glucose
   175
   219
   224
   215
   Other labs: PT / PTT / INR:19.4/31.6/1.8, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:22/46, Alk Phos / T Bili:204/4.9,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:351
   IU/L, Ca++:6.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 BACTEREMIA:  No positive blood cultures since [**9-13**].  Continues broad
   spectrum antibiotics including bactrim.  Cultures sent again on [**9-15**]
   and [**9-16**].  More hemodynamically stable, no further rigors, may be
   clearing infection.  Persistently febrile.
 PANCYTOPENIA: Requiring increasing blood products over past 24
   hours.
 MALNUTRITION: High residuals, tube feeds on hold.
 EDEMA, PERIPHERAL: Total body fluid overloaded.  Now that
   hemodynamically stable will readdress HD with renal service. Patient
   will need to go to IR for placement of dialysis catheter.  Also with
   increasing BUN/Cr, acidosis.  Elevated BUN may be contributing to
   delerium as well as platelet dysfunction.
 RESPIRATORY FAILURE, ACUTE on CHRONIC (NOT ARDS/[**Doctor Last Name 2**]): Volume overload
   and possible infection limiting wean.  Plan to reconsider dialysis and
   volume removal with renal service.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Worsening in setting
   of recent hemodynamic instability, component of prerenal azotemia/ATN.
   Now [**Last Name (LF) 1805**], [**First Name3 (LF) 116**] follow.
 HEMATURIA:  Continues CBI.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Improved today, may be that
   infection is improving.  Plan for repeat head CT to followup on
   ventricle enlargement and small occipital bleed on [**9-18**] unless
   clinically changed.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM): Day #44 s/p
   chemoRx without evidence of counts returning.  Prognosis poor.
   ICU Care
   Nutrition:
   Comments: Tube feeds held given high residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2135-9-15**] 03:30 PM
   Prophylaxis:
   DVT: Boots(elevated INR, thrombocytopenia)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2135-09-17 08:18:00 Physician Resident Progress Note
Chief Complaint: Sepsis, pancytopenia
   24 Hour Events:
 DIALYSIS CATHETER - START [**2135-9-16**] 04:00 PM
 BLOOD CULTURED - At [**2135-9-17**] 04:54 AM
   - Hypotensive to SBP 70s overnight, received 500 cc bolus
   - BCx confirmed Stenotrophomonas in Blood
   - Platelets x2 since yesterday
   - HLA Antibody Screen sent
   - BCx surveillance cultures sent
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2135-9-15**] 04:00 PM
   Meropenem - [**2135-9-15**] 07:00 PM
   Linezolid - [**2135-9-16**] 08:00 PM
   Ambisome - [**2135-9-16**] 10:00 PM
   Bactrim (SMX/TMP) - [**2135-9-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-9-16**] 08:15 AM
   Morphine Sulfate - [**2135-9-17**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to attain [**12-18**] unresponsiveness
   Flowsheet Data as of  [**2135-9-17**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 126 (121 - 134) bpm
   BP: 107/63(71) {76/35(46) - 125/75(87)} mmHg
   RR: 35 (4 - 40) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  3,280 mL
                                                                  1,239 mL
   PO:
           TF:
                                                                    120 mL
   IVF:
                                                                  2,398 mL
                                                                    812 mL
   Blood products:
                                                                    762 mL
                                                                    427 mL
   Total out:
                                                                  1,150 mL
                                                                    150 mL
   Urine:
                                                                  1,000 mL
   NG:
                                                                    150 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,130 mL
                                                                  1,089 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 489 (380 - 489) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 90%
   ABG: ///16/
   Ve: 14.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, pt wiggles right
   toe to commands today
   Labs / Radiology
   17 K/uL
   9.6 g/dL
   177 mg/dL
   2.9 mg/dL
   16 mEq/L
   3.8 mEq/L
   119 mg/dL
   108 mEq/L
   141 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-14**]  07:59 PM
                            [**2135-9-15**]  12:00 AM
                            [**2135-9-15**]  03:29 AM
                            [**2135-9-15**]  01:13 PM
                            [**2135-9-15**]  05:22 PM
                            [**2135-9-16**]  12:00 AM
                            [**2135-9-16**]  04:14 AM
                            [**2135-9-16**]  12:27 PM
                            [**2135-9-16**]  08:37 PM
                             [**2135-9-17**]  04:18 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   23.8
   24.2
   21.4
   19.9
   22.4
   26.7
   22.9
   26.2
   25.9
   25.5
   Plt
   10
   36
   22
   81
   19
   7
   29
   12
   14
   17
   Cr
   2.7
   2.9
   3.1
   3.0
   2.9
   Glucose
   [**Telephone/Fax (3) 1818**]90
   177
   Other labs: PT / PTT / INR:18.3/31.9/1.7, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:28/82, Alk Phos / T Bili:201/5.7,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:351
   IU/L, Ca++:6.8 mg/dL, Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**] and replaced [**9-16**]. TEE without indication of
   endocarditis [**9-8**].  Now growing GNR from blood cx, urine cx [**9-11**]
   -[**9-14**]  despite being on meropenem. Tobramycin given x1 but pt now on
   day 3 Bactrim therapy for likely stenotrophomonas. CT chest [**2135-9-14**]
   with edema and evidence of infiltrates. CT abd and pelvis w/o source of
   infxn
   - Change Linezolid back to dapto today as former can supress bone
   marrow.
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - On meropenem and now day 3 bactrim for  stenotrophomonas bacteremia
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**]. HD cath removed [**9-7**]
 preliminary read shows
   no significant growth.  RIJ placed [**9-15**], HD catheter placed [**9-16**]
   - Continue to monitor daily surveillance cultures
   - [**9-9**] CMV viral load  not detectable
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   continued intermittent unresponsiveness.  Pt currently responding to
   some commands.  Volume status now + 11L in LOS.  Patient last had HD
   [**9-10**].  Pt w/ some agitation- getting PRN ativan, fentanyl, morphine.
   Patient has decent cough/gag with moderate ET secretions.
   - Switch SIMV to Assist control today
   - HD line placed [**9-16**]. CVVH to start today
   - Fentanyl, ativan, morphine prn
   # Acute renal failure: Patient started on CV VH on [**9-1**] and switched
   to HD on [**9-2**]- [**9-9**]; tolerated well. Pt had HD line pulled [**9-10**] and
   replaced [**9-16**]. Urine output difficult to assess given CBI. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S did not reveal hydronephrosis.
   - CVVH to start today with pressors to support BP
   - Appreciate renal input
   #Hyperglycemia: Pt with better glucose control now as not receiving TF
   -cont insulin ss
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible rigors  from
   her sepsis.  EEG to finish today. Cont PRN fentanyl and ativan
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Day (4) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, vancomycin PO, ambisome and high dose bactrim.
   Will change linezolid to daptomycin [**12-18**] myelosuppressive effects today
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 2units  plts today. Awaiting rpt plt to order these
   - BM biopsy from sternal aspirate [**9-9**] with empty marrow
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted recommends ditropan, Tolterodin for
   bladder spasm and cont CBI.
   -Will cont CBI for now
   -Appreciate urology recs
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   -Started Lupron [**9-14**].
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Pt currently septic with
   hypotension but now on pressors
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili up to 4.7 today- ? [**12-18**] hemolysis. Rpt RUQ
   U/S did not show signs of hepatobiliary pathology causing elevated
   Tbili nor did CT abd/pelvis.  Uncertain etiology at this point. Could
   be combination of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - [**9-9**] BM biopsy with empty bone marrow
   # FEN:
   - Cont TF as tol
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin ss
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: RIJ placed [**9-15**]. HD catheter placed [**9-16**]
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: DNR
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2135-9-15**] 03:30 PM
   Dialysis Catheter - [**2135-9-16**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2135-09-18 06:42:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2135-9-18**] 02:49 AM
 EKG - At [**2135-9-18**] 06:00 AM
   - Pt started on levophed gtt to support SBP 110's-120's while CVVH was
   initiated today and ramped up to 150cc ultrafiltrate/hr (goal per renal
   100-200cc/hr)
   - Pt with lactate 2.5 prior to cvvh initiation
   - Placed back on assist control for comfort while on CVVH
   - CVP approx 12 throughout day
   - Head CT will be defered for f/u of parietal bleed while pt on CVVH
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   itching;
   Aspirin
   Unknown;
   Amoxicillin
   Diarrhea;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2135-9-15**] 04:00 PM
   Ambisome - [**2135-9-16**] 10:00 PM
   Linezolid - [**2135-9-17**] 08:00 AM
   Daptomycin - [**2135-9-17**] 09:00 PM
   Bactrim (SMX/TMP) - [**2135-9-18**] 04:20 AM
   Meropenem - [**2135-9-18**] 05:35 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-9-17**] 09:00 PM
   Fentanyl - [**2135-9-17**] 10:00 PM
   Morphine Sulfate - [**2135-9-18**] 05:15 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to attain as pt unresponsive
   Flowsheet Data as of  [**2135-9-18**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 136 (114 - 137) bpm
   BP: 84/42(49) {70/29(40) - 123/98(102)} mmHg
   RR: 27 (11 - 37) insp/min
   SpO2: 82%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 326 (8 - 327)mmHg
   Total In:
                                                                  4,517 mL
                                                                  1,308 mL
   PO:
   TF:
                                                                     32 mL
   IVF:
                                                                  3,182 mL
                                                                  1,308 mL
   Blood products:
                                                                  1,093 mL
   Total out:
                                                                  4,518 mL
                                                                    825 mL
   Urine:
                                                                    125 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI Deferred: Hemodynamic Instability
   PIP: 33 cmH2O
   SpO2: 82%
   ABG: ///17/
   Ve: 17.8 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Tender: intermittently and not reproducible in any
   area
   Extremities: Right: 3+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   9.4 g/dL
   108 mg/dL
   2.1 mg/dL
   17 mEq/L
   3.7 mEq/L
   76 mg/dL
   103 mEq/L
   138 mEq/L
   25.8 %
   0.1 K/uL
        [image002.jpg]
                            [**2135-9-16**]  12:00 AM
                            [**2135-9-16**]  04:14 AM
                            [**2135-9-16**]  12:27 PM
                            [**2135-9-16**]  08:37 PM
                             [**2135-9-17**]  04:18 AM
                             [**2135-9-17**]  08:50 AM
                             [**2135-9-17**]  02:53 PM
                             [**2135-9-17**]  08:51 PM
                             [**2135-9-17**]  08:52 PM
                             [**2135-9-18**]  01:31 AM
   WBC
   0.1
   Hct
   26.7
   22.9
   26.2
   25.9
   25.5
   24.7
   25.8
   Plt
   7
   29
   12
   14
   17
   22
   10
   107
   Cr
   3.1
   3.0
   2.9
   3.1
   2.3
   2.1
   Glucose
   [**Telephone/Fax (3) 1827**]68
   176
   144
   108
   Other labs: PT / PTT / INR:18.7/33.7/1.7, CK / CKMB /
   Troponin-T:664/3/0.03, ALT / AST:27/78, Alk Phos / T Bili:189/6.8,
   Amylase / Lipase:28/42, Differential-Neuts:0.0 %, Band:0.0 %,
   Lymph:50.0 %, Mono:50.0 %, Eos:0.0 %, D-dimer:3285 ng/mL,
   Fibrinogen:606 mg/dL, Lactic Acid:8.5 mmol/L, Albumin:2.3 g/dL, LDH:351
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MALNUTRITION
 EDEMA, PERIPHERAL
 PANCYTOPENIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 BACTEREMIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 PANCYTOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 NEUTROPENIA
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ANEMIA, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CARDIAC ARREST
   38 yo female with relapsed ALL s/p chemotherapy with multiple medical
   problems, including [**Name (NI) 1542**] sepsis, fungemia, pancytopenia, respiratory
   failure, and acute renal failure s/p PEA arrest requiring mechanical
   ventilation and hemodialysis.
   # Sepsis: Continues to be neutropenic with [**Name (NI) 1542**] sepsis, fungemia.
   Patient on ambisome since [**9-4**] for yeast coverage for positive blood
   culture on [**9-1**] ([**Female First Name (un) **] PARAPSILOSIS) most recent [**9-6**] growing
   yeast. Patient has persistent [**Month/Year (2) 1542**] bacteremia most recent positive
   culture from [**9-9**], on daptomycin since [**9-4**] - on [**9-9**] started back
   on linezolid given resurrgeance of positive blood cultures.  HD line
   was removed [**9-10**] and replaced [**9-16**]. TEE without indication of
   endocarditis [**9-8**].  Now growing GNR from blood cx, urine cx [**9-11**]
   -[**9-14**]  despite being on meropenem. Tobramycin given x1 but pt now on
   day 3 Bactrim therapy for likely stenotrophomonas. CT chest [**2135-9-14**]
   with edema and evidence of infiltrates. CT abd and pelvis w/o source of
   infxn
   - Change Linezolid back to dapto today as former can supress bone
   marrow.
   - Cont ambisome for yeast (last positive culture [**9-2**], [**Female First Name (un) **]
   parapsilosis)
   - On meropenem and now day 3 bactrim for  stenotrophomonas bacteremia
   - Continue vancomycin PO for C diff (last positive C diff toxin [**7-18**]),
   flagyl IV
   - Midline removed [**9-12**]. HD cath removed [**9-7**]
 preliminary read shows
   no significant growth.  RIJ placed [**9-15**], HD catheter placed [**9-16**]
   - Continue to monitor daily surveillance cultures
   - [**9-9**] CMV viral load  not detectable
   - Appreciated ID recs
   # Respiratory failure: Patient has been off sedation since [**8-29**] with
   continued intermittent unresponsiveness.  Pt currently responding to
   some commands.  Volume status now + 11L in LOS.  Patient last had HD
   [**9-10**].  Pt w/ some agitation- getting PRN ativan, fentanyl, morphine.
   Patient has decent cough/gag with moderate ET secretions.
   - Switch SIMV to Assist control today
   - HD line placed [**9-16**]. CVVH to start today
   - Fentanyl, ativan, morphine prn
   # Acute renal failure: Patient started on CV VH on [**9-1**] and switched
   to HD on [**9-2**]- [**9-9**]; tolerated well. Pt had HD line pulled [**9-10**] and
   replaced [**9-16**]. Urine output difficult to assess given CBI. ARF likely
   multifactorial ATN given PEA arrest, nephrotoxic medications, and
   contrast exposure. Renal U/S did not reveal hydronephrosis.
   - CVVH to start today with pressors to support BP
   - Appreciate renal input
   #Hyperglycemia: Pt with better glucose control now as not receiving TF
   -cont insulin ss
   #Shaking: Pt with intermittent shaking/twitching per nursing. Unlikely
   patient is in status given it waxes and wanes.  Possible rigors  from
   her sepsis.  EEG to finish today. Cont PRN fentanyl and ativan
   # Pancytopenia: Secondary to bone marrow ablation therapy for planned
   BMT prior to ICU admission. Multiple known sources of infection,
   including new GNR bacteremia,  [**Month/Day (4) 1542**], C. diff, and yeast. Bone marrow
   biopsy [**9-9**] by report without any cells but still awaiting final
   results
   - Continue Neuopogen
   - Continue meropenem, vancomycin PO, ambisome and high dose bactrim.
   Will change linezolid to daptomycin [**12-18**] myelosuppressive effects today
   - Per ID recs, stopped acyclovir [**9-11**] as marrow suppresant and no
   active viral infection at this
   - Transfuse for HCT<21 or Plt<10 or higher if signs of bleeding- pt to
   get 2units  plts today. Awaiting rpt plt to order these
   - BM biopsy from sternal aspirate [**9-9**] with empty marrow
   # Hematuria: Pt with hematuria 2wks and clots. Currently on CBI to
   prevent clotting. Urology consulted recommends ditropan, Tolterodin for
   bladder spasm and cont CBI.
   -Will cont CBI for now
   -Appreciate urology recs
   #Vaginal bleeding: History of vaginal bleeding.
   - Appreciate gyn input
   - Discontinued estraderm
 should expect some withdrawal bleeding
   -Started Lupron [**9-14**].
   - Transfuse plts if active bleeding
   # Hypertension: Per records, patient has history of hypertension and
   has been prescribed lopressor as an outpatient. Patient written for
   labetalol, though not requiring currently. Pt currently septic with
   hypotension but now on pressors
   # Papular rash: Patient with papular rash on forehead since [**9-1**].
   Likely contact dermatitis. Doesn
t appear to be zoster. Improving.
   - Will cont to monitor.
   # Hyperbilirubinemia: T bili up to 4.7 today- ? [**12-18**] hemolysis. Rpt RUQ
   U/S did not show signs of hepatobiliary pathology causing elevated
   Tbili nor did CT abd/pelvis.  Uncertain etiology at this point. Could
   be combination of cholestasis, sepsis,  bowel edema.
   - Trend LFTs, bilirubin
   # Coagulopathy: Elevated INR but not on anticoagulation. Likely
   secondary to nutritional deficiency.
   - Monitor coags
   # C. Diff: Last positive C. diff toxin on [**2135-7-18**].
   - Continue PO vanco (pt with decreased gut motility)
 will need for 2
   weeks beyond completion of broad-spectrum antibiotics
   - Discontinued flagyl as she is covered for anaerobes with meropenem
   # ALL: s/p recent chemo, at count nadirs. Plan is to ultimately perform
   BM transplant if patient medically stable, extubated, out of the ICU
   and has functional status.
   - f/u onc recs
   - [**9-9**] BM biopsy with empty bone marrow
   # FEN:
   - Cont TF as tol
   - Cont reglan, lactulose, senokot, colace
   - Follow blood sugars , currently on insulin ss
   # PPX: pneumoboots, bowel regimen, mouthcare
   # LINES: RIJ placed [**9-15**]. HD catheter placed [**9-16**]
   # CONTACT: [**Name (NI) 1014**] [**Known lastname 366**] (father)  [**Telephone/Fax (1) 1015**] (lives out of state).
   Has aunt in area involved in decisions about care.
   # CODE: DNR
   # DISPO: ICU level of care
   ICU Care
   Nutrition: TF on hold
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2135-9-15**] 03:30 PM
   Dialysis Catheter - [**2135-9-16**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU